2141-10-09 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   53 y/o M with DM II, HTN, AF, cocaine induced MI who presented with SOB
   and hypoxic/hypercarbic respiratory failure.
   24 Hour Events:
   Code blue at 9pm.  Agitated and hypercarbic.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2141-10-8**] 09:15 PM
   Metoprolol - [**2141-10-8**] 09:30 PM
   Furosemide (Lasix) - [**2141-10-9**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-9**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 85 (61 - 129) bpm
   BP: 92/60(70) {61/43(48) - 198/123(148)} mmHg
   RR: 16 (14 - 36) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,940 mL
                                                                    161 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,570 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    485 mL
   Urine:
                                                                  1,750 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 600) mL
   Vt (Spontaneous): 546 (546 - 802) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 37.6 cmH2O/mL
   SpO2: 88%
   ABG: 7.46/57/61/40/13
   Ve: 8.7 L/min
   PaO2 / FiO2: 87
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   229 K/uL
   10.5 g/dL
   157 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.9 mEq/L
   40 mg/dL
   96 mEq/L
   139 mEq/L
   35.4 %
   7.2 K/uL
        [image002.jpg]
                            [**2141-10-8**]  08:14 AM
                            [**2141-10-8**]  11:47 AM
                            [**2141-10-8**]  03:30 PM
                            [**2141-10-8**]  07:16 PM
                            [**2141-10-8**]  09:39 PM
                            [**2141-10-8**]  10:52 PM
                            [**2141-10-8**]  11:14 PM
                            [**2141-10-9**]  01:30 AM
                            [**2141-10-9**]  03:54 AM
                            [**2141-10-9**]  04:04 AM
   WBC
   8.4
   7.2
   Hct
   38
   38.0
   35.4
   Plt
   274
   229
   Cr
   1.6
   1.6
   TropT
   0.03
   TCO2
   41
   43
   44
   43
   40
   36
   39
   42
   Glucose
   185
   181
   157
   Other labs: PT / PTT / INR:19.4/27.4/1.8, CK / CKMB /
   Troponin-T:172/6/0.03, Lactic Acid:2.3 mmol/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII,
   hypertension, AF, cocaine-induced MI in the past who worsening SOB, now
   with hypoxic/hypercarbic respiratory failure.
   .
   #SOB: Likely multifactorial given his extensive history. Current
   exacerbation may be due to worsening diastolic heart failure from
   possible dietary indiscretion and rapid AF decreasing diastolic filling
   time. Likely took cocaine which caused worsening AF. BNP elevated,
   weight up, and worsening CHF clinical symptoms.  OSA/OHS and pulmonary
   HTN likely also contributing to poor oxygenation and ventilation. No
   signs of infection so PNA less likely. PE a possibility with
   tachycardia and SOB. LENIS negative. However, unable to CTA given
   current respiratory status.
   -BIPAP for now for ventilation but low threshold for intubation given
   hypercarbia.
   -Check frequent ABGs, consider A-Line
   -Nitro gtt, titrate to SPB 110-140
   -IV and PO metoprolol for rate control to increase filling time
   -IV Lasix and Diuril for diuresis as he has not responded much to Lasix
   given in ED
   -Con't heparin gtt until PE evaluated and INR therapeutic
   .
   #Atrial fibrillation:
   -Heparin gtt
   -IV and PO metoprolol for rate control
   .
   #DM: Con't home lantus dose with HISS
   .
   #HTN:  Con't metoprolol and nitro gtt
   .
   #Hypercholesterolemia:  Con't statin
   .
   #Gout: no flares recently. Con't allopurinol
   .
   FEN: NPO while on mask, lytes repleted as needed, DM/low salt
   .
   PPX: Heparin gtt until patient reached therepeutic
   INR on coumadin, no PPI, bowel regimen
   .
   Access: PIV
   Code: Full
   .
   #Contacts: [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-10-8**] 11:00 AM
   Arterial Line - [**2141-10-8**] 03:00 PM
   20 Gauge - [**2141-10-8**] 11:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-10 04:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Esophageal balloon showed high pressures, PEEP increased to 26
   FiO2 able to be titrated down
 EKG - At [**2141-10-9**] 08:24 AM
 ESOPHOGEAL BALLOON placed - At [**2141-10-9**] 04:05 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-10**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-10-9**] 06:25 AM
   Pantoprazole (Protonix) - [**2141-10-9**] 02:09 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-10**] 04:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.5
C (95.9
   HR: 64 (61 - 90) bpm
   BP: 120/78(91) {84/55(65) - 121/81(93)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,126 mL
                                                                    408 mL
   PO:
             TF:
                                                                     80 mL
                                                                     87 mL
   IVF:
                                                                    786 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    540 mL
   Urine:
                                                                  1,820 mL
                                                                    540 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -754 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 37 cmH2O
   Compliance: 52.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/52/132/37/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: Sedated, not responding to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r
   CV: RRR, distant heart sounds, no appreciable murmur
   Abdominal: Obese, active bowel tones, thickened skin/subcutaneous
   concerning for possible edema, unable to palpate a mass, does not
   grimace on exam
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l in shin
   Neuro/Psych: Sedated, unable to assess more fully
   Labs / Radiology
   229 K/uL
   11.0 g/dL
   150 mg/dL
   2.1 mg/dL
   37 mEq/L
   3.9 mEq/L
   46 mg/dL
   95 mEq/L
   139 mEq/L
   36.5 %
   9.1 K/uL
        [image002.jpg]
                            [**2141-10-8**]  11:14 PM
                            [**2141-10-9**]  01:30 AM
                            [**2141-10-9**]  03:54 AM
                            [**2141-10-9**]  04:04 AM
                            [**2141-10-9**]  01:43 PM
                            [**2141-10-9**]  04:35 PM
                            [**2141-10-9**]  06:11 PM
                            [**2141-10-9**]  09:10 PM
                            [**2141-10-10**]  03:04 AM
                            [**2141-10-10**]  03:26 AM
   WBC
   8.4
   7.2
   9.1
   Hct
   38.0
   35.4
   36.5
   Plt
   274
   229
   Cr
   1.6
   1.6
   2.1
   TropT
   0.03
   TCO2
   39
   42
   41
   38
   38
   39
   Glucose
   181
   157
   150
   Other labs: PT / PTT / INR:19.4/27.4/1.8, CK / CKMB /
   Troponin-T:172/6/0.03, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:9.4
   mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely multifactorial in the setting of heart
   failure, pulmonary HTN, OSA and morbid obesity.  Initial presentation
   may have been [**1-14**] decompensated heart failure from dietery
   noncompliance (sardines) and beta adrenergic stimuli [**1-14**] cocaine use.
   This likely led to pulmonary edema [**1-14**] fluid retention with resultant
   hypercarbia.  Acute decompensation may have occured [**1-14**] agitation,
   rapid breathing and then body positioning (leaning forward with
   decreased chest wall compliance).  Oxygenation has been difficult.
   - Pt is better ventilated artificially than he normally would without
   assistance due to his chronic hypoventilation.  In order to move closer
   to ventilatory settings that he will be able to maintain unassisted, we
   will hypoventilate him Vt of 430 x ~14, while maintaining a PEEP of 26.
   - Esophageal balloon monitoring
   - Continue Fentanyl/Midazolam for sedation
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decrease compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily RSBI, SBT as able
   - Daily sedation holidays as able
   - Diurese, goal again today -1 to 1.5L as BP tolerates: seemingly
   responds to Lasix 120mg IV with Diurel 500mg IV
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation.  Will
   manage as above.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.
   - Cont. to hold BB for hypotension, restart as able
   - Continue aspirin
   .
   # LE erythema: c/w chronic change [**1-14**] edema and venous insufficiency.
   Would also consider cellulitis given warmth and erythema.
   - Stop Unasyn IV due to potential nephrotoxic effects and ARF.
   - Monitor for interval change.
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.  Is on Warfarin for Afib, with no overt signs of
   bleeding.
   - Follow up iron studies, haptoglobin, RI, Haptoglobin, LDH
   - Consider obtaining a reticulocyte count.
   - Guaiac stools x 3
   - Holding warfarin for potential line placement
   .
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Metoprolol initially continued given hypertension, then discontinued
   [**1-14**] hypotension.
   - Hold Warfarin [**1-14**] concern for CVL placement to be placed today
 and
   restart once he is more stable.
   - Hold Metoprolol, monitor for rebound tachycardia on tele
   - Would consider Labetolol for nonspecific receptor control
   .
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 1.6.  Could be [**1-14**]
   diuresis vs poor forward flow insetting of peri-intubation transient
   hypotension.
   - Send urine lytes/osms
   - Trend
   .
   # DM: On Insulin as outpatient.
   - QID FS
   - ISS
 to tighten regimen.
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Hold BB as above
   - Continue diuresis as able
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated
   .
   PPX: Heparin SQ, PPI, bowel regimen
   .
   Access: PIVs, A-line
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-9**] 06:00 PM 20 mL/hour
   Lines:
   18 Gauge - [**2141-10-8**] 11:00 AM
   Arterial Line - [**2141-10-8**] 03:00 PM
   20 Gauge - [**2141-10-9**] 08:30 PM
   Disposition:

2141-10-11 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVL placed, pulled back after CXR into appropriate position.
   - Vent settings changed to Vt of 400 and decreased the rate to tolerate
   a PCO2 of 60 [physiologic parameters in which this particular patient
   lives]. Tolerated pressure support for hours until laid flat for CVL
   placement during which his Vt dropped to .1 from .5
   - Diuresed last night.
   - Tighted ISS
   - Stopped unasyn.
   - Cultured purulent nasal exudate.
 MULTI LUMEN - START [**2141-10-11**] 12:00 AM
   placed at 1900 on [**10-10**]----placement not confirmed by CXR x 2----line
   pulled back 3 cm by MICU team and repeat CXR pending at this time
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-10**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-10**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-10**] 04:41 PM
   Midazolam (Versed) - [**2141-10-10**] 06:32 PM
   Fentanyl - [**2141-10-10**] 06:32 PM
   Metoprolol - [**2141-10-11**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-11**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 103 (62 - 116) bpm
   BP: 133/93(104) {110/70(83) - 151/99(114)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 26 (23 - 26)mmHg
   Total In:
                                                                  2,447 mL
                                                                    571 mL
   PO:
   TF:
                                                                    585 mL
                                                                     69 mL
   IVF:
                                                                  1,507 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    345 mL
   Urine:
                                                                  2,915 mL
                                                                    345 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -498 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 460) mL
   Vt (Spontaneous): 442 (441 - 442) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 38 cmH2O
   Compliance: 47.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/68/109/37/9
   Ve: 4.7 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Gen: Sedated, not responding to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r
   CV: RRR, distant heart sounds, no appreciable murmur
   Abdominal: Obese, active bowel tones, thickened skin/subcutaneous
   concerning for possible edema, unable to palpate a mass, does not
   grimace on exam
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l in shin
   Neuro/Psych: Sedated, unable to assess more fully
   Labs / Radiology
   281 K/uL
   12.2 g/dL
   137 mg/dL
   2.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   50 mg/dL
   96 mEq/L
   141 mEq/L
   40.6 %
   9.0 K/uL
        [image002.jpg]
   Micro: Swab from left naris = gm + cocci;
                            [**2141-10-10**]  03:26 AM
                            [**2141-10-10**]  09:35 AM
                            [**2141-10-10**]  01:46 PM
                            [**2141-10-10**]  03:36 PM
                            [**2141-10-10**]  03:42 PM
                            [**2141-10-10**]  05:06 PM
                            [**2141-10-10**]  10:00 PM
                            [**2141-10-10**]  11:04 PM
                            [**2141-10-11**]  03:06 AM
                            [**2141-10-11**]  03:16 AM
   WBC
   9.0
   Hct
   40.6
   Plt
   281
   Cr
   1.8
   2.1
   TCO2
   39
   39
   40
   40
   40
   41
   39
   39
   Glucose
   179
   137
   Other labs: PT / PTT / INR:21.2/27.6/2.0, CK / CKMB /
   Troponin-T:172/6/0.03, Lactic Acid:0.9 mmol/L, LDH:201 IU/L, Ca++:9.6
   mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely multifactorial in the setting of heart
   failure, pulmonary HTN, OSA and morbid obesity.  Initial presentation
   may have been [**1-14**] decompensated heart failure from dietery
   noncompliance (sardines) and beta adrenergic stimuli [**1-14**] cocaine use.
   This likely led to pulmonary edema [**1-14**] fluid retention with resultant
   hypercarbia.  Acute decompensation may have occured [**1-14**] agitation,
   rapid breathing and then body positioning (leaning forward with
   decreased chest wall compliance).  Oxygenation has been difficult.
   - Pt is better ventilated artificially than he normally would without
   assistance due to his chronic hypoventilation.  In order to move closer
   to ventilatory settings that he will be able to maintain unassisted, we
   will hypoventilate him Vt of 430 x ~14, while maintaining a PEEP of 26.
   - Continue Fentanyl/Midazolam for sedation
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decrease compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Trying to wean peep
   - Daily sedation holidays as able
   - Diurese, goal again today -1 to 1.5L as BP tolerates: seemingly
   responds to Lasix 120mg IV with Diurel 500mg IV.  NOTE will need to
   closely follow UOP as serum Cr. Is increasing, which may be an effect
   of cardiac stretch beyond appropriate starling curve dynamics.
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation.  Will
   manage as above.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.
   - Cont. to hold BB for hypotension, restart as able
   - Continue aspirin
   .
   # LE erythema: c/w chronic change [**1-14**] edema and venous insufficiency.
   Would also consider cellulitis given warmth and erythema.
   - Monitor for interval change.
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.  Is on Warfarin for Afib, with no overt signs of
   bleeding.
   - Follow up iron studies, haptoglobin, RI, Haptoglobin, LDH
   - Consider obtaining a reticulocyte count.
   - Guaiac stools x 3
   - Holding warfarin for potential line placement
   .
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Metoprolol initially continued given hypertension, then discontinued
   [**1-14**] hypotension.
   - Hold warfarin while manipulating CVL..
   - Would consider Labetolol for nonspecific receptor control
   .
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 1.6.  Could be [**1-14**]
   diuresis vs poor forward flow insetting of peri-intubation transient
   hypotension.
   - Send urine lytes/osms [**Hospital1 **].
   .
   # ?Sinusitis
   - Following cultures
 if possible consider unasyn.
   - Trending fever curve and WBCs.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been 114 and 124.
   - ISS
 regimen appropriate.
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Hold BB as above
   - Continue diuresis as able
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated
   .
   PPX: Heparin SQ, PPI, bowel regimen
   .
   Access: PIVs, A-line
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-11**] 02:37 AM 20 mL/hour
   Lines:
   18 Gauge - [**2141-10-8**] 11:00 AM
   Arterial Line - [**2141-10-8**] 03:00 PM
   20 Gauge - [**2141-10-9**] 08:30 PM
   Multi Lumen - [**2141-10-11**] 12:00 AM

2141-10-11 10:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with severe obesity, diastolic CHF, DM II, cocaine-induced
   MI.  T
   24 Hour Events:
 MULTI LUMEN - START [**2141-10-11**] 12:00 AM
   placed at 1900 on [**10-10**]----placement not confirmed by CXR x 2----line
   pulled back 3 cm by MICU team and repeat CXR pending at this time
   VT decreased, and rate increased on vent.  Tolerated PSV for few hours
   yesterday.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-10**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-10**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-10**] 04:41 PM
   Midazolam (Versed) - [**2141-10-10**] 06:32 PM
   Fentanyl - [**2141-10-10**] 06:32 PM
   Metoprolol - [**2141-10-11**] 04:37 AM
   Other medications:
   lipitor
   asa
   SSI
   chlorhex
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-11**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 100 (62 - 116) bpm
   BP: 102/70(80) {102/70(80) - 151/99(114)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 26 (23 - 34)mmHg
   Total In:
                                                                  2,447 mL
                                                                    929 mL
   PO:
   TF:
                                                                    585 mL
                                                                    180 mL
   IVF:
                                                                  1,507 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    399 mL
   Urine:
                                                                  2,915 mL
                                                                    399 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -498 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (400 - 530) mL
   Vt (Spontaneous): 442 (441 - 442) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 42 cmH2O
   Compliance: 42.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/60/101/37/7
   Ve: 7.6 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Diminished pulses throughout
   (Respiratory / Chest: (Expansion: No(t) Symmetric), (Percussion:
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Distended, firm
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   281 K/uL
   137 mg/dL
   2.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   50 mg/dL
   96 mEq/L
   141 mEq/L
   40.6 %
   9.0 K/uL
        [image002.jpg]
                            [**2141-10-10**]  01:46 PM
                            [**2141-10-10**]  03:36 PM
                            [**2141-10-10**]  03:42 PM
                            [**2141-10-10**]  05:06 PM
                            [**2141-10-10**]  10:00 PM
                            [**2141-10-10**]  11:04 PM
                            [**2141-10-11**]  03:06 AM
                            [**2141-10-11**]  03:16 AM
                            [**2141-10-11**]  06:34 AM
                            [**2141-10-11**]  08:21 AM
   WBC
   9.0
   Hct
   40.6
   Plt
   281
   Cr
   1.8
   2.1
   TCO2
   40
   40
   40
   41
   39
   39
   38
   37
   Glucose
   179
   137
   Other labs: PT / PTT / INR:21.2/27.6/2.0, CK / CKMB /
   Troponin-T:172/6/0.03, Lactic Acid:0.9 mmol/L, LDH:201 IU/L, Ca++:9.6
   mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  Increasing
   creatinine.  High peep may be playing a role in altering hemodynamics.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])  Try and drop peep.
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY/? LE cellulitis:   Holding unasyn.
 RESPIRATORY FAILURE, CHRONIC
   Still grossly fluid overloaded,  CVP very high, likely due to very high
   PEEP.  Will need to more agressively diuresis and drop peep.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-11**] 02:37 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-8**] 03:00 PM
   Multi Lumen - [**2141-10-11**] 12:00 AM
   20 Gauge - [**2141-10-11**] 08:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-10-12 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PEEP [**Month (only) 38**] to 18 with good ABG; weaning FiO2 to 50%
   - In morning, desatting to 89-90, increased fentanyl drips
   - urine lytes - pre-renal, no eos
   - good diuresis, ignoring rising creatinine
   - concentrated gtts
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-10**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-11**] 11:58 AM
   Heparin Sodium (Prophylaxis) - [**2141-10-12**] 12:06 AM
   Midazolam (Versed) - [**2141-10-12**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-12**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 71 (65 - 109) bpm
   BP: 125/76(89) {92/56(69) - 129/90(102)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 94% (92-95%)
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 34)mmHg
   Total In:
                                                                  2,001 mL
                                                                    466 mL
   PO:
   TF:
                                                                    683 mL
                                                                    224 mL
   IVF:
                                                                    859 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  3,239 mL
                                                                    770 mL
   Urine:
                                                                  3,239 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,238 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 530) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 35.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/53/67/37/12
   Ve: 8.4 L/min
   PaO2 / FiO2: 134
   Physical Examination
   Gen: Sedated, not responding to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r, exam limited by body
   habitus
   CV: RRR, distant heart sounds, no appreciable murmur
   Abdominal: Obese, active bowel tones, thickened skin/subcutaneous
   concerning for possible edema, unable to palpate a mass, grimaces and
   moves on response
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l, but improved over previous days
   Neuro/Psych: Sedated, unable to assess more fully, but moving all 4
   extremities.
   Labs / Radiology
   218 K/uL
   11.2 g/dL
   157 mg/dL
   2.3 mg/dL
   37 mEq/L
   3.8 mEq/L
   56 mg/dL
   98 mEq/L
   142 mEq/L
   36.6 %
   6.3 K/uL
        [image002.jpg]
                            [**2141-10-11**]  03:06 AM
                            [**2141-10-11**]  03:16 AM
                            [**2141-10-11**]  06:34 AM
                            [**2141-10-11**]  08:21 AM
                            [**2141-10-11**]  02:07 PM
                            [**2141-10-11**]  02:23 PM
                            [**2141-10-11**]  06:00 PM
                            [**2141-10-11**]  08:20 PM
                            [**2141-10-12**]  02:45 AM
                            [**2141-10-12**]  02:56 AM
   WBC
   9.0
   6.3
   Hct
   40.6
   36.6
   Plt
   281
   218
   Cr
   2.1
   2.3
   2.3
   TCO2
   39
   38
   37
   39
   37
   37
   40
   Glucose
   137
   147
   157
   Other labs: PT / PTT / INR:21.9/32.8/2.1, CK / CKMB /
   Troponin-T:172/6/0.03, Lactic Acid:1.1 mmol/L, LDH:201 IU/L, Ca++:9.3
   mg/dL, Mg++:2.6 mg/dL, PO4:5.5 mg/dL.
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely multifactorial in the setting of heart
   failure, pulmonary HTN, OSA and morbid obesity.  Initial presentation
   may have been [**1-14**] decompensated heart failure from dietery
   noncompliance (sardines) and beta adrenergic stimuli [**1-14**] cocaine use.
   This likely led to pulmonary edema [**1-14**] fluid retention with resultant
   hypercarbia.  Acute decompensation may have occured [**1-14**] agitation,
   rapid breathing and then body positioning (leaning forward with
   decreased chest wall compliance).  Oxygenation has been difficult.   Pt
   is better ventilated artificially than he normally would without
   assistance due to his chronic hypoventilation.   Was previously on
   settings of Vt 430x~ 14/min, with PEEP of 26, weaned down, now
   oxygenating at 90% with PEEP of 18, suggesting he is at threshold for
   tolerable PEEP.
   - Changed to pressure support 12, with 18 of PEEP.
   - Continue Fentanyl/Midazolam for sedation
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decrease compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Trying to wean peep
   - Daily sedation holidays as able
   - Diurese, goal today max of 1L, as BP tolerates:  Decrease Lasix drip
   to 4 mg /hour.  NOTE will need to closely follow UOP.
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation, with
   evidence of metabolic compensation.  Will manage as above.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 1.6.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Will need gentle diuresis for respiratory issues.
   - Decrease furosemide to 4 mg/hour, continu to monitor fluid status
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.
   -Tolerating labetalol
   - Continue aspirin
   .
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.   Iron study labs not conclusive, with low
   reticulocyte count suggesting mild production problem.  [**Name (NI) 60**] be mild
   iron deficiency with superimposed elevated ferritin as an acute phase
   reactant.  Patient is not hemolyzing per labs.   Pt still has not
   stooled.
   - Guaiac stools x 3
   .
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol
   -Decrease labetalol from 7500 to 5000
   - Labetolol for nonspecific receptor control
   .
   .
   # ?Sinusitis- held Unasyn for renal concerns
   - Following cultures, using afrin and saline.
   - Trending fever curve and WBCs.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been moderately elevated in 130s to 150s
   - ISS
 regimen appropriate.  Consider increasing if continues to
   increase
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   -Confirm nutrition plan.
   .
   PPX: Heparin SQ, PPI, bowel regimen
   .
   Access: PIVs, A-line, central line
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-12**] 05:09 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-8**] 03:00 PM
   Multi Lumen - [**2141-10-11**] 12:00 AM
   20 Gauge - [**2141-10-11**] 08:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-13 05:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt could not tolerate PS, put back on AC
   Family meeting last night with Dr. [**Last Name (STitle) 33**] and SW
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-10**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-12**] 10:00 AM
   Fentanyl - [**2141-10-12**] 10:00 AM
   Pantoprazole (Protonix) - [**2141-10-12**] 12:20 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-13**] 05:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 77 (72 - 86) bpm
   BP: 119/69(82) {109/63(76) - 138/84(99)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 28)mmHg
   Total In:
                                                                  1,933 mL
                                                                    296 mL
   PO:
   TF:
                                                                    865 mL
                                                                    179 mL
   IVF:
                                                                    573 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    720 mL
   Urine:
                                                                  3,290 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,357 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 321 (308 - 321) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 34 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/71/108/37/12
   Ve: 7.6 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Gen: Sedated, not responding to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r, exam limited by body
   habitus
   CV: RRR, distant heart sounds, no appreciable murmur
   Abdominal: Obese, active bowel tones, thickened skin/subcutaneous
   concerning for possible edema, unable to palpate a mass, grimaces and
   moves on response
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l, but improved over previous days
   Neuro/Psych: Sedated, unable to assess more fully, but moving all 4
   extremities.
   Labs / Radiology
   226 K/uL
   11.0 g/dL
   111 mg/dL
   2.0 mg/dL
   37 mEq/L
   3.7 mEq/L
   52 mg/dL
   100 mEq/L
   145 mEq/L
   36.4 %
   6.3 K/uL
        [image002.jpg]
                            [**2141-10-11**]  02:07 PM
                            [**2141-10-11**]  02:23 PM
                            [**2141-10-11**]  06:00 PM
                            [**2141-10-11**]  08:20 PM
                            [**2141-10-12**]  02:45 AM
                            [**2141-10-12**]  02:56 AM
                            [**2141-10-12**]  08:49 AM
                            [**2141-10-12**]  02:06 PM
                            [**2141-10-13**]  02:03 AM
                            [**2141-10-13**]  02:22 AM
   WBC
   6.3
   6.3
   Hct
   36.6
   36.4
   Plt
   218
   226
   Cr
   2.3
   2.3
   2.0
   TCO2
   39
   37
   37
   40
   41
   40
   43
   Glucose
   147
   157
   111
   Other labs: PT / PTT / INR:19.0/29.9/1.8, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely multifactorial in the setting of heart
   failure, pulmonary HTN, OSA and morbid obesity.  Initial presentation
   may have been [**1-14**] decompensated heart failure from dietery
   noncompliance (sardines) and beta adrenergic stimuli [**1-14**] cocaine use.
   This likely led to pulmonary edema [**1-14**] fluid retention with resultant
   hypercarbia.  Acute decompensation may have occured [**1-14**] agitation,
   rapid breathing and then body positioning (leaning forward with
   decreased chest wall compliance).  Oxygenation has been difficult.   Pt
   is better ventilated artificially than he normally would without
   assistance due to his chronic hypoventilation.   Was previously on
   settings of Vt 430x~ 14/min, with PEEP of 26, weaned down, now
   oxygenating at 90% with PEEP of 18, suggesting he is at threshold for
   tolerable PEEP.
   - Changed to pressure support 12, with 18 of PEEP.
   - Continue Fentanyl/Midazolam for sedation
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decrease compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Trying to wean peep
   - Daily sedation holidays as able
   - Diurese, goal today max of 1L, as BP tolerates:  Decrease Lasix drip
   to 4 mg /hour.  NOTE will need to closely follow UOP.
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation, with
   evidence of metabolic compensation.  Will manage as above.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 1.6.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Will need gentle diuresis for respiratory issues.
   - Decrease furosemide to 4 mg/hour, continu to monitor fluid status
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.
   -Tolerating labetalol
   - Continue aspirin
   .
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.   Iron study labs not conclusive, with low
   reticulocyte count suggesting mild production problem.  [**Name (NI) 60**] be mild
   iron deficiency with superimposed elevated ferritin as an acute phase
   reactant.  Patient is not hemolyzing per labs.   Pt still has not
   stooled.
   - Guaiac stools x 3
   .
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol
   -Decrease labetalol from 7500 to 5000
   - Labetolol for nonspecific receptor control
   .
   .
   # ?Sinusitis- held Unasyn for renal concerns
   - Following cultures, using afrin and saline.
   - Trending fever curve and WBCs.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been moderately elevated in 130s to 150s
   - ISS
 regimen appropriate.  Consider increasing if continues to
   increase
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   -Confirm nutrition plan.
   .
   PPX: Heparin SQ, PPI, bowel regimen
   .
   Access: PIVs, A-line, central line
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-12**] 05:09 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-8**] 03:00 PM
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-14 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tolerated CPAP well
   - Diuresed and pressures remained adequate, with creatinine trending
   down to 1.8
   - Brisk right nasal bleeding, stopped with oxymetazoline and packing
 ARTERIAL LINE - STOP [**2141-10-13**] 11:00 PM
 ARTERIAL LINE - START [**2141-10-14**] 01:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-14**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 71 (68 - 89) bpm
   BP: 109/66(78) {102/64(75) - 150/92(109)} mmHg
   RR: 16 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 21 (15 - 23)mmHg
   Total In:
                                                                  1,833 mL
                                                                    327 mL
   PO:
   TF:
                                                                    841 mL
                                                                    194 mL
   IVF:
                                                                    562 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                    880 mL
   Urine:
                                                                  3,105 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 573 (489 - 597) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 37 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/55/123/37/13
   Ve: 9.4 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Gen: Sedated, occasionally responds to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated.
   Oozing from nose decreased.
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r, exam limited by body
   habitus
   CV: distant heart sounds, no appreciable murmur.
   Abdominal: Obese, active bowel tones, decreased edema, unable to
   palpate a mass, grimaces and moves on response
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l, but improved over previous days
   Neuro/Psych: Sedated, unable to assess more fully, but moving all 4
   extremities.
   Labs / Radiology
   229 K/uL
   10.6 g/dL
   150 mg/dL
   1.8 mg/dL
   37 mEq/L
   4.1 mEq/L
   45 mg/dL
   103 mEq/L
   146 mEq/L
   34.6 %
   7.6 K/uL
        [image002.jpg]
                            [**2141-10-12**]  02:56 AM
                            [**2141-10-12**]  08:49 AM
                            [**2141-10-12**]  02:06 PM
                            [**2141-10-13**]  02:03 AM
                            [**2141-10-13**]  02:22 AM
                            [**2141-10-13**]  10:02 AM
                            [**2141-10-13**]  03:35 PM
                            [**2141-10-13**]  03:53 PM
                             [**2141-10-14**]  03:20 AM
                             [**2141-10-14**]  03:35 AM
   WBC
   6.3
   7.6
   Hct
   36.4
   34.6
   Plt
   226
   229
   Cr
   2.0
   1.8
   1.8
   TCO2
   40
   41
   40
   43
   40
   41
   40
   Glucose
   111
   134
   132
   125
   150
   Other labs: PT / PTT / INR:19.0/29.9/1.8, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely multifactorial in the setting of heart
   failure, pulmonary HTN, OSA and morbid obesity.  Initial presentation
   may have been [**1-14**] decompensated heart failure from dietery
   noncompliance (sardines) and beta adrenergic stimuli [**1-14**] cocaine use.
   This likely led to pulmonary edema [**1-14**] fluid retention with resultant
   hypercarbia.  Acute decompensation may have occured [**1-14**] agitation,
   rapid breathing and then body positioning (leaning forward with
   decreased chest wall compliance).  Oxygenation and ventilation both
   improving with diuresis, and creatinine decreasing, suggesting patient
   has improved cardiac output due to moving on Starling curve.  Weaned
   from AC, now on PSV, with gradually decreasing PEEP.
   - Continue weaning PEEP and ventilation as diuresis continues.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able
   - Diurese, goal today max of 2L, as BP tolerates:  NOTE will need to
   closely follow UOP.
   -PM lytes
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation, with
   evidence of metabolic compensation.  Will manage as above.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Decrease in creatinine with further diuresis encouraging sign,
   suggesting improving cardiac output.
   - Continue Lasix as above to goal of -2L/day
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE
   -Tolerating labetalol
   - Continue aspirin
   -As diuresis continues, can consider amlodipine for afterload reduction
   if pressures can tolerate it.
   .
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.   Iron study labs not conclusive, with low
   reticulocyte count suggesting mild production problem.  [**Name (NI) 60**] be mild
   iron deficiency with superimposed elevated ferritin as an acute phase
   reactant.  Patient is not hemolyzing per labs.   First Guiaic negative.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol
   -Heparin has been decreased.
   - Labetolol for nonspecific receptor control
   # ?Sinusitis- held Unasyn for renal concerns.
   -Continue oxymetazoline and packing if necessary
   - Trending fever curve and WBCs.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been moderately elevated in 130s to 150s
   - ISS
 regimen appropriate.  Consider increasing if continues to
   increase
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, PPI, bowel regimen
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-14**] 05:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Agree with above MS4 note.
   Weaning ventilator requirements with diuresis and renal function also
   improving with volume off-loading.
   Plan to continue diuresis today with goal I/O -2L; will increase lasix
   gtt and check [**Hospital1 **] lytes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 809**] [**Last Name (NamePattern1) 6277**], MD
   on:[**2141-10-14**] 14:02 ------

2141-10-14 11:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with obesity hypoventilation, CHF, DM II.  with respiratory
   failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-10-13**] 11:00 PM
 ARTERIAL LINE - START [**2141-10-14**] 01:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-14**] 08:36 AM
   Other medications:
   protonix
   aldactone
   albuterol/atrovent
   allopurinol
   lipitor
   asa
   lantis, SSI
   chlorhex
   labetolol
   bactroban
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-14**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (66 - 89) bpm
   BP: 104/61(73) {102/61(73) - 124/76(90)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 19 (15 - 23)mmHg
   Total In:
                                                                  1,833 mL
                                                                    799 mL
   PO:
   TF:
                                                                    841 mL
                                                                    385 mL
   IVF:
                                                                    562 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                  1,587 mL
   Urine:
                                                                  3,105 mL
                                                                  1,587 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -788 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 656 (489 - 656) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: 7.48/49/125/37/12
   Ve: 8.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   229 K/uL
   150 mg/dL
   1.8 mg/dL
   37 mEq/L
   4.1 mEq/L
   45 mg/dL
   103 mEq/L
   146 mEq/L
   34.6 %
   7.6 K/uL
        [image002.jpg]
                            [**2141-10-12**]  08:49 AM
                            [**2141-10-12**]  02:06 PM
                            [**2141-10-13**]  02:03 AM
                            [**2141-10-13**]  02:22 AM
                            [**2141-10-13**]  10:02 AM
                            [**2141-10-13**]  03:35 PM
                            [**2141-10-13**]  03:53 PM
                             [**2141-10-14**]  03:20 AM
                             [**2141-10-14**]  03:35 AM
                             [**2141-10-14**]  08:39 AM
   WBC
   6.3
   7.6
   Hct
   36.4
   34.6
   Plt
   226
   229
   Cr
   2.0
   1.8
   1.8
   TCO2
   41
   40
   43
   40
   41
   40
   38
   Glucose
   111
   134
   132
   125
   150
   Other labs: PT / PTT / INR:19.0/29.9/1.8, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Acute on chronic Respiratory failure:  Obesity hypoventilation, CHF,
   pulmonary HTN,  fluid overload.  Slow improvement in ventilatory
   status.  Continue weaning PS and PEEP.
   Acute renal failure:  Improved creatinine and U/O
   Acute on chronic systolic heart failure, right heart failure:  Goal 2L
   per day diuresis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-14**] 08:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-10-15 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   I/O goal -2L
   Decreased FIO2 to 40%
   Brisk nose bleed that stopped with pressure & afrin wash.  Nurse noted
   to suction clots of out mouth and hematuria.
   Febrile to 101.1 this AM.  Pancultured, CXR obtained.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-15**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-15**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 88 (65 - 92) bpm
   BP: 133/83(97) {103/60(72) - 141/84(101)} mmHg
   RR: 17 (7 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 23 (15 - 23)mmHg
   Total In:
                                                                  1,679 mL
                                                                    309 mL
   PO:
   TF:
                                                                    840 mL
                                                                    201 mL
   IVF:
                                                                    589 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  3,997 mL
                                                                    810 mL
   Urine:
                                                                  3,997 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,318 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 576 (476 - 656) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 96%
   ABG: 7.41/58/95.[**Numeric Identifier 607**]/36/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: Sedated, occasionally responds to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated.
   Oozing from nose decreased.
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r, exam limited by body
   habitus
   CV: distant heart sounds, no appreciable murmur.
   Abdominal: Obese, active bowel tones, decreased edema, unable to
   palpate a mass, grimaces and moves on response
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l, but improved over previous days
   Neuro/Psych: Sedated, unable to assess more fully, but moving all 4
   extremities.
   Labs / Radiology
   252 K/uL
   10.5 g/dL
   134 mg/dL
   1.8 mg/dL
   36 mEq/L
   4.5 mEq/L
   44 mg/dL
   103 mEq/L
   148 mEq/L
   35.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2141-10-13**]  03:35 PM
                            [**2141-10-13**]  03:53 PM
                             [**2141-10-14**]  03:20 AM
                             [**2141-10-14**]  03:35 AM
                             [**2141-10-14**]  08:39 AM
                             [**2141-10-14**]  12:23 PM
                             [**2141-10-14**]  03:58 PM
                             [**2141-10-14**]  04:28 PM
                             [**2141-10-15**]  03:00 AM
                             [**2141-10-15**]  03:13 AM
   WBC
   7.6
   7.9
   Hct
   34.6
   35.1
   Plt
   229
   252
   Cr
   1.8
   1.8
   1.9
   1.8
   TCO2
   41
   40
   38
   39
   42
   38
   Glucose
   132
   125
   150
   138
   128
   134
   Other labs: PT / PTT / INR:18.4/28.6/1.7, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Oxygenation and ventilation both improving with
   diuresis, and creatinine decreasing, suggesting patient has improved
   cardiac output due to moving on Starling curve.  Weaned from AC, now on
   PSV, with gradually decreasing PEEP.
   - Continue weaning PEEP and ventilation as diuresis continues.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able
   - Diurese, goal today max of 2L, as BP tolerates:  NOTE will need to
   closely follow UOP.
   -PM lytes
   .
   # Fever: Possible etiologies are VAP, urinary tract infection, blood
   infection, drug effect.  CXR without clear infiltrate; however lungs
   are better visualized due to increased lung volumes.  Significant
   pulmonary edema.
   - f/u cultures of sputum, blood, urine
   - Tylenol PRN
   - continue to trend fever curve
 will hold off on abx for now unless
   clinical picture worsens or fevers persist
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  No systemic anticoagulation; however INR is 1.7 from
   prior Coumadin use.  Pt is getting SC heparin for DVT prophylaxis. No
   elevation in PTT.
   - continue to monitor HCT and bleeding
   .
   # Respiratory Acidosis: Likely [**1-14**] chronic hypoventilation, with
   evidence of metabolic compensation.  Will manage as above.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Decrease in creatinine with further diuresis encouraging sign,
   suggesting improving cardiac output.  Currently creatinine 1.8.
   - Continue Lasix as above to goal of -2L/day
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%.
   -Tolerating labetalol, will titrate up.
   - Continue aspirin
   - Will use Losartan, starting tomorrow.  Pt received Amlodipine today
   already but would not continue this medication as problem is diastolic,
   not systolic dysfunction and would not benefit from afterload
   reduction.
   .
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   .
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.   Iron study labs not conclusive, with low
   reticulocyte count suggesting mild production problem.  [**Name (NI) 60**] be mild
   iron deficiency with superimposed elevated ferritin as an acute phase
   reactant.  Patient is not hemolyzing per labs.   First Guiaic negative.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # ?Sinusitis- held Unasyn for renal concerns.  Sinusitis appears
   improved.
   -Continue oxymetazoline and packing if necessary
   - Trending fever curve and WBCs.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been moderately elevated in 130s to 150s
   - ISS
 regimen appropriate.  Consider increasing if continues to
   increase
   - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, PPI, bowel regimen
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-14**] 08:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-15 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with respiratory failure, morbid obesity, pulmonary HTN,
   obesity-hypoventilation syndrome.
   24 Hour Events:
   Febrile this morning.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-10-15**] 08:00 AM
   Other medications:
   SSI
   aldactone
   albuterol
   atroven
   allopurnol
   lipitor
   asa
   lantis 25U at night
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-15**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.7
   HR: 88 (71 - 93) bpm
   BP: 133/68(86) {106/62(74) - 145/84(101)} mmHg
   RR: 18 (7 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 19 (14 - 23)mmHg
   Total In:
                                                                  1,685 mL
                                                                    762 mL
   PO:
   TF:
                                                                    846 mL
                                                                    392 mL
   IVF:
                                                                    589 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  3,997 mL
                                                                  2,210 mL
   Urine:
                                                                  3,997 mL
                                                                  2,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,312 mL
                                                                 -1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 566 (476 - 576) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 99%
   ABG: 7.41/56/65/36/8
   Ve: 8.9 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   252 K/uL
   134 mg/dL
   1.8 mg/dL
   36 mEq/L
   4.5 mEq/L
   44 mg/dL
   103 mEq/L
   148 mEq/L
   35.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2141-10-13**]  03:53 PM
                             [**2141-10-14**]  03:20 AM
                             [**2141-10-14**]  03:35 AM
                             [**2141-10-14**]  08:39 AM
                             [**2141-10-14**]  12:23 PM
                             [**2141-10-14**]  03:58 PM
                             [**2141-10-14**]  04:28 PM
                             [**2141-10-15**]  03:00 AM
                             [**2141-10-15**]  03:13 AM
                             [**2141-10-15**]  08:38 AM
   WBC
   7.6
   7.9
   Hct
   34.6
   35.1
   Plt
   229
   252
   Cr
   1.8
   1.9
   1.8
   TCO2
   41
   40
   38
   39
   42
   38
   37
   Glucose
   125
   150
   138
   128
   134
   Other labs: PT / PTT / INR:18.4/28.6/1.7, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Lactic Acid:1.1 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Steady improvement.
   Continue to diurese and wean peep as tolerated.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Improved creatinine
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O DIABETES MELLITUS (DM), TYPE II
   Atrial Fibrillation:  Would benefit from anticoagulation at some
   point.  But given hematuria and nose bleeding will hold off for now.
   Fever:  new fever, follow up cultures.
 IMPAIRED SKIN INTEGRITY:  Much improved LE cellulitis.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-15**] 08:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-10-16 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Negative 2L
   Lasix drip stopped around 5pm for hypotension, bump in Cr to 2.0
   Febrile to101.1 during the day, acetaminophen x2
   Mild bleeding from R nostril again
 PAN CULTURE - At [**2141-10-15**] 08:30 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-10-15**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-16**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 84 (74 - 93) bpm
   BP: 121/66(82) {99/61(72) - 145/82(98)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 23 (14 - 28)mmHg
   Total In:
                                                                  1,616 mL
                                                                    311 mL
   PO:
   TF:
                                                                    843 mL
                                                                    194 mL
   IVF:
                                                                    543 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  3,820 mL
                                                                  1,090 mL
   Urine:
                                                                  3,820 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,204 mL
                                                                   -779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (524 - 633) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 100%
   ABG: 7.44/48/81.[**Numeric Identifier 253**]/35/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Gen: Sedated, occasionally responds to loud voice
   HEENT: Symmetric, no abrasions or trauma, PERRL, 2mm, intubated.
   Oozing from nose.  Proptosis decreased
   Pulm: CTAB anteriorly and in axilla b/l no w/r/r, exam limited by body
   habitus
   CV: distant heart sounds, no appreciable murmur.
   Abdominal: Obese, active bowel tones, decreased edema, no palpable
   masses, moves in response
   Extremities: LE with 2-3+ edema to thigh, chronic venous stasis changes
   with erythema b/l, but improved over previous days
   Neuro/Psych: Sedated, unable to assess more fully, but moving all 4
   extremities.
   Labs / Radiology
   233 K/uL
   10.8 g/dL
   162 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.4 mEq/L
   46 mg/dL
   106 mEq/L
   146 mEq/L
   36.3 %
   12.1 K/uL
        [image002.jpg]
   Micro- urine cx final
 none
              Blood cx- pending
                             [**2141-10-14**]  12:23 PM
                             [**2141-10-14**]  03:58 PM
                             [**2141-10-14**]  04:28 PM
                             [**2141-10-15**]  03:00 AM
                             [**2141-10-15**]  03:13 AM
                             [**2141-10-15**]  08:38 AM
                             [**2141-10-15**]  01:24 PM
                             [**2141-10-15**]  04:42 PM
                             [**2141-10-16**]  03:13 AM
                             [**2141-10-16**]  03:33 AM
   WBC
   7.9
   12.1
   Hct
   35.1
   36.3
   Plt
   252
   233
   Cr
   1.9
   1.8
   2.0
   1.8
   TCO2
   39
   42
   38
   37
   37
   34
   Glucose
   138
   128
   134
   158
   162
   Other labs: PT / PTT / INR:17.0/26.4/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Differential-Neuts:85.7 %, Lymph:7.1 %, Mono:4.6 %, Eos:2.5 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:10.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Likely due to morbid obesity and diastolic heart
   failure, patient positive many liters. Oxygenation and ventilation both
   improving with diuresis, creatinine increased briefly but has again
   decreased, likely due to improvement in cardiac hemodynamics.  Weaned
   from AC, now on PSV, with gradually decreasing PEEP.  Patient likely
   suffers from respiratory acidosis with metabolic compensation on
   chronic basis.
   - Continue weaning PEEP by 1 mm Hg as diuresis continues.
   -Diurese 1.5-2 L as tolerated.  Likely transition to Lasix boluses
   tomorrow.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   -wean PEEP by 1
   - Daily sedation holidays as able
   # Fever:  Today is febrile with white count.  Possible etiologies are
   VAP, sinusitis, line infections, with urinary tract infection, skin
   infection at penile tip, and drug effect less likely.  CXR appears to
   be improving, but imaging is poor and significant edema remains
   - f/u cultures of sputum, blood, urine
   -C. diff toxin
   - Tylenol PRN
   - continue to trend WBC, fever curve
   -vancomycin/Unasyn
 vancomycin for prolonged hospitalization and
   potential line infection/ventilator associated pneumonia.  Unasyn to
   cover sinusitis and some GNRs.  If patient worsens, new infiltrate on
   CXR, or positive sputum cx, consider switching to Zosyn.
   #Sinusitis-improving, Unasyn as above
   -Continue oxymetazoline and packing if necessary
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM, likely due to Foley trauma.  No systemic
   anticoagulation; however INR is 1.5 from prior Coumadin use.  Pt is
   getting SC heparin for DVT prophylaxis.  [**Month (only) 60**] need lines replaced and
   new lines placed [**1-14**] infection, so will not be heparinized at this time
   - continue to monitor HCT and bleeding
   - hold on heparinization for now
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Decrease in creatinine with further diuresis encouraging sign,
   suggesting improving cardiac output.  Currently creatinine 1.8.
   - Continue Lasix as above to goal of -2L/day
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%.  Afterload reduction less important in this patient, as most of
   patient
s failure is diastolic dysfunction.
   -Tolerating labetalol, will titrate up.
   - Continue aspirin
   -Given slight increase in creatinine and continuing aggressive
   diuresis, hold on [**Last Name (un) 239**].
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Bacterial cellulitis very unlikely, as legs are
   improving, symmetric, and edema improving.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # Normocytic Anemia:  Seemingly a chronic issue, with slight downward
   trend since admission.   Iron study labs not conclusive, with low
   reticulocyte count suggesting mild production problem.  [**Name (NI) 60**] be mild
   iron deficiency with superimposed elevated ferritin as an acute phase
   reactant.  Patient is not hemolyzing per labs.   First Guiaic negative.
   # DM: On Insulin as outpatient.
   - QID FS
 which have been moderately elevated in 130s to 150s
   - ISS
 regimen appropriate.  Consider increasing if continues to
   increase
   - DM TF while intubated
   # HTN: Currently normotensive.  Initially hypertensiven then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   # Hypercholesterolemia: Stable, continue Lipitor
   # Gout: Stable, continue Allopurinol
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   -Nutrition consult post-ventilation
   PPX: Heparin SQ, PPI, bowel regimen
   Access: PIVs, A-line replaced, central line.  Oozing decreased.  [**Month (only) 60**]
   need to pull lines, get PICC line placed
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-15**] 08:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-17 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt was being weaned, but started to desat with PEEP of 13.  PEEP
   increased to 14, then 16.  Was satting well, then rolled to R side, and
   O2 sat dropped to mid 80s.  Following recruiting maneuvers, stabilized
   with PSV of 16/18
   - F/u cultures
   - diuresis 1.5 to 2 liters
   - Became hypernatremic, and free water TF flushes increased to 200cc
   from 50cc.  Regurgitating some tube feeds and flushes.
   -Had another nose bleed with rolling.  Nurse suggests he has swallowed
   fair amount of blood.
   - Continued Vanc and Unasyn for fever and leukocytosis.
   - Spiked at 4am to 102, and was recultured.
   - [**Month (only) 60**] need left subclavian if cultures are blood cultures are positive
   with current line.
 BLOOD CULTURED - At [**2141-10-16**] 11:52 AM
 STOOL CULTURE - At [**2141-10-16**] 11:52 AM
 BLOOD CULTURED - At [**2141-10-17**] 02:30 AM
 URINE CULTURE - At [**2141-10-17**] 06:07 AM
 FEVER - 102.4
F - [**2141-10-17**] 03:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-16**] 03:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-17**] 04:56 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-17**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-17**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.9
C (102
   HR: 91 (80 - 106) bpm
   BP: 110/65(78) {105/62(74) - 163/92(111)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 305 (21 - 314)mmHg
   Total In:
                                                                  1,991 mL
                                                                    540 mL
   PO:
   TF:
                                                                    841 mL
                                                                    197 mL
   IVF:
                                                                    870 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                  1,050 mL
   Urine:
                                                                  3,470 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,479 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (404 - 638) mL
   PS : 14 cmH2O
   RR (Spontaneous): 12
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 94%
   ABG: 7.36/64/82.[**Numeric Identifier 96**]/36/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, Movement: spontaneous movement, Tone:
   Normal
   Labs / Radiology
   242 K/uL
   10.1 g/dL
   172
   1.9 mg/dL
   36 mEq/L
   4.8 mEq/L
   46 mg/dL
   108 mEq/L
   150 mEq/L
   33.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2141-10-15**]  04:42 PM
                             [**2141-10-16**]  03:13 AM
                             [**2141-10-16**]  03:33 AM
                             [**2141-10-16**]  06:18 PM
                             [**2141-10-16**]  06:21 PM
                             [**2141-10-16**]  10:04 PM
                             [**2141-10-17**]  12:17 AM
                             [**2141-10-17**]  02:26 AM
                             [**2141-10-17**]  02:46 AM
                             [**2141-10-17**]  04:00 AM
   WBC
   12.1
   13.7
   Hct
   36.3
   33.7
   Plt
   233
   242
   Cr
   2.0
   1.8
   1.8
   1.9
   TCO2
   34
   36
   36
   37
   38
   Glucose
   158
   162
   194
   167
   172
   Other labs: PT / PTT / INR:16.8/26.4/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:23/29, Alk Phos / T Bili:211/0.9,
   Differential-Neuts:85.7 %, Lymph:7.1 %, Mono:4.6 %, Eos:2.5 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.4 g/dL, LDH:167 IU/L, Ca++:10.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   .
   #Respiratory failure:  Patient had mild setback yesterday, with
   worsening oxygenation.  Patient improved with increase in PEEP, but
   should continue weaning.  Continued diuresis also important.  Weaned
   from AC to PSV, with gradually decreasing PEEP.  Pt not eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement
   - Continue weaning PEEP and ventilation as diuresis continues.
   -Goal of 1.5-2L per day
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able
   - Diurese, goal today max of 1.5-2L, as BP and creatinine tolerate:
   NOTE will need to closely follow UOP.
   -PM lytes
   .
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Started PO Flagyl.  Bowel involvement and ileus may be
   responsible for regurgitation.  Other possible etiologies are VAP,
   urinary tract infection, blood infection, drug effect.
   - f/u cultures of sputum, blood, urine.  If cx are negative, d/c
   vanc/Unasyn
   - Tylenol PRN
   - continue to trend fever curve
 will hold off on abx for now unless
   clinical picture worsens or fevers persist
   -may need an enema today
   Hypernatremia- Lasix, by  acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue free water tube feeds
   -re-check sodium in PM.  If 155 or greater, begin D5W drips.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT prophylaxis.
   No elevation in PTT.
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   ..
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Decrease in creatinine with further diuresis encouraging sign,
   suggesting improving cardiac output.  Currently creatinine 1.9.
   - Continue Lasix as above to goal of -2L/day
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.
   -Tolerating labetalol, will titrate up.  Reasonably well-controlled
   currently.
   - Continue aspirin
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient.  If patient requires D5W, will make
   glycemic control more complicated.
   - QID FS
 which have been moderately elevated in 130s to 150s.
   - ISS
 Increased Lantus - DM TF while intubated
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-18 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2141-10-18**] 12:00 AM
   - Decreased PEEP by 1
   - Enema & stooled many hours later - large liquid bm, but decreased
   stool since then
   -Tube was mal-positioned on film, was repositioned yesterday.
   - PO vanc started
   - flexiseal placed
   - fever to 103
   - repeat nose bleed associated with brief sat drop
   - Evening Na came back at 150, started on D5W at 100 mL /hour
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-18**] 03:32 AM
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-18**] 04:32 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-18**] 02:00 AM
   Fentanyl - [**2141-10-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-18**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.6
C (101.5
   HR: 99 (83 - 106) bpm
   BP: 148/89(106) {101/57(70) - 158/95(113)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 29 (29 - 35)mmHg
   Total In:
                                                                  2,669 mL
                                                                  1,383 mL
   PO:
   TF:
                                                                  1,150 mL
                                                                     33 mL
   IVF:
                                                                  1,179 mL
                                                                    890 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                    935 mL
   Urine:
                                                                  4,005 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,336 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (321 - 569) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 17 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 92%
   ABG: 7.36/63/91/37/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, Movement: spontaneous movement, Tone:
   Normal
   Labs / Radiology
   235 K/uL
   9.6 g/dL
   161 mg/dL
   2.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   45 mg/dL
   105 mEq/L
   148 mEq/L
   32.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2141-10-16**]  06:18 PM
                             [**2141-10-16**]  06:21 PM
                             [**2141-10-16**]  10:04 PM
                             [**2141-10-17**]  12:17 AM
                             [**2141-10-17**]  02:26 AM
                             [**2141-10-17**]  02:46 AM
                             [**2141-10-17**]  04:00 AM
                             [**2141-10-17**]  03:20 PM
                             [**2141-10-17**]  11:00 PM
                             [**2141-10-18**]  03:14 AM
   WBC
   13.7
   11.5
   Hct
   33.7
   32.6
   Plt
   242
   235
   Cr
   1.8
   1.9
   2.0
   2.1
   TCO2
   36
   36
   37
   38
   37
   Glucose
   194
   167
   172
   124
   161
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:85.7 %, Lymph:7.1 %, Mono:4.6 %, Eos:2.5 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Switched to IV Flagyl, PO vancomycin, PR vancomycin.
   Patient at risk for severe infection.   CT imaging is indicated to
   evaluate degree of disease and other intra-abdominal pathology, but
   patient may not be candidate for CT given size, and portable xray
   machine does not have radiation necessary to penetrate patient
   abdomen sufficiently for KUB.  Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.
   -ID approval for PR vanco
   -d/c vancomycin/Unasyn
   -CT contrast with PO but no IV contrast, ask CT services to measure his
   abdominal girth to see if he can fit inside machine.
   - Tylenol PRN
   #Respiratory failure:  Patient  had PEEP increased, and is now weaning
   down again. Although continued diuresis is important, given infection
   and creatinine bump, should hold Lasix for now.  Pt not eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement
   - Continue weaning PEEP and ventilation as diuresis continues.
   -Hold Lasix drip for now, consider restarting after PM lytes and
   improving renal function
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Has bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection.
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue D5W drip, check PM lytes, and if Na less than or equal to
   140, d/c free water.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT prophylaxis.
   -Continue packing sinuses with oxymetazoline soaked gauze..
   -d/c ASA [**1-14**] bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - d/c ASA [**1-14**] bleeding
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -Insulin drip
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-18**] 04:00 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-19 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Treating for C.Diff with PO and PR Vanc, IV Flagyl
   CT abd/pelvis without SBO, ileus, colitis --> pt restarted on tube
   feeds, stopped PR Vanco, restarted colace senna
   ENT consulted for nosebleeds, recommend saline nasal spray 3 sprays
   TID, bactroban ointment
   PEEP decreased to 16 then 15, O2 sats 88-90%
   PM lytes - still hypernatremic but getting TFs, free water boluses
   increased to 250cc q4 hours
 FEVER - 101.3
F - [**2141-10-18**] 08:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-18**] 10:30 AM
   Metronidazole - [**2141-10-18**] 11:00 PM
   Vancomycin - [**2141-10-19**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Insulin - Regular - 7.5 units/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-19**] 12:36 AM
   Fentanyl - [**2141-10-19**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-19**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.9
C (100.2
   HR: 89 (86 - 103) bpm
   BP: 125/73(87) {107/62(76) - 254/251(222)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 30 (16 - 30)mmHg
   Total In:
                                                                  4,685 mL
                                                                  1,196 mL
   PO:
   TF:
                                                                    225 mL
                                                                    197 mL
   IVF:
                                                                  3,290 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    390 mL
   Urine:
                                                                  2,585 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (297 - 361) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 87%
   ABG: 7.36/60/67/35/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, Movement: spontaneous movement, Tone:
   Normal
   Labs / Radiology
   210 K/uL
   9.4 g/dL
   128 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.4 mEq/L
   43 mg/dL
   103 mEq/L
   145 mEq/L
   32.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2141-10-17**]  02:46 AM
                             [**2141-10-17**]  04:00 AM
                             [**2141-10-17**]  03:20 PM
                             [**2141-10-17**]  11:00 PM
                             [**2141-10-18**]  03:14 AM
                             [**2141-10-18**]  11:14 AM
                             [**2141-10-18**]  12:35 PM
                             [**2141-10-18**]  04:10 PM
                             [**2141-10-19**]  02:12 AM
                             [**2141-10-19**]  02:27 AM
   WBC
   11.5
   11.6
   Hct
   32.6
   32.1
   Plt
   235
   210
   Cr
   2.0
   2.1
   1.9
   1.8
   TCO2
   38
   37
   38
   35
   35
   Glucose
   172
   124
   161
   148
   128
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Switched to IV Flagyl, PO vancomycin, PR vancomycin.
   Patient at risk for severe infection.   CT imaging is indicated to
   evaluate degree of disease and other intra-abdominal pathology, but
   patient may not be candidate for CT given size, and portable xray
   machine does not have radiation necessary to penetrate patient
   abdomen sufficiently for KUB.  Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.
   -ID approval for PR vanco
   -d/c vancomycin/Unasyn
   -CT contrast with PO but no IV contrast, ask CT services to measure his
   abdominal girth to see if he can fit inside machine.
   - Tylenol PRN
   #Respiratory failure:  Patient  had PEEP increased, and is now weaning
   down again. Although continued diuresis is important, given infection
   and creatinine bump, should hold Lasix for now.  Pt not eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement
   - Continue weaning PEEP and ventilation as diuresis continues.
   -Hold Lasix drip for now, consider restarting after PM lytes and
   improving renal function
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Has bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection.
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue D5W drip, check PM lytes, and if Na less than or equal to
   140, d/c free water.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT prophylaxis.
   -Continue packing sinuses with oxymetazoline soaked gauze..
   -d/c ASA [**1-14**] bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - d/c ASA [**1-14**] bleeding
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -Insulin drip
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-18**] 04:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-20 05:24:00 Physician Resident Progress Note
Chief Complaint: - Restarted lasix drip with goal of net negative
   balance
   - Poor stooling
   - Necessitated increase of PEEP to 18 due to desaturation.
   - Febrile to 101.6
   - Fluids: -.15L
   24 Hour Events:
 BLOOD CULTURED - At [**2141-10-19**] 08:30 PM
 URINE CULTURE - At [**2141-10-19**] 08:30 PM
 FEVER - 101.6
F - [**2141-10-19**] 08:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-18**] 10:30 AM
   Vancomycin - [**2141-10-19**] 12:20 PM
   Metronidazole - [**2141-10-19**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 4 units/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-19**] 06:18 AM
   Fentanyl - [**2141-10-19**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-20**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.4
C (101.2
   HR: 85 (82 - 102) bpm
   BP: 128/84(96) {105/64(76) - 158/91(110)} mmHg
   RR: 19 (12 - 45) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 17)mmHg
   Total In:
                                                                  3,434 mL
                                                                    640 mL
   PO:
   TF:
                                                                    845 mL
                                                                     90 mL
   IVF:
                                                                  1,179 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    820 mL
   Urine:
                                                                  2,015 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,319 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (299 - 417) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 94%
   ABG: 7.35/59/80.[**Numeric Identifier 248**]/35/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   210 K/uL
   9.4 g/dL
   85 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   42 mg/dL
   103 mEq/L
   145 mEq/L
   32.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2141-10-18**]  04:10 PM
                             [**2141-10-19**]  02:12 AM
                             [**2141-10-19**]  02:27 AM
                             [**2141-10-19**]  08:17 AM
                             [**2141-10-19**]  10:04 AM
                             [**2141-10-19**]  04:27 PM
                             [**2141-10-19**]  04:44 PM
                             [**2141-10-19**]  09:36 PM
                             [**2141-10-20**]  02:03 AM
                             [**2141-10-20**]  04:41 AM
   WBC
   11.6
   Hct
   32.1
   Plt
   210
   Cr
   1.9
   1.8
   1.6
   1.8
   TCO2
   35
   37
   39
   38
   34
   34
   Glucose
   148
   128
   92
   85
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  LFTs significant for mild bump in AST and mild elevation in
   Alk Phos, raising possibility of biliary disease.   Other possible
   etiologies are less likely, include VAP, sinusitis, urinary tract
   infection, blood infection, drug effect.
   -Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Given
   improved renal function and yesterday +2L volume status, will resume
   diuresis.   Pt not eligible for tracheostomy due to high PEEP and risk
   associated with accompanying G tube placement.   Goal to wean patient
   to levels suitable for tracheostomy.
   - Continue weaning PEEP and ventilation as diuresis continues.
   -Re-start Lasix drip, with goal to diuresis 1-3L as renal function
   tolerates
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection, but  has now improved
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue D5W drip, check PM lytes, and if Na less than or equal to
   140, d/c free water drip
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT
   prophylaxis.  ENT cauterized bleeding sites.
   -Continue packing sinuses with oxymetazoline soaked gauze..
   - consider re-starting ASA after 48 hours without re-bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -Insulin drip
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-20 12:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Restarted lasix drip with goal of net negative balance
   - Poor stooling
   - Necessitated increase of PEEP to 18 due to desaturation.
   - Febrile to 101.0
   - Fluids: -.15L
 BLOOD CULTURED - At [**2141-10-19**] 08:30 PM
 URINE CULTURE - At [**2141-10-19**] 08:30 PM
 FEVER - 101.6
F - [**2141-10-19**] 08:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-18**] 10:30 AM
   Vancomycin - [**2141-10-19**] 12:20 PM
   Metronidazole - [**2141-10-19**] 04:00 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-20**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 78 (77 - 99) bpm
   BP: 112/70(82) {110/67(81) - 146/87(103)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 17)mmHg
   Total In:
                                                                  3,439 mL
                                                                  1,415 mL
   PO:
   TF:
                                                                    851 mL
                                                                    437 mL
   IVF:
                                                                  1,179 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                  1,760 mL
   Urine:
                                                                  2,015 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,324 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (299 - 417) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 91%
   ABG: 7.35/59/80.[**Numeric Identifier 248**]/33/4
   Ve: 8.7 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   223 K/uL
   9.2 g/dL
   88 mg/dL
   1.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   42 mg/dL
   104 mEq/L
   145 mEq/L
   31.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-10-19**]  02:12 AM
                             [**2141-10-19**]  02:27 AM
                             [**2141-10-19**]  08:17 AM
                             [**2141-10-19**]  10:04 AM
                             [**2141-10-19**]  04:27 PM
                             [**2141-10-19**]  04:44 PM
                             [**2141-10-19**]  09:36 PM
                             [**2141-10-20**]  02:03 AM
                             [**2141-10-20**]  04:04 AM
                             [**2141-10-20**]  04:41 AM
   WBC
   11.6
   9.6
   Hct
   32.1
   31.9
   Plt
   210
   223
   Cr
   1.8
   1.6
   1.8
   1.7
   TCO2
   35
   37
   39
   38
   34
   34
   Glucose
   128
   92
   85
   88
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Patient remains febrile, which is somewhat worrisome, but
   white count is trending down.  AST/Alk phos elevation most likely [**1-14**]
   CHF and increased venous pressure.   Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.  Given that cultures have not yet been
   fruitful, will hold cultures for QOD.  Finally, diff shows borderline
   eosinophilia.  If worsens, may increase suspicion of drug fever.
   -Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Given
   improved renal function and yesterday +2L volume status, will resume
   diuresis.   Pt not eligible for tracheostomy due to high PEEP and risk
   associated with accompanying G tube placement.   Goal to wean patient
   to levels suitable for tracheostomy.
   -Wean PEEP, tolerating O2 sat of 88-89%
   - Wean fentanyl and midazolam
   -Begin using fentanyl patch at 100 and klonopin 1mg tid for sedation .
   -Goal of 1 to 2 L, with negative balance each hour
   -Avoid increasing Lasix above 10 mg IV per hour.
   -Add metolazone for additional diuresis
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection, but  has now improved.
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue 200 cc free water boluses.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT
   prophylaxis.  ENT cauterized bleeding sites.
   -Continue packing sinuses with oxymetazoline soaked gauze..
   - consider re-starting ASA after 48 hours without re-bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -D/C drip, increase Lantus dose
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.  Next
   week, consider placing PICC line for access.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-20**] 02:22 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-21 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2141-10-21**] 04:00 AM
   Fentanyl patch and clonapin started for agitation, sedation to wean
   Versed and Fentanyl gtts
   Started long-acting sc insulin and stopped drip
   Started metolazone 5mg PO qday with good diuresis effect
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2141-10-18**] 10:30 AM
   Vancomycin - [**2141-10-19**] 12:20 PM
   Metronidazole - [**2141-10-20**] 10:01 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-21**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 95 (73 - 96) bpm
   BP: 115/71(84) {107/63(75) - 139/87(102)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  2,467 mL
                                                                    671 mL
   PO:
                                                                    200 mL
                                                                    400 mL
   TF:
                                                                    851 mL
                                                                    194 mL
   IVF:
                                                                    816 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  4,390 mL
                                                                    760 mL
   Urine:
                                                                  4,390 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,923 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 311 (311 - 481) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 98%
   ABG: 7.38/58/104/36/6
   Ve: 10 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   234 K/uL
   9.3 g/dL
   130 mg/dL
   1.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   46 mg/dL
   101 mEq/L
   144 mEq/L
   30.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2141-10-19**]  04:27 PM
                             [**2141-10-19**]  04:44 PM
                             [**2141-10-19**]  09:36 PM
                             [**2141-10-20**]  02:03 AM
                             [**2141-10-20**]  04:04 AM
                             [**2141-10-20**]  04:41 AM
                             [**2141-10-20**]  04:57 PM
                             [**2141-10-20**]  05:09 PM
                             [**2141-10-20**]  08:08 PM
                             [**2141-10-21**]  12:54 AM
   WBC
   9.6
   9.5
   Hct
   31.9
   30.2
   Plt
   223
   234
   Cr
   1.6
   1.8
   1.7
   1.7
   1.8
   TCO2
   38
   34
   34
   37
   36
   Glucose
   92
   85
   88
   88
   130
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Patient remains febrile, which is somewhat worrisome, but
   white count is trending down.  AST/Alk phos elevation most likely [**1-14**]
   CHF and increased venous pressure.   Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.  Given that cultures have not yet been
   fruitful, will hold cultures for QOD.  Finally, diff shows borderline
   eosinophilia.  If worsens, may increase suspicion of drug fever.
   -Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.  PEEP
   has been increased and decreased based on ABGs but improving with
   diuresis.   Pt not eligible for tracheostomy due to high PEEP and risk
   associated with accompanying G tube placement.   Goal to wean patient
   to levels suitable for tracheostomy.
   -Wean PEEP, tolerating O2 sat of 88-89%
   - Wean fentanyl and midazolam
   -Fentanyl patch at 100 and klonopin 1mg tid for sedation .
   -Goal of 1 to 2 L, with negative balance each hour
   -Avoid increasing Lasix above 10 mg IV per hour.
   - Metolazone 5mg PO qday
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   - discuss with family tracheostomy
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Creatinine in the 1.8-2.0 range.
   - Follow PM lytes and creatinine
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue 200 cc free water boluses.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT
   prophylaxis.  ENT cauterized bleeding sites.
   -Continue packing sinuses with oxymetazoline soaked gauze.
   - consider re-starting ASA after 48 hours without re-bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   - started Lantus dosing and stopped insuin gtt.  Cover with SS insulin.
   - will re-evaluate Lantus dose with sliding scale needs
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Consider placing PICC
   line for access.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-20**] 06:39 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 53 yo M  with morbid obesity (BMI>50), DM,
   AF, cocaine-induced MI with acute-on-chronic diastolic CHF transferred
   to MICU with volume overload and respiratory failure. HC c/b c. diff,
   persistent fevers, episodic renal insufficiency. CT without ileus, SBO,
   or perforation. Failed to tolerate PEEP wean, ongoing FW repletion.
   Exam notable for Tm 101.2   BP 115/71 HR 95/AF RR 14-28 with sat 98 on
   PSV 12/16 FiO2 0.5 -> 7.38/58/104. CVP 30. Obese man, NAD on vent.
   distant BS, distant HS RR. Obese, + bowel sounds. + skin blistering,
   decreased edema at LE. Labs notable for WBC 9K, HCT 30, K+ 4.0, Cr 1.8
   (down).
   MICRO [**10-16**] c diff +
   CXR--no new film from today
   Agree with plan for slow wean of PSV 10/16.  Will likely require trach
   once able to tolerate less PEEP, though with morbid obesity may be
   difficult to achieve PEEP 10.  Continue gentle diuresis with metalazone
   and restart lasix gtt for acute-on-chronic diastolic heart failure c/b
   massive volume overload.  Continue attempts to wean gtt sedation and
   transition to fentanyl patch and klonopin.  Regarding temps--continue
   treatment for  c. diff with flagyl IV and vanco PO.  Remains febrile
   but no new cx data revelaing. SC line in X  1 week--site clean,
   difficult access and no bacterial growth from blood.  Plan to d/c after
   picc placement.  Will continue labetalol for HTN and cocaine-induced
   cardiac disease. AF is rate-controlled at present with BB, off
   anticoagulation given epistaxis.  Renal failure is improving/stable.
   Hct  trending down likely from frequent phlebotomy.  Heme neg stool.
   Will cont to follow.  Continue  lantus and RISS for DM2. Remainder of
   plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2141-10-21**] 07:42 PM ------

2141-10-22 05:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued diuresis with Lasix gtt and Metolazone
   Talked to family about trach
   Increased PS to 14/16 (was [**11-28**])
 FEVER - 101.2
F - [**2141-10-21**] 12:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-19**] 12:20 PM
   Metronidazole - [**2141-10-21**] 10:14 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-21**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-22**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 89 (82 - 96) bpm
   BP: 107/60(73) {107/60(73) - 132/81(95)} mmHg
   RR: 16 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 22)mmHg
   Total In:
                                                                  2,709 mL
                                                                    347 mL
   PO:
                                                                  1,000 mL
   TF:
                                                                    844 mL
                                                                    183 mL
   IVF:
                                                                    715 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                    960 mL
   Urine:
                                                                  3,380 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -671 mL
                                                                   -613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 482 (464 - 482) mL
   PS : 14 cmH2O
   RR (Spontaneous): 14
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.37/58/84.[**Numeric Identifier 1625**]/36/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, but increasingly distended.  Bowel sounds present.
   Patient grimaces with palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   271 K/uL
   9.0 g/dL
   142 mg/dL
   1.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   54 mg/dL
   101 mEq/L
   144 mEq/L
   29.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2141-10-20**]  04:41 AM
                             [**2141-10-20**]  04:57 PM
                             [**2141-10-20**]  05:09 PM
                             [**2141-10-20**]  08:08 PM
                             [**2141-10-21**]  12:54 AM
                             [**2141-10-21**]  05:26 AM
                             [**2141-10-21**]  06:00 PM
                             [**2141-10-21**]  11:48 PM
                             [**2141-10-22**]  12:45 AM
                             [**2141-10-22**]  03:00 AM
   WBC
   9.5
   10.8
   Hct
   30.2
   29.8
   Plt
   234
   271
   Cr
   1.7
   1.8
   1.7
   1.8
   1.9
   TCO2
   34
   37
   36
   37
   35
   Glucose
   88
   130
   143
   151
   142
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Patient remains febrile, which is somewhat worrisome, but
   white count is trending down.  AST/Alk phos elevation most likely [**1-14**]
   CHF and increased venous pressure.   Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.  Given that cultures have not yet been
   fruitful, will hold cultures for QOD.  Finally, diff shows borderline
   eosinophilia.  If worsens, may increase suspicion of drug fever.
   -Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Given
   improved renal function and yesterday +2L volume status, will resume
   diuresis.   Pt not eligible for tracheostomy due to high PEEP and risk
   associated with accompanying G tube placement.   Goal to wean patient
   to levels suitable for tracheostomy.
   -Wean PEEP, tolerating O2 sat of 88-89%
   - Wean fentanyl and midazolam
   -Begin using fentanyl patch at 100 and klonopin 1mg tid for sedation .
   -Goal of 1 to 2 L, with negative balance each hour
   -Avoid increasing Lasix above 10 mg IV per hour.
   -Add metolazone for additional diuresis
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - VAP bundle
   - Daily sedation holidays as able.
   -PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection, but  has now improved.
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue 200 cc free water boluses.
   .
   # Bleeding: Pt has been having nose bleeds and hematuria.  Hematuria
   resolved this AM.  Mild decrease in Hct, likely [**1-14**] epistaxis.  No
   systemic anticoagulation; pt is getting SC heparin for DVT
   prophylaxis.  ENT cauterized bleeding sites.
   -Continue packing sinuses with oxymetazoline soaked gauze..
   - consider re-starting ASA after 48 hours without re-bleeding
   #Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   -Tolerating labetalol
   - Hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -D/C drip, increase Lantus dose
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, central line.  Oozing decreased.  Next
   week, consider placing PICC line for access.
   Code: Full
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-22**] 03:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-23 05:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed successfully: >2L negative, lytes repleted
   - Unfortunately, Cr. increased to 2.1, and diuresis stopped completely.
   - PICC ordered but not yet placed
   - Spiked tempterature of 101.4, and sputum, blood and uring cx's sent
   to lab.
 PAN CULTURE - At [**2141-10-22**] 09:00 PM
 FEVER - 101.4
F - [**2141-10-22**] 08:25 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-22**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-23**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 78 (78 - 92) bpm
   BP: 103/60(72) {103/59(72) - 128/82(94)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 19 (19 - 23)mmHg
   Total In:
                                                                  2,397 mL
                                                                    609 mL
   PO:
   TF:
                                                                    192 mL
   IVF:
                                                                    940 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                    450 mL
   Urine:
                                                                  4,330 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,933 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (480 - 639) mL
   PS : 14 cmH2O
   RR (Spontaneous): 14
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 94%
   ABG: 7.37/66/76.[**Numeric Identifier 128**]/36/9
   Ve: 6.2 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, awake and
   comfortable.
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, mildly distended.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   293 K/uL
   9.0 g/dL
   124 mg/dL
   2.1 mg/dL
   36 mEq/L
   3.5 mEq/L
   57 mg/dL
   98 mEq/L
   142 mEq/L
   29.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2141-10-21**]  05:26 AM
                             [**2141-10-21**]  06:00 PM
                             [**2141-10-21**]  11:48 PM
                             [**2141-10-22**]  12:45 AM
                             [**2141-10-22**]  03:00 AM
                             [**2141-10-22**]  05:00 PM
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
   WBC
   10.8
   11.0
   11.8
   Hct
   29.8
   29.2
   29.4
   Plt
   271
   298
   293
   Cr
   1.7
   1.8
   1.9
   2.1
   2.1
   TCO2
   37
   35
   40
   40
   40
   Glucose
   143
   151
   142
   127
   124
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Patient remains febrile, which is somewhat worrisome, but
   white count is trending down.  AST/Alk phos elevation most likely [**1-14**]
   CHF and increased venous pressure.   Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.  Given that cultures have not yet been
   fruitful, will hold cultures for QOD.  Finally, diff shows borderline
   eosinophilia.  If worsens, may increase suspicion of drug fever.
   - Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   - Placed request for a PICC line that will allow us to remove his CVL.
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Given
   improved renal function and yesterday +2L volume status, will resume
   diuresis.   Pt questionably eligible for tracheostomy due to high PEEP
   and risk associated with accompanying G tube placement.   Goal to wean
   patient to levels suitable for tracheostomy.
   - Wean PEEP, tolerating O2 sat of 88-89%
   - Wean fentanyl and midazolam
   - Begin using fentanyl patch at 100 and klonopin 1mg tid for sedation .
   - Goal of 1 to 2 L, with negative balance each hour, cont. to use
   Metolazone with lasix to achieve this goal.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately 1.2.
    Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection, but  has now improved.
   - Follow PM lytes.  If continues trending upwards, order urine lytes
   and slow the rate of diuresis.
   .
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue 200 cc free water boluses as needed.
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   - Continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Cellulitis much less likely.  Erythema is improving.
   - Consider cellulitis if patient develops asymmetric erythema, fever,
   or white count
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -D/C drip, increase Lantus dose
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, ordered placement of PICC line with the
   intention of discontinuing his central venous line.  Oozing decreased.
   Next week, consider placing PICC line for access.
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-22**] 09:30 AM
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-23 13:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   C. Diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with worsening renal function in the setting of diuresis
   Recurrent fevers noted over weekend and recurrent today
   24 Hour Events:
 PAN CULTURE - At [**2141-10-22**] 09:00 PM
 FEVER - 101.4
F - [**2141-10-22**] 08:25 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-23**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2141-10-23**] 01:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 78 (78 - 92) bpm
   BP: 98/56(67) {98/56(67) - 132/82(94)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 22 (19 - 23)mmHg
   Total In:
                                                                  2,904 mL
                                                                  1,641 mL
   PO:
   TF:
                                                                    700 mL
                                                                    420 mL
   IVF:
                                                                    940 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                  1,410 mL
   Urine:
                                                                  4,330 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 496 (496 - 639) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 92%
   ABG: 7.37/66/76.[**Numeric Identifier 128**]/36/9
   Ve: 9.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Patient with pitting edema in LE bilaterally with 2+, he has minimal
   pulmonary secretions to imply active edema
   Labs / Radiology
   9.0 g/dL
   293 K/uL
   124 mg/dL
   2.1 mg/dL
   36 mEq/L
   3.5 mEq/L
   57 mg/dL
   98 mEq/L
   142 mEq/L
   29.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2141-10-21**]  05:26 AM
                             [**2141-10-21**]  06:00 PM
                             [**2141-10-21**]  11:48 PM
                             [**2141-10-22**]  12:45 AM
                             [**2141-10-22**]  03:00 AM
                             [**2141-10-22**]  05:00 PM
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
   WBC
   10.8
   11.0
   11.8
   Hct
   29.8
   29.2
   29.4
   Plt
   271
   298
   293
   Cr
   1.7
   1.8
   1.9
   2.1
   2.1
   TCO2
   37
   35
   40
   40
   40
   Glucose
   143
   151
   142
   127
   124
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/52, Alk Phos / T Bili:223/1.0,
   Differential-Neuts:76.9 %, Lymph:12.2 %, Mono:6.8 %, Eos:3.9 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.4 g/dL, LDH:182 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: AG-8
   7.37/66/76
   Imaging: CXR-reasonalbly clear pulmonary parenchyma, prominent right
   heart contour
   Assessment and Plan
   53 yo male admit with respiratory failure and now with prolonged and
   significant ventilatory support requirements.
   1)Respiratory Failure-
   -PSV to continue
   -Will need substantial diuresis to allow successful extubation but has
   had slight but significant worsening in renal function
   -The role of chest wall restriction in addition to what may well be
   pulmonary hypertension contributing to persistent problems with
   liberation from mechanical ventilation
   -Continue with high PEEP and PSV wean with ABG re-check
   -Will hope to minimize metabolic demand minimal
   2)Fever-
   -Change CVL today
   -U/S for possible DVT
   -CT head of interest with feeding tube in place
if not possible to get
   CT will trial Afrin and nasal irrigation
   -Continue with ABX and expand with cultures positive
   -PICC considered
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2141-10-24 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Known lastname 6175**]
   -CT sinuses- pan-opacification
   -PM lytes
   -held Lasix today [**1-14**] bumping creatinine (2.1)
   -LFTS showed alk phos to 179, AST to 53
   -duplex LENIs bilaterally looking for DVT and fever--> provisional read
   showed no DVT
   -PICC--> call for placement
 ULTRASOUND - At [**2141-10-23**] 03:00 PM
   LENIS
 FEVER - 101.6
F - [**2141-10-23**] 12:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-23**] 10:01 PM
   Vancomycin - [**2141-10-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-24**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.4
C (101.1
   HR: 82 (78 - 86) bpm
   BP: 121/67(82) {98/56(67) - 132/78(92)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 20 (18 - 23)mmHg
   Total In:
                                                                  2,929 mL
                                                                    867 mL
   PO:
   TF:
                                                                    700 mL
                                                                    186 mL
   IVF:
                                                                    709 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    420 mL
   Urine:
                                                                  2,075 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    454 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (446 - 557) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 96%
   ABG: 7.39/59/82.[**Numeric Identifier 96**]/34/7
   Ve: 10.1 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, awake and
   comfortable.
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, mildly distended.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Labs / Radiology
   333 K/uL
   9.2 g/dL
   161 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.5 mEq/L
   57 mg/dL
   99 mEq/L
   141 mEq/L
   30.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-10-22**]  12:45 AM
                             [**2141-10-22**]  03:00 AM
                             [**2141-10-22**]  05:00 PM
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
                            [**2141-10-23**]  04:58 PM
                            [**2141-10-24**]  03:01 AM
                            [**2141-10-24**]  03:16 AM
   WBC
   10.8
   11.0
   11.8
   12.0
   Hct
   29.8
   29.2
   29.4
   30.0
   Plt
   271
   298
   293
   333
   Cr
   1.9
   2.1
   2.1
   2.0
   1.9
   TCO2
   35
   40
   40
   40
   37
   Glucose
   142
   127
   124
   109
   161
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:76.9 %, Lymph:12.2 %,
   Mono:6.8 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  Patient remains febrile, which is somewhat worrisome, but
   white count is trending down.  AST/Alk phos elevation most likely [**1-14**]
   CHF and increased venous pressure.   Other possible etiologies are less
   likely, include VAP, sinusitis, urinary tract infection, blood
   infection, drug effect.  Given that cultures have not yet been
   fruitful, will hold cultures for QOD.  Finally, diff shows borderline
   eosinophilia.  If worsens, may increase suspicion of drug fever.
   - Continue IV Flagyl, PO vancomycin
   - Tylenol PRN
   - Placed request for a PICC line that will allow us to remove his CVL.
   - check LFTs
   - Abd U/S
   - facial CT r/o sinusitis
   - b/l LE US
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Given
   improved renal function and yesterday +2L volume status, will resume
   diuresis.   Pt questionably eligible for tracheostomy due to high PEEP
   and risk associated with accompanying G tube placement.   Goal to wean
   patient to levels suitable for tracheostomy.
   - Wean PEEP, tolerating O2 sat of 88-89%
   - Wean fentanyl and midazolam
   - Begin using fentanyl patch at 100 and klonopin 1mg tid for sedation .
   - Goal of 1 to 2 L, with negative balance each hour, cont. to use
   Metolazone with lasix to achieve this goal.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection.
   - Cr elevated, Diuresis D/c for now, will re-evaluate in AM.
   - Follow PM lytes.  If continues trending upwards, order urine lytes.
   Hypernatremia- Lasix, by acting at ascending loop of Henle, impairs
   kidney
s concentrating ability, causing greater free water loss than
   sodium loss and leading to hypernatremia.  Pt is still volume
   overloaded, but needs free water.
   -Continue 200 cc free water boluses as needed.
   -hypernatremia
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   -          Continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   -          Check fecal occult blood
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Erythema is improving, does not look like cellulitis
   -          Check B/L LE U/S as part of fever workup.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Currently on heparin and labetalol.  CHADS score is 2 (CHF, DM).
   - hold on anticoagulation as pt has reports of bleeding.
   - Labetolol for nonspecific receptor control
   # DM: On Insulin as outpatient. Requiring D5W
   -D/C drip, increase Lantus dose
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, ordered placement of PICC line with the
   intention of discontinuing his central venous line.  Oozing decreased.
   Next week, consider placing PICC line for access.
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-23**] 09:27 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-24 13:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2141-10-23**] 03:00 PM
   LENIS
 FEVER - 101.6
F - [**2141-10-23**] 12:00 PM
   Patient move to PSV ventilation
   Blood cultures returned positive with GPC's seen
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-24**] 06:13 AM
   Metronidazole - [**2141-10-24**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-24**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2141-10-24**] 01:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 78 (76 - 83) bpm
   BP: 141/83(99) {99/58(70) - 141/83(99)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 21 (18 - 24)mmHg
   Total In:
                                                                  2,929 mL
                                                                  1,816 mL
   PO:
   TF:
                                                                    700 mL
                                                                    471 mL
   IVF:
                                                                    709 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                  1,244 mL
   Urine:
                                                                  2,075 mL
                                                                  1,239 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    454 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 495 (446 - 557) mL
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: 7.39/59/82.[**Numeric Identifier 96**]/34/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   333 K/uL
   161 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.5 mEq/L
   57 mg/dL
   99 mEq/L
   141 mEq/L
   30.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2141-10-22**]  12:45 AM
                             [**2141-10-22**]  03:00 AM
                             [**2141-10-22**]  05:00 PM
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
                            [**2141-10-23**]  04:58 PM
                            [**2141-10-24**]  03:01 AM
                            [**2141-10-24**]  03:16 AM
   WBC
   10.8
   11.0
   11.8
   12.0
   Hct
   29.8
   29.2
   29.4
   30.0
   Plt
   271
   298
   293
   333
   Cr
   1.9
   2.1
   2.1
   2.0
   1.9
   TCO2
   35
   40
   40
   40
   37
   Glucose
   142
   127
   124
   109
   161
   Other labs: PT / PTT / INR:17.0/28.3/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:76.9 %, Lymph:12.2 %,
   Mono:6.8 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Imaging: LENI--non DVT
   SINUS CT--Significant opacification of all sinuses seen on CT
   Microbiology: New Blood Culture Findings of GPC's arrived as positive
   last pm.
   Assessment and Plan
   53 yo male with significant obestity and severe compromise in
   ventilatory capacities now with prolonged ICU course and new fevers
   likely explained by catheter related blood stream infection and
   sinsusits as most recent insult.
   1)Respiratory Failiure-
   -PSV support reasonable
   -In the absence of severe compromise will move to trial wean of PSV
   -LIkely only modifiable insult will be volume overload and will attempt
   diuresis but in the setting of febrile illness will be difficult to
   effect
   2)Fever-
   -CVL being chagned today
   -Sinusitis should be treated with sinus drainage
   -Vancomycin IV for GPC's
   -Afrin and Nasal Saline Spray
   3)Volume Overload-
   -Trial of diuresis to negative fluid balance today in the setting of
   stable BP
   -Creatinine improved today with limited diuresis over past 24 hours
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-11**] 12:00 AM
   Arterial Line - [**2141-10-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-10-25 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2141-10-24**] 03:16 PM
 BLOOD CULTURED - At [**2141-10-24**] 03:38 PM
 MULTI LUMEN - STOP [**2141-10-24**] 04:00 PM
   placed at 1900 on [**10-10**]----placement not confirmed by CXR x 2----line
   pulled back 3 cm by MICU team and repeat CXR pending at this time
 FEVER - 101.3
F - [**2141-10-24**] 10:00 AM
   Pt had new subclavian line inserted, old line pulled.
   Lasix gtt restarted
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-24**] 03:40 PM
   Vancomycin - [**2141-10-25**] 06:20 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-24**] 04:00 PM
   Midazolam (Versed) - [**2141-10-25**] 12:27 AM
   Fentanyl - [**2141-10-25**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-25**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.6
C (97.8
   HR: 79 (63 - 82) bpm
   BP: 107/66(77) {98/55(67) - 141/83(99)} mmHg
   RR: 19 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 313 (21 - 314)mmHg
   Total In:
                                                                  2,757 mL
                                                                    616 mL
   PO:
   TF:
                                                                    751 mL
                                                                    222 mL
   IVF:
                                                                    666 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  2,874 mL
                                                                  1,060 mL
   Urine:
                                                                  2,869 mL
                                                                  1,060 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (370 - 596) mL
   PS : 14 cmH2O
   RR (Spontaneous): 26
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 96%
   ABG: 7.35/63/91.[**Numeric Identifier 96**]/33/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, awake and
   comfortable.
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Normocephalic, R nostril packed.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  CTAB, but exam limited by habitus.
   Abdominal: Soft, mildly distended.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Lines- L IJ, mildly erythematous and indurated at insertion site.
   Labs / Radiology
   305 K/uL
   9.0 g/dL
   175 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   49 mg/dL
   99 mEq/L
   142 mEq/L
   30.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
                            [**2141-10-23**]  04:58 PM
                            [**2141-10-24**]  03:01 AM
                            [**2141-10-24**]  03:16 AM
                            [**2141-10-24**]  06:17 PM
                            [**2141-10-25**]  02:19 AM
                            [**2141-10-25**]  04:00 AM
   WBC
   11.8
   12.0
   10.3
   Hct
   29.4
   30.0
   28.9
   30.4
   Plt
   293
   333
   305
   Cr
   2.1
   2.0
   1.9
   1.7
   1.5
   TCO2
   40
   40
   40
   37
   36
   Glucose
   124
   109
   161
   190
   175
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  New positive GPCs raise concern for sepsis, with 2 week-old
   line being likely source.  Sinusitis is other likely source.   AST/Alk
   phos elevation most likely [**1-14**] CHF and increased venous pressure.
   Other possible etiologies are less likely, include VAP, urinary tract
   infection, blood infection, drug effect.
   - Continue IV Flagyl, PO vancomycin
   -Begin Vancomycin IV for GPC bacteremia
   -D/c old central line
   -Draw blood cx, repeat blood cx tomorrow AM
   -Oxymetazoline x3 days followed by nasal saline sprays
   - Tylenol PRN.
   - If fevers do not resolve, consider abd U/S
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient  had PEEP increased, and is now weaning down again. Will hold
   diuresis to -500cc
s, given bacteremia   Pt questionably eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement.   Goal to wean patient to levels suitable for
   tracheostomy.
   - Wean pressure support 2-3 mm today, given concern for sepsis and
   diuresis.
   - Wean fentanyl and midazolam
   - Begin using fentanyl patch at 100 and klonopin 1mg tid for sedation .
   - Goal of -500ccs with Lasix and metolazone.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes, follow creatinine.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  No evidence of eos or
   casts.  Bumped creatinine again, causing concern for over-diuresis
   versus worsening hemodynamics [**1-14**] infection.
   - Cr decreased again.  Diurese with goal
 500 cc
   - Follow PM lytes.  If continue trending upwards, order urine lytes.
   Hypernatremia- Resolving, latest Na was 141
   -Continue 200 cc free water boluses as needed.
   -hypernatremia
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   -          Continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   -          Check fecal occult blood
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # LE erythema: c/w chronic stasis dermatitis [**1-14**] edema and venous
   insufficiency.  Erythema is improving, does not look like cellulitis
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop last week, but is now
   resolving.  CHADS score is 2 (CHF, DM).
   - Begin to consider re-starting anti-coagulation as nosebleeds are
   resolved
   - Labetolol for nonspecific receptor control
   # DM: ISS.  Increase ISS
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Hypercholesterolemia: Stable, continue Lipitor
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.  See hypernatremia plan above
   PPX: Heparin SQ, PPI, bowel regimen.  Systemic anticoagulation not
   indicated given bleeding.
   Access: PIVs, A-line replaced, Central line is being d/c
d, new one to
   be placed today.
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-25**] 03:25 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-14**] 01:00 AM
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-25 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVL Changed
   PSV wean tried but with substantial drop in tidal volume
   Recurrent fevers seen
   24 Hour Events:
 MULTI LUMEN - START [**2141-10-24**] 03:16 PM
 BLOOD CULTURED - At [**2141-10-24**] 03:38 PM
 MULTI LUMEN - STOP [**2141-10-24**] 04:00 PM
   placed at 1900 on [**10-10**]----placement not confirmed by CXR x 2----line
   pulled back 3 cm by MICU team and repeat CXR pending at this time
 FEVER - 101.3
F - [**2141-10-24**] 10:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-25**] 08:00 AM
   Vancomycin - [**2141-10-25**] 08:30 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-24**] 04:00 PM
   Midazolam (Versed) - [**2141-10-25**] 12:27 AM
   Fentanyl - [**2141-10-25**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2141-10-25**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.4
C (97.5
   HR: 73 (63 - 81) bpm
   BP: 120/67(81) {98/55(67) - 141/83(99)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 313 (21 - 314)mmHg
   Total In:
                                                                  2,757 mL
                                                                  1,670 mL
   PO:
   TF:
                                                                    751 mL
                                                                    380 mL
   IVF:
                                                                    666 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  2,874 mL
                                                                  1,680 mL
   Urine:
                                                                  2,869 mL
                                                                  1,680 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (370 - 596) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: 7.35/63/91.[**Numeric Identifier 96**]/33/6
   Ve: 5.8 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   305 K/uL
   175 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   49 mg/dL
   99 mEq/L
   142 mEq/L
   30.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2141-10-22**]  09:13 PM
                            [**2141-10-23**]  03:01 AM
                            [**2141-10-23**]  03:20 AM
                            [**2141-10-23**]  04:12 AM
                            [**2141-10-23**]  04:58 PM
                            [**2141-10-24**]  03:01 AM
                            [**2141-10-24**]  03:16 AM
                            [**2141-10-24**]  06:17 PM
                            [**2141-10-25**]  02:19 AM
                            [**2141-10-25**]  04:00 AM
   WBC
   11.8
   12.0
   10.3
   Hct
   29.4
   30.0
   28.9
   30.4
   Plt
   293
   333
   305
   Cr
   2.1
   2.0
   1.9
   1.7
   1.5
   TCO2
   40
   40
   40
   37
   36
   Glucose
   124
   109
   161
   190
   175
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: 7.35/53/92
   Assessment and Plan
   53 yo male with history of obesity and now wadmitted wtih respiratory
   failure and with hosptial course complicated by recurrent fever, acute
   renal failure and persistent respiratory failure.
   1)Respiratory Failure
   -Patient with continued diuresis O/N with -500cc in past 24 hours
   -Versed 5mg/Fentayl 75 IV for sedation
   -He has continued high ventilatory requirements for pressure to support
   him but overall his Ve requirement is relatively limited with [**Name (NI) **] 5-7lpm
   -Will wean PSV to [**11-27**] at this time and recheck ABG but overall minute
   ventilation is unchanged
   -Diruesis is the modifiable variable here and will move to continue
   diruesis
   2)Acute Renal Failure
   -Creatinine improved today to 1.5
   -Patient with capacity to maintain negative fluid balance in that
   setting
   -Hope that this may be resolving ATN at this time in the setting of
   functional hypovolemia with aggressive diuresis attempted and with
   existing pulmonary hypertension.
   3)Fever-
   Catheter related blood stream infection suggested--CVL changed and
   antibiotics in place
   Sinusitis--Local therapies in place
   No evidence of DVT
   Continue with current antibiotics
   4)Proptosis-Has been seen on exam leading up to today but does appear
   to be quite prominent
   -Will review CT scans
   -Will evaluate TSH
   -Will need to review outpatient records as well
   -Further diagnostic evaluations based upon those findings
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-25**] 03:25 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-10-14**] 01:00 AM
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-10-26 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Decreasing pressure support on vent
     * d/c vancomycin IV
     * start augmentin PO for sinusitis
     * checked TSH - normal
     * Diuresis: -900cc (met goal)
     * Increased insulin sliding scale (long acting insulin)
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-25**] 10:02 PM
   Vancomycin - [**2141-10-26**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 135 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-26**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 83 (73 - 86) bpm
   BP: 113/62(77) {100/56(68) - 126/72(86)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 14 (10 - 15)mmHg
   Total In:
                                                                  3,447 mL
                                                                    419 mL
   PO:
   TF:
                                                                    840 mL
                                                                    220 mL
   IVF:
                                                                  1,252 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  4,490 mL
                                                                    810 mL
   Urine:
                                                                  3,890 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,043 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (367 - 552) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.37/66/91/35/9
   Ve: 7.3 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, decreased proptosis.
   Head, Ears, Nose, Throat: Mildly proptotic.  Normocephalic.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild wheezes bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, attempting to phonate, follows simple
   commands, Movement: spontaneous movement, Tone: Normal
   Lines- new line placed, no oozing, not erythematous at insertion site
   Labs / Radiology
   347 K/uL
   8.8 g/dL
   157 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.6 mEq/L
   50 mg/dL
   98 mEq/L
   140 mEq/L
   29.4 %
   8.2 K/uL
        [image002.jpg]
   Micro- [**2141-10-24**]- GPCs from arterial line in 2 bottles
                            [**2141-10-24**]  03:01 AM
                            [**2141-10-24**]  03:16 AM
                            [**2141-10-24**]  06:17 PM
                            [**2141-10-25**]  02:19 AM
                            [**2141-10-25**]  04:00 AM
                            [**2141-10-25**]  12:22 PM
                            [**2141-10-25**]  03:18 PM
                            [**2141-10-25**]  03:28 PM
                            [**2141-10-25**]  05:51 PM
                            [**2141-10-26**]  04:22 AM
   WBC
   12.0
   10.3
   8.2
   Hct
   30.0
   28.9
   30.4
   29.4
   Plt
   333
   305
   347
   Cr
   1.9
   1.7
   1.5
   1.3
   TCO2
   37
   36
   35
   37
   40
   Glucose
   161
   190
   175
   157
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: With positive C.  diff toxin, patient has likely source for
   infection.  New positive GPC culture in [**1-14**] bottles raise concern for
   bacteremia.  Source likely to be arterial line, as central line
   cultures drawn simultaneously were negative.  However, in hospitalized
   patients with several cultures showing GPC, should consider possibility
   of endocarditis or other endovascular infection.  Sinusitis is other
   likely source, with CT showing pan-opacification.
   -D/c arterial line, insert new arterial line
   -Continue surveillance blood cultures
   -TTE for endocarditis
   -Re-start vancomycin IV  for bacteremia
   - Continue IV Flagyl, PO vancomycin
   -Continue Augmentin for sinusitis
   -Oxymetazoline x2 more days followed by nasal saline sprays
   - Tylenol PRN.
   - If fevers do not resolve, consider abd U/S
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient had PEEP increased, and is now weaning down again. Diurese to
   -1L.   Pt questionably eligible for tracheostomy due to high PEEP and
   risk associated with accompanying G tube placement.   Goal to wean
   patient to levels suitable for tracheostomy.
   - Decreased PSV to [**11-26**], wean pressure support and decrease FIO2
   rather than PEEP.  Wean by 1 when possible.
   - Wean fentanyl and midazolam
   - Goal of -1000ccs with Lasix and metolazone.  Maximum of 10 mg
   lasix/hour.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes, follow creatinine.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  Creatinine has been
   near baseline at 1.4
   - Cr decreased again.  Diurese with goal
 1000 cc
   - Follow PM lytes.  If continue trending upwards, order urine lytes.
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend since
   admission.   Iron study labs not conclusive, with low reticulocyte
   count suggesting mild production problem.  [**Name (NI) 60**] be mild iron deficiency
   with superimposed elevated ferritin as an acute phase reactant.
   Patient is not hemolyzing per labs.   First Guiaic negative.
   -          Continue to monitor HCT and bleeding.  If pt begins bleeding
   profusely, ENT consult.
   -          Check fecal occult blood
   # DM: ISS.  Increased ISS
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop last week, but is now
   resolving.  CHADS score is 2 (CHF, DM).
   - Begin to consider re-starting anti-coagulation as nosebleeds are
   resolved
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.  Systemic anticoagulation
   not indicated given bleeding.
   Access: PIVs, A-line replaced, New central line placed on [**8-24**].
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-25**] 02:50 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-14**] 01:00 AM
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Agree with excellent MSIV note by [**First Name5 (NamePattern1) 6484**] [**Last Name (NamePattern1) 6486**] as outlined above
   yesterday, [**2141-10-26**].
   TSH does not explain pt
s proptosis.
   In brief, plan is to
   -          remove A-line today and place a new arterial line
   -          continue surveillance blood cultures
   -          continue to try to diurese
   -          continue attempts to wean from the vent
   -          continue antibiotic therapy with flagyl and vanco for C.
   diff.

2141-10-26 12:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with PSV wean to PEEP=14
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-26**] 06:00 AM
   Metronidazole - [**2141-10-26**] 08:21 AM
   Infusions:
   Fentanyl (Concentrate) - 135 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-26**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-26**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 81 (73 - 86) bpm
   BP: 126/73(88) {100/56(68) - 126/73(88)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 22 (9 - 22)mmHg
   Total In:
                                                                  3,448 mL
                                                                  1,692 mL
   PO:
   TF:
                                                                    840 mL
                                                                    426 mL
   IVF:
                                                                  1,252 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  4,490 mL
                                                                  1,510 mL
   Urine:
                                                                  3,890 mL
                                                                  1,500 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,042 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (367 - 456) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.38/66/71/36/10
   Ve: 7.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   347 K/uL
   161 mg/dL
   1.5 mg/dL
   36 mEq/L
   3.5 mEq/L
   49 mg/dL
   98 mEq/L
   141 mEq/L
   29.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2141-10-24**]  03:16 AM
                            [**2141-10-24**]  06:17 PM
                            [**2141-10-25**]  02:19 AM
                            [**2141-10-25**]  04:00 AM
                            [**2141-10-25**]  12:22 PM
                            [**2141-10-25**]  03:18 PM
                            [**2141-10-25**]  03:28 PM
                            [**2141-10-25**]  05:51 PM
                            [**2141-10-26**]  04:22 AM
                            [**2141-10-26**]  09:59 AM
   WBC
   10.3
   8.2
   Hct
   28.9
   30.4
   29.4
   Plt
   305
   347
   Cr
   1.7
   1.5
   1.3
   1.5
   TCO2
   37
   36
   35
   37
   40
   41
   Glucose
   190
   175
   157
   161
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: 7.38/66/71
   Microbiology: GPC's in P+C from [**2141-10-24**] blood culture taken from
   blood. Cath tip=pending
   Assessment and Plan
   53 yo male with obesity and admit wtih respiratory failure and actue
   renal failure now with slow to improve respiratory status.  He has had
   persistent issues of ongoing bloodstream infection but with line
   changed has had ability to continue with gentle diuresis as move to
   wean patient from ventilator
   1)Respiratory Failure-
   -Continue diuresis
   -Continue PEEP titration with Goal PO2>70mmHg
   -Move to more aggressive weaning with bloodstream infection resolved
   2)Sepsis-
   -Continue with ABX
restart Vanco with GPC
s in blood
   -Will D/C arterial catheter
   -WIll continue to treat sinusitis as possible contributor to ongoing
   fevers
   -Will need to consider ECHO for persistent positive cultures on
   antibiotics
   3)Acute Renal Failure-
   -Continue with gentle diruesis with creatinine improving and need to
   mobilize fluid as possible.
   -Given ongoing insult will continue full support
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-25**] 02:50 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-10-14**] 01:00 AM
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-10-27 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-10-26**] 05:00 PM
 ARTERIAL LINE - START [**2141-10-26**] 05:57 PM
   [**Known lastname 6175**]
   -Positive GPCs in [**1-14**] bottles from [**10-24**] from aline
   -Vanco IV started
   -A line pulled and L a-line placed
   -re-started metolazone
   -attempted to wean PSV to 13 PEEP, but patient desatted, returned to
   PEEP 14
   -TTE ordered for today
   -K+ and Mg2+ repleted
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-27**] 01:00 AM
   Vancomycin - [**2141-10-27**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-26**] 02:30 PM
   Ranitidine (Prophylaxis) - [**2141-10-26**] 04:21 PM
   Midazolam (Versed) - [**2141-10-27**] 01:00 AM
   Fentanyl - [**2141-10-27**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-27**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 74 (73 - 87) bpm
   BP: 116/70(84) {105/49(72) - 126/94(100)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 24 (9 - 26)mmHg
   Total In:
                                                                  3,677 mL
                                                                    799 mL
   PO:
   TF:
                                                                    841 mL
                                                                    193 mL
   IVF:
                                                                  1,606 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,824 mL
                                                                    560 mL
   Urine:
                                                                  2,814 mL
                                                                    560 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    853 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 475 (393 - 482) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.38/62/76.[**Numeric Identifier 128**]/36/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.  Bilateral.
   Head, Ears, Nose, Throat: Mildly proptotic.  Normocephalic.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild wheezes bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, sedated, not following commands.
   Movement: spontaneous movement, Tone: Normal
   Lines- new line placed, no oozing, not erythematous at insertion site
   Labs / Radiology
   350 K/uL
   8.4 g/dL
   143 mg/dL
   1.5 mg/dL
   37 mEq/L
   3.6 mEq/L
   51 mg/dL
   101 mEq/L
   143 mEq/L
   27.4 %
   8.5 K/uL
        [image002.jpg] Rads- none yesterday
   Micro-
   Central line tip [**10-24**] final- no growth
   Blood cx [**10-24**]- coagulase negative staph 2/2 bottles
   Blood cx [**10-22**]- coagulase negative staph 1/3 bottles
                            [**2141-10-25**]  12:22 PM
                            [**2141-10-25**]  03:18 PM
                            [**2141-10-25**]  03:28 PM
                            [**2141-10-25**]  05:51 PM
                            [**2141-10-26**]  04:00 AM
                            [**2141-10-26**]  04:22 AM
                            [**2141-10-26**]  09:59 AM
                            [**2141-10-26**]  02:34 PM
                            [**2141-10-26**]  04:47 PM
                            [**2141-10-26**]  05:43 PM
   WBC
   8.5
   8.2
   Hct
   27.5
   29.4
   Plt
   350
   347
   Cr
   1.3
   1.5
   1.5
   1.4
   TCO2
   35
   37
   40
   41
   39
   38
   Glucose
   157
   143
   161
   140
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++10 mg/dL, Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: White count continues to trend down.  Patient was afebrile
   yesterday.  C diff infection- treating with PO vanco IV Flagyl.
   Coagulase negative Staph bacteremia- treating with vancomycin IV,
   pulled arterial line, and placed new a-line.  For his sinusitis per CT,
   we are treating with augmentin PO, oxymetazoline course, and
   pseudoephedrine.
   -Continue surveillance blood cultures
   -F/u results for TTE for endocarditis
   -Continue vancomycin IV  for bacteremia
   - Continue IV Flagyl, PO vancomycin for C. diff
   -Continue Augmentin for sinusitis
   -d/c oxymetazoline, begin nasal saline sprays.
   -d/c pseudoephedrine
   - Tylenol PRN.
   - If fevers do not resolve, consider abd U/S
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient lost volume with weaning trial yesterday.   Pt not yet eligible
   for tracheostomy due to high PEEP and risk associated with accompanying
   G tube placement.   Goal to wean patient to levels suitable for
   tracheostomy.
   - Check ABG, Increase PEEP to 16-18 today to re-recruit deflated
   alveoli.  Check second ABG, then possibly lower PEEP by 1.
   - Wean fentanyl and midazolam
   - Goal of -1000ccs with Lasix and metolazone.  Maximum of 10 mg
   lasix/hour.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes, follow creatinine.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  Creatinine has been
   near baseline at 1.4
   - Cr decreased again.  Diurese with goal
 1000 cc
   - Follow PM lytes.  If continue trending upwards, order urine lytes.
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend.  Per
   labs, unclear, probably iron deficiency+ anemia chronic disease.  Had
   bleeding episode, cauterized by ENT.
   -          Continue to monitor HCT and bleeding.
   -
   # DM: ISS.  Increased ISS
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop last week, but is now
   resolving.  CHADS score is 2 (CHF, DM).
   - consider re-starting anti-coagulation as nosebleeds are resolved
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.  Systemic anticoagulation
   not indicated given bleeding.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-26**] 02:49 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Agree with excellent note by [**First Name9 (NamePattern2) 6490**] [**First Name8 (NamePattern2) 6484**] [**Last Name (NamePattern1) 6485**].  Briefly plan as
   follows:
   1.       C. diff infection
 continue vanco and Flagyl
   2.       Resp failure
 cont. to diurese as tolerated, elevate in bed,
   cont to attempt to wean from vent
   3.       Continue to follow cultures.
   4.       ------ Protected Section Addendum Entered By:[**Name (NI) 2127**] [**Last Name (NamePattern1) 6211**],
   MD  on:[**2141-10-27**] 11:53 ------
   5.
   6.
   7.       Electronically signed by [**First Name8 (NamePattern2) 2127**] [**Last Name (NamePattern1) 6211**], MD  [**2141-10-27**]
   11:53
   8.
   9.

2141-10-27 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-10-26**] 05:00 PM
 ARTERIAL LINE - START [**2141-10-26**] 05:57 PM
   PEEP wean attempted and desaturations seen at 13
   GPC's seen in blood and a-line changed and Vancomycin started
   Patient with diruesis attempted in the setting of persistent stable
   blood pressures
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-27**] 01:00 AM
   Vancomycin - [**2141-10-27**] 01:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-26**] 02:30 PM
   Ranitidine (Prophylaxis) - [**2141-10-26**] 04:21 PM
   Midazolam (Versed) - [**2141-10-27**] 01:00 AM
   Fentanyl - [**2141-10-27**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, 99.4
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2141-10-27**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 72 (72 - 87) bpm
   BP: 109/65(77) {105/49(72) - 126/94(100)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 24 (20 - 26)mmHg
   Total In:
                                                                  3,677 mL
                                                                  1,077 mL
   PO:
   TF:
                                                                    841 mL
                                                                    332 mL
   IVF:
                                                                  1,606 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  2,824 mL
                                                                    840 mL
   Urine:
                                                                  2,814 mL
                                                                    840 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    853 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (393 - 482) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.38/62/76.[**Numeric Identifier 128**]/36/8
   Ve: 6.9 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   347 K/uL
   140 mg/dL
   1.4 mg/dL
   36 mEq/L
   3.8 mEq/L
   50 mg/dL
   100 mEq/L
   144 mEq/L
   29.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2141-10-25**]  12:22 PM
                            [**2141-10-25**]  03:18 PM
                            [**2141-10-25**]  03:28 PM
                            [**2141-10-25**]  05:51 PM
                            [**2141-10-26**]  04:00 AM
                            [**2141-10-26**]  04:22 AM
                            [**2141-10-26**]  09:59 AM
                            [**2141-10-26**]  02:34 PM
                            [**2141-10-26**]  04:47 PM
                            [**2141-10-26**]  05:43 PM
   WBC
   8.5
   8.2
   Hct
   27.5
   29.4
   Plt
   350
   347
   Cr
   1.3
   1.5
   1.5
   1.4
   TCO2
   35
   37
   40
   41
   39
   38
   Glucose
   157
   143
   161
   140
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: 7.38/62/66
   Assessment and Plan
   53 yo male with history of obesity and now with persistent ventilatory
   failure but perhaps more significantly hypoxemia in the setting of
   volume overload, obesity and signficiant chest wall restriction has
   maintained elevated PEEP requirement and only with slow diuresis have
   we been able to decrease PEEP to 14 over time.  In this setting he has
   re-emerged with GPC's--coag negative staph in blood cultures from [**10-24**]
   cultures.
   Respiratory Failure-
   -Patient with PEEP titration completed yesterday and will need
   continued diuresis
   -Lasix gtt to continue
   -PEEP titration limited by abdominal compartment, volume overload and
   will move to diuresis today.
   -Trial increased PEEP to 18 and repeat ABG this afternoon
   -Continue with PSV=10
   -Will need tracheostomy and will work to have safe PEEP for procedure
   and placement
   Volume Overload-
   Creatinine improved
   Continue with Lasix gtt to continue
   Fever-
   Bactermia-On Vancomycin
   Sinusitis-Augmentin
   C. Diff
po vanco
   TTE today and will continue with TEE for any suspicious findings or
   persistent bacteremia
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-26**] 02:49 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-10-28 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PEEP increased to 16 to re-recruit alveoli.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-27**] 09:00 PM
   Metronidazole - [**2141-10-27**] 10:37 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-28**] 01:00 AM
   Fentanyl - [**2141-10-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-28**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 89 (72 - 89) bpm
   BP: 115/70(83) {100/61(72) - 122/74(88)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 17 (17 - 337)mmHg
   Total In:
                                                                  3,434 mL
                                                                    629 mL
   PO:
   TF:
                                                                    840 mL
                                                                    199 mL
   IVF:
                                                                  1,454 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    500 mL
   Urine:
                                                                  2,970 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (318 - 466) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: 7.35/66/95.[**Numeric Identifier 607**]/37/7
   Ve: 8.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.  Bilateral.
   Head, Ears, Nose, Throat: Mildly proptotic.  Normocephalic.  Mild
   desquamation of skin around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild wheezes bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm ,2+ pitting edema bilaterally
   Neurologic: Responds to: voice, sedated, not following commands.
   Movement: spontaneous movement, Tone: Normal
   Lines- new line placed, no oozing, not erythematous at insertion site
   Labs / Radiology
   373 K/uL
   8.6 g/dL
   145 mg/dL
   1.6 mg/dL
   37 mEq/L
   4.1 mEq/L
   52 mg/dL
   99 mEq/L
   142 mEq/L
   28.1 %
   9.6 K/uL
        [image002.jpg]
                            [**2141-10-26**]  04:22 AM
                            [**2141-10-26**]  09:59 AM
                            [**2141-10-26**]  02:34 PM
                            [**2141-10-26**]  04:47 PM
                            [**2141-10-26**]  05:43 PM
                            [**2141-10-27**]  12:51 PM
                            [**2141-10-27**]  05:19 PM
                            [**2141-10-27**]  05:45 PM
                            [**2141-10-28**]  03:13 AM
                            [**2141-10-28**]  03:43 AM
   WBC
   8.2
   9.6
   Hct
   29.4
   28.1
   Plt
   347
   373
   Cr
   1.5
   1.4
   1.4
   1.6
   TCO2
   41
   39
   38
   39
   37
   38
   Glucose
   161
   140
   151
   145
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure, now being transferred to the
   MICU for further care.
   # Fever: White count continues to trend down.  Patient was afebrile
   yesterday.  C diff infection- treating with PO vanco IV Flagyl.
   Coagulase negative Staph bacteremia- treating with vancomycin IV,
   pulled arterial line, and placed new a-line.  For his sinusitis per CT,
   we are treating with augmentin PO, oxymetazoline course, and
   pseudoephedrine.
   -Continue surveillance blood cultures
   -F/u results for TTE for endocarditis
   -Continue vancomycin IV  for bacteremia
   - Continue IV Flagyl, PO vancomycin for C. diff
   -Continue Augmentin for sinusitis
   -d/c oxymetazoline, begin nasal saline sprays.
   -d/c pseudoephedrine
   - Tylenol PRN.
   - If fevers do not resolve, consider abd U/S
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient lost volume with weaning trial yesterday.   Pt not yet eligible
   for tracheostomy due to high PEEP and risk associated with accompanying
   G tube placement.   Goal to wean patient to levels suitable for
   tracheostomy.
   - Check ABG, Increase PEEP to 16-18 today to re-recruit deflated
   alveoli.  Check second ABG, then possibly lower PEEP by 1.
   - Wean fentanyl and midazolam
   - Goal of -1000ccs with Lasix and metolazone.  Maximum of 10 mg
   lasix/hour.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   - PM lytes, follow creatinine.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Urine lytes and
   calculated FE urea suggest pre-renal etiology.  Creatinine has been
   near baseline at 1.4
   - Cr decreased again.  Diurese with goal
 1000 cc
   - Follow PM lytes.  If continue trending upwards, order urine lytes.
   .
   # Normocytic Anemia:  Chronic issue, with slight downward trend.  Per
   labs, unclear, probably iron deficiency+ anemia chronic disease.  Had
   bleeding episode, cauterized by ENT.
   -          Continue to monitor HCT and bleeding.
   # DM: ISS.  Increased ISS
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic and normotensive.
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop last week, but is now
   resolving.  CHADS score is 2 (CHF, DM).
   - consider re-starting anti-coagulation as nosebleeds are resolved
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   -labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.  Systemic anticoagulation
   not indicated given bleeding.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-27**] 02:45 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-28 14:12:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday: increased PEEP up to 16 plan for diuresis,
   Febrile to 101 - pan culture
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-28**] 08:04 AM
   Metronidazole - [**2141-10-28**] 09:04 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2141-10-28**] 01:00 AM
   Midazolam (Versed) - [**2141-10-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2141-10-28**] 02:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.1
C (100.6
   HR: 91 (77 - 91) bpm
   BP: 105/66(78) {100/61(72) - 122/74(88)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 18 (15 - 305)mmHg
   Total In:
                                                                  3,436 mL
                                                                  2,335 mL
   PO:
   TF:
                                                                    840 mL
                                                                    493 mL
   IVF:
                                                                  1,456 mL
                                                                    941 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                  1,225 mL
   Urine:
                                                                  2,970 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    466 mL
                                                                  1,110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (364 - 490) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.32/68/99.[**Numeric Identifier 128**]/39/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  warm
   Neurologic: eyes open, not following commands
   Labs / Radiology
   8.6 g/dL
   373 K/uL
   169 mg/dL
   1.7 mg/dL
   39 mEq/L
   3.7 mEq/L
   52 mg/dL
   96 mEq/L
   140 mEq/L
   28.1 %
   9.6 K/uL
        [image002.jpg]
                            [**2141-10-26**]  02:34 PM
                            [**2141-10-26**]  04:47 PM
                            [**2141-10-26**]  05:43 PM
                            [**2141-10-27**]  12:51 PM
                            [**2141-10-27**]  05:19 PM
                            [**2141-10-27**]  05:45 PM
                            [**2141-10-28**]  03:13 AM
                            [**2141-10-28**]  03:43 AM
                            [**2141-10-28**]  09:27 AM
                            [**2141-10-28**]  10:08 AM
   WBC
   9.6
   Hct
   28.1
   Plt
   373
   Cr
   1.4
   1.4
   1.6
   1.7
   TCO2
   39
   38
   39
   37
   38
   37
   Glucose
   140
   151
   145
   169
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:37/53, Alk Phos / T Bili:179/0.4,
   Amylase / Lipase:37/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:196 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   ECHO suboptimal quality: normal RV and LV allowing for technique, no
   vegetations, mild pHTN
   Assessment and Plan
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ANXIETY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
   53 yo male with history of obesity and now with persistent ventilatory
   failure but perhaps more significantly hypoxemia in the setting of
   volume overload, obesity and chest wall restriction has maintained
   elevated PEEP requirement and only with slow diuresis have we been able
   to decrease PEEP to 14 over time.  In this setting he has re-emerged
   with GPC's--coag negative staph in blood cultures from [**10-24**] cultures.
   Respiratory Failure- obesity and volume overload
   -Patient with PEEP titration completed yesterday and will need
   continued diuresis -Continue with PSV=10
   -Will need tracheostomy and will work to have safe PEEP for procedure
   and placement
   Fevers: DDX VAP, CVL, sinusitis, mastoiditis
  known bacteremia but
   blood cx neg since [**10-24**] , vanco sensi. Continue ABX Vanco, Augmentin,
   Flagyl, and serial cultures. Consider ENT consult for eval of
   mastoiidtis. Also will Rx with Zosyn in light of persistent fevers.
   Volume Overload: Creatinine worsened, possible we have hit a wall with
   diuresis and need to allow a day to requilibrate
 run even to 55cc
   positive and re evaluate
   Fever-Bacteremia-On Vancomycin no positive cultures since [**10-24**]
 TTE
   (allowing for issues of his obesity) no obvious vegetations.
   C. Diff
po vanco, IV Flagyl
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2141-10-27**] 02:45 PM 35 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2141-10-24**] 03:16 PM
              Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: chlorhex,
   Communication:  with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2141-10-29 07:10:00 Physician Resident Progress Note
Chief Complaint: fever, respiratory failure
   24 Hour Events:
 FEVER - 101.9
F - [**2141-10-28**] 08:00 PM
 Blood, urine, sputum cultured
     * sputum gram stain w/4+ G+ diplococci
     * held lasix for rising Cr
     * decreased PEEP down to 13
     * Started on zosyn x 48h because of G+ diplococci in sputum and
       fevers while on vanco/augmentin/flagyl.  Will wait for cultures to
       come back, if all negative, can D/C zosyn. d/w ID
     * echo: 2+tricuspid regurg, mild pulmonary artery stenosis. No
       vegetations noted. LVEF >55%
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Antibiotics:
   Vancomycin IV and PO
   Metronidazole
   Piperacillin/Tazobactam (Zosyn)
   Augmentin
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-28**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Not able to be obtained
   Flowsheet Data as of  [**2141-10-29**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.8
C (100.1
   HR: 80 (80 - 97) bpm
   BP: 122/74(87) {104/63(76) - 127/79(92)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 12 (11 - 18)mmHg
   Total In:
                                                                  3,369 mL
                                                                    848 mL
   PO:
   TF:
                                                                    840 mL
                                                                    251 mL
   IVF:
                                                                  1,508 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    480 mL
   Urine:
                                                                  1,740 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,629 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (336 - 490) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.38/61/89.[**Numeric Identifier 128**]/34/7 (4am)
   Ve: 5.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.  Bilateral.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows.  Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild crackles bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: painful stimuli, sedated, not following
   commands.
   Labs / Radiology
   375 K/uL
   8.6 g/dL
   160 mg/dL
   2.1 mg/dL
   34 mEq/L
   4.4 mEq/L
   59 mg/dL
   97 mEq/L
   140 mEq/L
   27.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2141-10-27**]  05:19 PM
                            [**2141-10-27**]  05:45 PM
                            [**2141-10-28**]  03:13 AM
                            [**2141-10-28**]  03:43 AM
                            [**2141-10-28**]  09:27 AM
                            [**2141-10-28**]  10:08 AM
                            [**2141-10-28**]  03:42 PM
                            [**2141-10-28**]  03:43 PM
                            [**2141-10-29**]  03:45 AM
                            [**2141-10-29**]  03:55 AM
   WBC
   9.6
   10.5
   Hct
   28.1
   27.2
   Plt
   373
   375
   Cr
   1.4
   1.6
   1.7
   1.8
   2.1
   TCO2
   37
   38
   37
   36
   37
   Glucose
   151
   145
   169
   140
   160
   Other labs:
   FeNa: 0.11%
   Sputum Gram stain: 4+ gram positive cocci in pairs, chains.
   CXR: b/l pleural effusions, worse than [**10-24**].
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   # Fever: Patient was febrile yesterday, afebrile so far today.  Started
   Zosyn for G+ cocci in sputum and fevers through current antibiotic
   coverage with PO vanco and IV Flagyl for CDiff and IV vanc for
   Coagulase negative Staph bacteremia.  For his sinusitis per CT, we had
   been treating with augmentin PO but will d/c this b/c of adequate
   coverage with unasyn.  To note, prior CT abdomen 11/5showed
   diverticulosis but no diverticulitis, gall bladder and pancreas were
   unremarkable.
   - follow blood, urine, sputum cultures
   - Continue vancomycin IV (Day 6)  for bacteremia
   - Continue IV Flagyl (Day 12), PO vancomycin (Day 12) for C. diff
   - d/c Augmentin (at Day 5) for sinusitis
 re-start if unasyn is d/c
   before 10 day course is not complete.
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Renal failure
   improved when diuresis was held.  Has had similar episode over past 3
   days.   Urine lytes and calculated FE urea again suggest pre-renal
   etiology.  Creatinine had been near baseline at 1.4, now 2.1
   -          Follow PM lytes.
   -          Hold diuretics
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient loses volume with weaning trials, drops sat when PEEP weaned.
   Patient with mild pulmonary hyper tension, but no AS, AR, decreased
   LVEF to contribute to difficulty in weaning vent, persistent pleural
   effusions/pulmonary edema. Believe that pt is not yet eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement.   Goal to wean patient to levels suitable for
   tracheostomy.
   - Discuss with Dr [**Last Name (STitle) 6516**] possibility of trach even with high PEEP
   requirement: what would be the upper limit of pressure support safe on
   trach?
   -  Position as upright as possible in bed for decreased compliance [**1-14**]
   chest wall and abdomen
   -  Wean fentanyl and midazolam as tolerated
   - Difficulty diuresing b/c of increasing creatinine. Will diurese as
   tolerated.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   # DM: ISS. Blood glucose stable.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - consider re-starting anti-coagulation as nosebleeds are resolved
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-28**] 02:41 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-29 10:30:00 Physician Attending Progress Note
Chief Complaint: resp failure, presistent fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 53 yo male with history of obesity and now with persistent
   ventilatory failure and fevers
   24 Hour Events:
 BLOOD CULTURED - At [**2141-10-28**] 09:02 AM
   from A-line and central
 URINE CULTURE - At [**2141-10-28**] 09:02 AM
 SPUTUM CULTURE - At [**2141-10-28**] 03:49 PM
 FEVER - 101.9
F - [**2141-10-28**] 08:00 PM
   Echo : tr and mild pHTN, no veg good LV fn
   SputumCx - 4+ GP dipplococci
   CR rising to 2.1 Lasix held
   FeNa 0.11%
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-29**] 06:11 AM
   Vancomycin - [**2141-10-29**] 08:00 AM
   Metronidazole - [**2141-10-29**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-28**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2141-10-29**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.8
   HR: 76 (76 - 97) bpm
   BP: 100/66(76) {100/64(76) - 127/79(92)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 22 (11 - 24)mmHg
   Total In:
                                                                  3,369 mL
                                                                  1,571 mL
   PO:
   TF:
                                                                    840 mL
                                                                    365 mL
   IVF:
                                                                  1,508 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    800 mL
   Urine:
                                                                  1,740 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,629 mL
                                                                    771 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (336 - 412) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: 7.38/62/69/34/8
   Ve: 9.4 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Overweight / Obese siitin gup in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, EET OGT
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  warm
   Neurologic: eyes open, not following commands
   Labs / Radiology
   8.6 g/dL
   375 K/uL
   160 mg/dL
   2.1 mg/dL
   34 mEq/L
   4.4 mEq/L
   59 mg/dL
   97 mEq/L
   140 mEq/L
   27.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2141-10-27**]  05:45 PM
                            [**2141-10-28**]  03:13 AM
                            [**2141-10-28**]  03:43 AM
                            [**2141-10-28**]  09:27 AM
                            [**2141-10-28**]  10:08 AM
                            [**2141-10-28**]  03:42 PM
                            [**2141-10-28**]  03:43 PM
                            [**2141-10-29**]  03:45 AM
                            [**2141-10-29**]  03:55 AM
                            [**2141-10-29**]  09:52 AM
   WBC
   9.6
   10.5
   Hct
   28.1
   27.2
   Plt
   373
   375
   Cr
   1.6
   1.7
   1.8
   2.1
   TCO2
   37
   38
   37
   36
   37
   38
   Glucose
   145
   169
   140
   160
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   53 yo male with history of obesity and now with persistent ventilatory
   failure but perhaps more significantly hypoxemia in the setting of
   volume overload, obesity and chest wall restriction has maintained
   elevated PEEP requirement and only with slow diuresis have we been able
   to decrease PEEP to 14 over time.  In this setting he has re-emerged
   with GPC's--coag negative staph in blood cultures from [**10-24**] cultures.
   Respiratory Failure- obesity and volume overload. Patient with PEEP
   uptitrated x 24 hrs for prolonged recruited then weaned down to 13
   today. Continue with PSV=10. Will need tracheostomy and will work to
   have safe PEEP for procedure and placement.
   Fevers: DDX VAP, CVL, sinusitis, mastoiditis
  known bacteremia but
   blood cx neg since [**10-24**] , Vanco sensi. Converted ABX Vanco, Zosyn,
   Flagyl, and follow up cultures from sputum which are concerning for
   VAP.
   Volume Overload: Creatinine worsened, possible we have hit a wall with
   diuresis and need to allow a day to requilibrate
 run even to 5OOcc
   positive and re evaluate
   C. Diff
po vanco, IV Flagyl
   Remianing issues as per Housestaff notes
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2141-10-28**] 02:41 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  with family yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-10-30 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-10-29**] 12:30 PM
   blood cultures from A-line and Central line
   - Febrile, with secretions.  Zosyn started empirically for VAP
   - sputum 4+ GPCs, culture pending
   - Lasix drip d/c
d.  Gave lasix 80 mg IV in evening when creatinine
   decreased
   -Repleted lytes
   To do: d/w IP/Dr. [**Last Name (STitle) 4834**] trach
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-29**] 08:00 PM
   Metronidazole - [**2141-10-30**] 12:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-30**] 05:38 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-30**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 82 (70 - 86) bpm
   BP: 117/70(84) {100/64(76) - 133/78(93)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 11 (11 - 24)mmHg
   Total In:
                                                                  3,408 mL
                                                                    731 mL
   PO:
   TF:
                                                                    847 mL
                                                                    211 mL
   IVF:
                                                                  1,411 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,100 mL
   Urine:
                                                                  2,255 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    553 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 305 (305 - 444) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 94%
   ABG: 7.40/59/70/36/8
   Ve: 9.4 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows improved
   Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild crackles bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: painful stimuli, sedated, not following
   commands.
   Labs / Radiology
   359 K/uL
   8.6 g/dL
   160 mg/dL
   1.8 mg/dL
   36 mEq/L
   3.4 mEq/L
   59 mg/dL
   97 mEq/L
   138 mEq/L
   28.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2141-10-28**]  03:42 PM
                            [**2141-10-28**]  03:43 PM
                            [**2141-10-29**]  03:45 AM
                            [**2141-10-29**]  03:55 AM
                            [**2141-10-29**]  09:52 AM
                            [**2141-10-29**]  11:14 AM
                            [**2141-10-29**]  04:55 PM
                            [**2141-10-29**]  08:29 PM
                            [**2141-10-30**]  03:19 AM
                            [**2141-10-30**]  05:48 AM
   WBC
   10.5
   9.0
   Hct
   27.2
   28.0
   Plt
   375
   359
   Cr
   1.8
   2.1
   1.8
   1.8
   TCO2
   36
   37
   38
   39
   38
   37
   38
   Glucose
   140
   160
   182
   160
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   # Fever: Patient had low-grade fevers.  Started Zosyn for G+ cocci in
   sputum and fevers in spite of current antibiotic coverage with PO vanco
   and IV Flagyl for CDiff and IV vanc for Coagulase negative Staph
   bacteremia.  For his sinusitis per CT, we had been treating with
   augmentin PO but will d/c this b/c of adequate coverage with unasyn.
   To note, prior CT abdomen [**10-18**] showed diverticulosis but no
   diverticulitis, gall bladder and pancreas were unremarkable.  Patient
   has new lines, decreasing risk of line infections.
   - follow blood, urine, sputum cultures
   - Continue vancomycin IV (Day 7)  for bacteremia, switch dose to 1g q
   24hours, checking vanco trough tonight at 6 PM before next dose.
   - Continue IV Flagyl (Day 13), PO vancomycin (Day 13) for C. diff
   - d/c Augmentin (at Day 5) for sinusitis
 re-start if unasyn is d/c
   before 10 day course is not complete.
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient loses volume with weaning trials, drops sat when PEEP weaned.
   Patient with mild pulmonary hyper tension, but no AS, AR, decreased
   LVEF to contribute to difficulty in weaning vent, persistent pleural
   effusions/pulmonary edema. Believe that pt is not yet eligible for
   tracheostomy due to high PEEP and risk associated with accompanying G
   tube placement.   Will sit patient upright in order to increase
   compliance and decrease PEEP, as patient may have negative end pleural
   pressures.
   - Discuss with Dr [**Last Name (STitle) 4834**] possibility of trach even with high PEEP
   requirement: what would be the upper limit of pressure support safe on
   trach?
   - Transition from  bed to chair
   -  Wean fentanyl and midazolam as tolerated
   - Difficulty diuresing b/c of increasing creatinine. Will diurese 1L as
   tolerated.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Renal failure
   improved when diuresis was held.  Has had similar episode over past 3
   days.   Urine lytes and calculated FE urea again suggest pre-renal
   etiology.  Creatinine had gone up to 2.1, now back down to 1.8
   -          Follow PM lytes.
   -      D/c Lasix drip.  Bolus Lasix 80 mg IV x 1 this AM, recheck in PM
   for creatinine rise
   # DM: ISS. Elevated blood sugars.
   -Increase fixed Lantus dose.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - hold on anticoagulation given potential trach in next few days.
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-29**] 02:22 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-30 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Vanco/Zosyn started/adjusted for possible ventilator associated
   pneumonia
   -PEEP at 13
   24 Hour Events:
 BLOOD CULTURED - At [**2141-10-29**] 12:30 PM
   blood cultures from A-line and Central line
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-29**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-30**] 05:38 AM
   Metronidazole - [**2141-10-30**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-30**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.3
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-10-30**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 77 (70 - 98) bpm
   BP: 101/62(74) {100/61(72) - 133/78(93)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 19 (11 - 21)mmHg
   Total In:
                                                                  3,408 mL
                                                                  1,296 mL
   PO:
   TF:
                                                                    847 mL
                                                                    368 mL
   IVF:
                                                                  1,411 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,380 mL
   Urine:
                                                                  2,255 mL
                                                                  1,380 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    553 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 382 (305 - 444) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 91%
   ABG: 7.38/58/63/36/6
   Ve: 8 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   359 K/uL
   160 mg/dL
   1.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   59 mg/dL
   97 mEq/L
   138 mEq/L
   28.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2141-10-28**]  03:43 PM
                            [**2141-10-29**]  03:45 AM
                            [**2141-10-29**]  03:55 AM
                            [**2141-10-29**]  09:52 AM
                            [**2141-10-29**]  11:14 AM
                            [**2141-10-29**]  04:55 PM
                            [**2141-10-29**]  08:29 PM
                            [**2141-10-30**]  03:19 AM
                            [**2141-10-30**]  05:48 AM
                            [**2141-10-30**]  10:10 AM
   WBC
   10.5
   9.0
   Hct
   27.2
   28.0
   Plt
   375
   359
   Cr
   2.1
   1.8
   1.8
   TCO2
   36
   37
   38
   39
   38
   37
   38
   36
   Glucose
   160
   182
   160
   Other labs: PT / PTT / INR:16.9/27.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: 7.4/59/70--on PSV 10/13, FIO2=0.5
   Assessment and Plan
   53 yo male with admission with respiratory failure now with proloned
   course of persistent ventilatory failure and with prolonged hospital
   course patient has now evolved persistent fevers throughout weekend
   despite continued antibiotics Rx with ventilator associated pneumonia
   as most likley explanation for persistent fevers at this time.  His
   requirements for elevated levels of PEEP do remain in the setting of
   obesity and inability to maintain adequate oxygentation in the setting
   PEEP decrease which may be to the point of negative end expiratory
   pressure and end expiration with PEEP <13.  Ppl is likely 15-16 given
   the findings with PEEP titration.
   1)Respiratory Failure-Patient with clear and persistent requirement for
   increased PEEP in the setting of likely very unfavorable chest wall
   mechanics.  We have maintained patient as negative in fluid balance as
   possible in the setting of rising creatinine.  With his recurrent
   fevers will have to continue Rx for VAP.
   -Patient [**Name (NI) 6524**] to recover favorable chest wall mechanics
   -Wean PEEP as possible
   -Continue with PSV
   -Secretions limited
   2)Sepsis-
   -Vanco po for C. Diff and will continue 14 days beyond last antibiotics
   day for VAP
   -Vanco/Zosyn IV for VAP and suspected bacteremia
   -Sinusitis Rx completed
   -Will continue for 14 day period of Zosyn
   3)Acute Renal Failure-
   -Keep I/O even
   -Follow creatinine
   -Renally dose all meds
   -Lasix dosing to even fluid balance.
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-10-29**] 02:22 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-10-31 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Vanco trough still high, dose switched to 1g q24, held until today
   -Patient moved to chair to decrease dead space, had accidental
   near-extubation
   -Trach and PEG today by thoracics.  NPO after midnight
   -basal insulin increased. But only
 dose given due to patient being
   NPO.
   -Had episode of tachypnea, increased BP, decreased tidal volumes.
   Improved with sedation and increase in PS from 10 to 12.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-30**] 06:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-30**] 11:00 PM
   Metronidazole - [**2141-10-31**] 12:15 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-30**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-30**] 10:00 PM
   Furosemide (Lasix) - [**2141-10-30**] 11:39 PM
   Fentanyl - [**2141-10-31**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-31**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 82 (77 - 98) bpm
   BP: 114/62(77) {100/60(72) - 143/78(98)} mmHg
   RR: 31 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 18 (10 - 33)mmHg
   Total In:
                                                                  2,577 mL
                                                                    217 mL
   PO:
   TF:
                                                                    629 mL
                                                                     39 mL
   IVF:
                                                                  1,018 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,100 mL
   Urine:
                                                                  2,930 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 306 (306 - 575) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.38/58/63/36/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows improved
   Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild crackles bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: painful stimuli, sedated, not following
   commands.
   Labs / Radiology
   369 K/uL
   8.7 g/dL
   120 mg/dL
   1.8 mg/dL
   36 mEq/L
   3.6 mEq/L
   61 mg/dL
   99 mEq/L
   144 mEq/L
   28.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2141-10-29**]  03:55 AM
                            [**2141-10-29**]  09:52 AM
                            [**2141-10-29**]  11:14 AM
                            [**2141-10-29**]  04:55 PM
                            [**2141-10-29**]  08:29 PM
                            [**2141-10-30**]  03:19 AM
                            [**2141-10-30**]  05:48 AM
                            [**2141-10-30**]  10:10 AM
                            [**2141-10-30**]  03:01 PM
                            [**2141-10-31**]  03:44 AM
   WBC
   9.0
   9.9
   Hct
   28.0
   28.5
   Plt
   359
   369
   Cr
   1.8
   1.8
   1.8
   1.8
   TCO2
   37
   38
   39
   38
   37
   38
   36
   Glucose
   182
   160
   147
   120
   Other labs: PT / PTT / INR:16.8/26.1/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:10.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient loses volume with weaning trials, drops sat when PEEP weaned.
   Patient with mild pulmonary hyper tension, but no AS, AR, decreased
   LVEF to contribute to difficulty in weaning vent, persistent pleural
   effusions/pulmonary edema. Pt tolerated sitting trial well, with good
   tidal volumes and O2 saturation.
   - Trach and PEG today with thoracics
   - Transition from  bed to chair
   -  Wean fentanyl and midazolam as tolerated
   - Hold diuresis until post-procedure, to avoid hypotension and
   peri-operative excess fluid resuscitation.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   # Fever: Patient has had multiple infections, low-grade fevers, but has
   been afebrile x 2 days since Zosyn was started over the weekend.
   i.  VAP- Started Zosyn empiric coverage of VAP, given increasing
   secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that did not
   appear on sputum.  G+ cocci in sputum should be covered with
   Vancomycin.
   ii.  Coag negative staph bacteremia- IV vancomycin, day 8.  Last vanco
   trough was therapeutic after dose was held [**1-14**] decreased renal function
   iii.  Sinusitis- d/c
d Unasyn.  Most organisms should be covered with
   Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco
   - Continue blood, urine, sputum cultures
   - Continue vancomycin IV (Day 8)  for bacteremia, switch dose to 1g q
   24hours,
   - ID approval per Zosyn
   - Continue IV Flagyl (Day 14), PO vancomycin (Day 14) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Fluctuating renal
   insufficiency likely [**1-14**] pre-renal causes.  Now back down to 1.8.
   Patient did well on Lasix boluses.
   -          Follow PM lytes.
   -          Hold lasix boluses until after the procedure.  Resume
   depending on fluid status, BP, and creatinine.
   # DM: ISS. Elevated blood sugars.
   -half-dose glargine today, given that patient is having tube feeds held
   and had been getting insulin sliding scale.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - hold on anticoagulation given potential trach in next few days.
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Pt was seen and examined by myself this morning.  I agree with the
   current assessment and plan as outlined by [**First Name8 (NamePattern2) 6484**] [**Last Name (NamePattern1) 6485**].
   [**First Name11 (Name Pattern1) 3702**] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) 6079**], PGY1
   [**Numeric Identifier 6534**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3702**] [**Last Name (NamePattern1) 6079**], MD
   on:[**2141-10-31**] 11:49 ------

2141-10-31 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with transient extubation with rapid and easy tube replacement
   with limited aspiration at worst.
   He has remained on PSV ongoing
   24 Hour Events:
 NASAL SWAB - At [**2141-10-31**] 04:04 AM
   MRSA screening
   History obtained from Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-30**] 11:00 PM
   Metronidazole - [**2141-10-31**] 08:21 AM
   Vancomycin - [**2141-10-31**] 10:04 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-10-30**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-30**] 10:00 PM
   Furosemide (Lasix) - [**2141-10-30**] 11:39 PM
   Fentanyl - [**2141-10-31**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.2
   Flowsheet Data as of  [**2141-10-31**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 78 (76 - 94) bpm
   BP: 119/68(82) {105/60(73) - 143/79(98)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 23 (10 - 33)mmHg
   Total In:
                                                                  2,577 mL
                                                                    598 mL
   PO:
   TF:
                                                                    629 mL
                                                                     39 mL
   IVF:
                                                                  1,018 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,580 mL
   Urine:
                                                                  2,930 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (306 - 575) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 88%
   ABG: 7.43/55/112/36/10
   Ve: 8.9 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   369 K/uL
   120 mg/dL
   1.8 mg/dL
   36 mEq/L
   3.6 mEq/L
   61 mg/dL
   99 mEq/L
   144 mEq/L
   28.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2141-10-29**]  11:14 AM
                            [**2141-10-29**]  04:55 PM
                            [**2141-10-29**]  08:29 PM
                            [**2141-10-30**]  03:19 AM
                            [**2141-10-30**]  05:48 AM
                            [**2141-10-30**]  10:10 AM
                            [**2141-10-30**]  03:01 PM
                            [**2141-10-31**]  03:44 AM
                            [**2141-10-31**]  06:29 AM
                            [**2141-10-31**]  08:17 AM
   WBC
   9.0
   9.9
   Hct
   28.0
   28.5
   Plt
   359
   369
   Cr
   1.8
   1.8
   1.8
   1.8
   TCO2
   39
   38
   37
   38
   36
   38
   38
   Glucose
   182
   160
   147
   120
   Other labs: PT / PTT / INR:16.8/26.1/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.6 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:10.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Fluid analysis / Other labs: 7.43/55/111
   On PSV 12/13
   Imaging: CXR--bilateral small effusions suspected and superimposed
   atelectaiss is likely.
   Assessment and Plan
   53 yo male with signfiicant history of obesity and with persistent
   respiratory failure now requiring trach and PEG to allow long term
   ventilator wean and support.  Encouraging is the fact that he has been
   able to tolerate PSV wean and PEEP decrease to 12 today.  He has no
   evidence of evolution of significant new positive cultures.
   1)Respiratory Failure-Certainly pneumonia may well be contributing in
   addition to volume overload and obesity.  Will continue to attempt
   diuresis and mobilization to facilitate wean of ventilatory support.
Continue diuresis
   -Mobilize patient when able following tracheostomy tube placement
   -Continue Rx for pneumonia
   2)Sepsis-He has multiple active sources of what may be ICU related
   infections which at this point do appear to be reasonably controlled
   -Catheter related blood stream infection-Vanco IV for coag negative
   staph bactermia
   -Ventilator Associated Pneumonia-ZOsyn/Vanco IV continuing
   -C. Diff--Flagyl IV and Vanco PO
   3)Altered Mental Status-
   -continue with sedation wean as tolerated and will move to daily
   wake-ups with airway stabilized
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition: npo
PEG today and resume
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-11-01 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
          trach/PEG pushed off until tomorrow
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-10-31**] 10:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-31**] 08:00 PM
   Metronidazole - [**2141-11-1**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2141-11-1**] 04:00 AM
   Midazolam (Versed) - [**2141-11-1**] 04:00 AM
   Haloperidol (Haldol) - [**2141-11-1**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-1**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 72 (70 - 81) bpm
   BP: 141/85(102) {105/60(73) - 141/85(102)} mmHg
   RR: 19 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 28 (15 - 31)mmHg
   Total In:
                                                                  1,394 mL
                                                                    271 mL
   PO:
   TF:
                                                                     39 mL
   IVF:
                                                                    965 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    780 mL
   Urine:
                                                                  3,190 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,796 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (316 - 480) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.47/48/89.[**Numeric Identifier 128**]/35/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows improved
   Large neck.
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, not tachycardic, no murmurs,
   rubs, or gallops.
   Respiratory / Chest:  mild crackles bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: painful stimuli, sedated, not following
   commands.
   Labs / Radiology
   319 K/uL
   8.4 g/dL
   88 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.6 mEq/L
   52 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2141-10-30**]  03:01 PM
                            [**2141-10-31**]  03:44 AM
                            [**2141-10-31**]  06:29 AM
                            [**2141-10-31**]  08:17 AM
                            [**2141-10-31**]  02:17 PM
                            [**2141-10-31**]  04:32 PM
                            [**2141-10-31**]  06:05 PM
                            [**2141-10-31**]  07:59 PM
                            [**2141-11-1**]  03:38 AM
                            [**2141-11-1**]  03:56 AM
   WBC
   9.9
   6.6
   Hct
   28.5
   27.2
   Plt
   369
   319
   Cr
   1.8
   1.8
   1.7
   1.6
   TCO2
   38
   38
   37
   36
   38
   36
   Glucose
   147
   120
   103
   88
   Other labs: PT / PTT / INR:16.8/26.1/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity.
   Patient loses volume with weaning trials, drops sat when PEEP weaned.
   Patient with mild pulmonary hyper tension, but no AS, AR, decreased
   LVEF to contribute to difficulty in weaning vent, persistent pleural
   effusions/pulmonary edema. Pt tolerated sitting trial well, with good
   tidal volumes and O2 saturation.
   - Trach and PEG today with thoracics
   - Transition from  bed to chair
   -  Wean fentanyl and midazolam as tolerated
   - Hold diuresis until post-procedure, to avoid hypotension and
   peri-operative excess fluid resuscitation.
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   # Fever: Patient has had multiple infections, low-grade fevers, but has
   been afebrile x 2 days since Zosyn was started over the weekend.
   i.  VAP- Started Zosyn empiric coverage of VAP, given increasing
   secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that did not
   appear on sputum.  G+ cocci in sputum should be covered with
   Vancomycin.
   ii.  Coag negative staph bacteremia- IV vancomycin, day 8.  Last vanco
   trough was therapeutic after dose was held [**1-14**] decreased renal function
   iii.  Sinusitis- d/c
d Unasyn.  Most organisms should be covered with
   Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco
   - Continue blood, urine, sputum cultures
   - Continue vancomycin IV (Day 8)  for bacteremia, switch dose to 1g q
   24hours,
   - ID approval per Zosyn
   - Continue IV Flagyl (Day 14), PO vancomycin (Day 14) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   # Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Fluctuating renal
   insufficiency likely [**1-14**] pre-renal causes.  Now back down to 1.8.
   Patient did well on Lasix boluses.
   -          Follow PM lytes.
   -          Hold lasix boluses until after the procedure.  Resume
   depending on fluid status, BP, and creatinine.
   # DM: ISS. Elevated blood sugars.
   -half-dose glargine today, given that patient is having tube feeds held
   and had been getting insulin sliding scale.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - hold on anticoagulation given potential trach in next few days.
   - Labetolol for nonspecific receptor control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF while intubated.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], New central line placed on [**10-24**]
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-01 11:13:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with continued PSV support and wean to PSV=12 with PEEP=15
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-10-31**] 08:00 PM
   Metronidazole - [**2141-11-1**] 12:15 AM
   Vancomycin - [**2141-11-1**] 08:45 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-1**] 04:00 AM
   Fentanyl - [**2141-11-1**] 04:00 AM
   Haloperidol (Haldol) - [**2141-11-1**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain: [**12-14**] Minimal
   Flowsheet Data as of  [**2141-11-1**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 70 (70 - 85) bpm
   BP: 125/74(90) {105/60(73) - 154/93(113)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 29 (15 - 31)mmHg
   Total In:
                                                                  1,394 mL
                                                                    550 mL
   PO:
   TF:
                                                                     39 mL
   IVF:
                                                                    965 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                  1,080 mL
   Urine:
                                                                  3,190 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,796 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 404 (316 - 444) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: 7.39/55/90.[**Numeric Identifier 128**]/35/6
   Ve: 8.7 L/min
   PaO2 / FiO2: 90
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   319 K/uL
   88 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.6 mEq/L
   52 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2141-10-31**]  03:44 AM
                            [**2141-10-31**]  06:29 AM
                            [**2141-10-31**]  08:17 AM
                            [**2141-10-31**]  02:17 PM
                            [**2141-10-31**]  04:32 PM
                            [**2141-10-31**]  06:05 PM
                            [**2141-10-31**]  07:59 PM
                            [**2141-11-1**]  03:38 AM
                            [**2141-11-1**]  03:56 AM
                            [**2141-11-1**]  10:36 AM
   WBC
   9.9
   6.6
   Hct
   28.5
   27.2
   Plt
   369
   319
   Cr
   1.8
   1.7
   1.6
   TCO2
   38
   38
   37
   36
   38
   36
   35
   Glucose
   120
   103
   88
   Other labs: PT / PTT / INR:16.8/26.1/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: 7.39/55/90
   Microbiology: [**10-26**], [**10-28**]--negative
   Assessment and Plan
   53 yo male with persistent respiratory failure and ongoing attempts at
   diuresis.  He has had minimal tolerance of PEEP wean in the setting of
   persistent volume overload.  He has been able to maintain normal pH
   with elevated CO2 and has therefore struck a balance of chronic
   respiratory acidosis.
   1)Respiratory Failure-
   -Trach today
   -Move to PSV wean and trach mask trial
   -continue diuresis
   2)Volume Overload-
   -Continue to diurese as possible today when returning from procedure
   3)Fever/PNA/C. Diff
   -Vanco/Flagyl--C. Diff
   -Zosyn-For VAP
   4)Acute Renal Failure-
   -Stable Cr at 1.6
   -Continue to diurese today
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: sq heparin/boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-11-02 05:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Tracheostomy placed
   - Dobbhoff placed
   - Desatted with HTN post-procedure; hydral 10 mg IV + Lasix 80 mg IV +
   inc PEEP & recruitment maneuver -> O2 sat improved
   - hct stable post procedure
   - CXR w/?mediastinal widening -> repeat CXR - no mediastinal widening
   - TF restarted
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin; IV, PO
   Piperacillin/Tazobactam
   Metronidazole IV
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2141-11-1**] 05:45 AM
   Hydralazine - [**2141-11-1**] 03:39 PM
   Furosemide (Lasix) - [**2141-11-1**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-2**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 88 (70 - 99) bpm
   BP: 132/77(93) {102/60(72) - 184/107(133)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 20 (13 - 29)mmHg
   Total In:
                                                                  2,348 mL
                                                                    560 mL
   PO:
   TF:
                                                                     40 mL
                                                                    188 mL
   IVF:
                                                                  1,737 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    370 mL
   Urine:
                                                                  3,300 mL
                                                                    370 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,342 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 404 (404 - 404) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/57/72/35/9
   Ve: 9.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Overweight / Obese, agitated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows slightly improved
   Large neck.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  mild crackles bilaterally, exam limited by
   habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
   Skin:  Warm
   Neurologic: Agitated, not following commands (language barrier?)
   Labs / Radiology
   339 K/uL
   8.5 g/dL
   149 mg/dL
   1.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   53 mg/dL
   101 mEq/L
   143 mEq/L
   27.8 %
   7.7 K/uL
        [image002.jpg]
                            [**2141-10-31**]  06:05 PM
                            [**2141-10-31**]  07:59 PM
                            [**2141-11-1**]  03:38 AM
                            [**2141-11-1**]  03:56 AM
                            [**2141-11-1**]  10:36 AM
                            [**2141-11-1**]  11:51 AM
                            [**2141-11-1**]  03:36 PM
                            [**2141-11-2**]  12:01 AM
                            [**2141-11-2**]  12:36 AM
                            [**2141-11-2**]  04:00 AM
   WBC
   6.6
   7.8
   7.7
   Hct
   27.2
   28.0
   27.8
   Plt
   [**Telephone/Fax (3) 6566**]
   Cr
   1.6
   1.5
   1.7
   TCO2
   36
   38
   36
   35
   37
   38
   Glucose
   88
   133
   149
   Other labs:
   Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   BCx all negative or pending since [**10-24**]
   CXR: [**11-1**] 11pm: New mid and lower lung opacities w/new R-sided pleural
   effusion and pulmonary vascular congestion compatible w/worsening
   pulmonary edema [**11-1**] post tracheostomy 3pm: increased mediastinal
   width
 cannot r/o mediastinal hematoma
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity,
   aspiration pneumonia.  Patient loses volume with weaning trials, drops
   sat when PEEP weaned.  Patient with mild pulmonary hyper tension, but
   no AS, AR, decreased LVEF to contribute to difficulty in weaning vent,
   persistent pleural effusions/pulmonary edema. Pt tolerated sitting
   trial well, with good tidal volumes and O2 saturation.  Failed several
   attempts to ween PEEP, patient now w/tracheostomy and since procedure
   is back on CMV/Assist.  Received diuresis and recruit maneuvers with
   brief post-op episode of desaturation and sats improved.
   - CMV -> PSV at 10/18 as tolerated, re-check ABG in afternoon
   - Wean fentanyl and midazolam as tolerated
   - Diuresis as tolerated
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   #2  Fever: Patient has had multiple infections, low-grade fevers, but
   had been afebrile x 2 days since Zosyn was started.  Now w/low grade
   temp since yesterday afternoon.  BCx and UCx sent but its possible that
   fever is due to stress from procedure yesterday.
   i.  VAP- Started Zosyn empiric coverage of VAP, given increasing
   secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that did not
   appear on sputum.  G+ cocci in sputum should be covered with
   Vancomycin.
   ii.  Coag negative staph bacteremia- IV vancomycin, day 8.  Last vanco
   trough was therapeutic after dose was held [**1-14**] decreased renal function
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco
   - Continue blood, urine, sputum cultures
   - Continue vancomycin IV (Day 9)  for bacteremia, switched dose to 1g q
   24hours,
   - Continue IV Flagyl (Day 15), PO vancomycin (Day 15) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   #3 Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Fluctuating renal
   insufficiency likely [**1-14**] pre-renal causes.  Now back down to 1.6.
   Patient did well with Lasix boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS. Elevated blood sugars.
   - will increase ISS
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - hold on anticoagulation because of severe nose bleed 2 weeks ago.
   - Labetolol for rate control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], Central line placed on [**10-24**]. For
   PICC attempt today. If unsuccessful, should go to IR tomorrow for PICC.
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-1**] 10:51 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-02 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   --Trach placed
   --Some post procedure hypoxia noted with improvement with recruitment
   on the ventilator and increased PEEP.
   24 Hour Events:
 OR SENT - At [**2141-11-1**] 09:24 AM
 OR RECEIVED - At [**2141-11-1**] 01:20 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-1**] 08:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-11-1**] 08:30 PM
   Metronidazole - [**2141-11-1**] 10:44 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Hydralazine - [**2141-11-1**] 03:39 PM
   Furosemide (Lasix) - [**2141-11-1**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2141-11-2**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.2
C (100.8
   HR: 87 (80 - 99) bpm
   BP: 113/66(79) {102/60(72) - 184/107(133)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 19 (13 - 28)mmHg
   Total In:
                                                                  2,348 mL
                                                                    918 mL
   PO:
   TF:
                                                                     40 mL
                                                                    419 mL
   IVF:
                                                                  1,737 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    890 mL
   Urine:
                                                                  3,300 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,342 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 4
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/57/72/35/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   339 K/uL
   149 mg/dL
   1.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   53 mg/dL
   101 mEq/L
   143 mEq/L
   27.8 %
   7.7 K/uL
        [image002.jpg]
                            [**2141-10-31**]  06:05 PM
                            [**2141-10-31**]  07:59 PM
                            [**2141-11-1**]  03:38 AM
                            [**2141-11-1**]  03:56 AM
                            [**2141-11-1**]  10:36 AM
                            [**2141-11-1**]  11:51 AM
                            [**2141-11-1**]  03:36 PM
                            [**2141-11-2**]  12:01 AM
                            [**2141-11-2**]  12:36 AM
                            [**2141-11-2**]  04:00 AM
   WBC
   6.6
   7.8
   7.7
   Hct
   27.2
   28.0
   27.8
   Plt
   [**Telephone/Fax (3) 6566**]
   Cr
   1.6
   1.5
   1.7
   TCO2
   36
   38
   36
   35
   37
   38
   Glucose
   88
   133
   149
   Other labs: PT / PTT / INR:18.8/28.5/1.7, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: 7.42/57
   Imaging: CXR--Patient wtih severe worsening of right lower lobe
   atelectasis and collapse in post procedure film.
   Assessment and Plan
   53 yo male with admission now dominated by prolonged ventilatory
   failure secondary to persistnet ventilatory failure and volume overload
   and renal failure. He has had successful placement of tracheostomy tube
   and G-tube was deferred with concern for proloned procedure and with
   significant risk of worsening atelectasis in the setting of PEEP wean
   prior to intervention.
   1)Respiratory Failure-Patient with persistent ventilatory failure and
   now with collapse and effusion note in right hemi-thorax
   -Wean to PSV as tolerated
   -Hope to maintain PEEP and decrease PSV as patient able to in the
   setting of decrease in dead space expected with tracheostomy.
   -Move to PSV today
he has PEEP=18 and will change to PSV 28/18
   -Will need slow PEEP wean to allow recruitement of RLL
   -Bronchoscopy if unable to re-recruit
   2)Fever
post procedure and in the setting of new evolution of the right
   lower lobe collapse
   -Vanco/Zosyn/Flagyl/Vanco
   -Likley peri-procedure aspiration which is unavoidable + atelectasis
   -Will follow up culture results
   3)Acute Renal Failure-
   _Cr. =1.7 and will keep I/O even today
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-1**] 10:51 PM 35 mL/hour-_G-tube when able
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2141-11-03 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -          FEVER to 101.4
F, BCx and UCx sent.
   -          Put on PS at 10/18 and ABGs have been okay.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin
 IV, PO
   Piperacillin/Tazobactam (Zosyn)
   Metronidazole
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-11-3**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   cannot assess
   Flowsheet Data as of  [**2141-11-3**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 74 (69 - 95) bpm
   BP: 120/69(83) {104/59(72) - 148/87(105)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 29 (14 - 129)mmHg
   Total In:
                                                                  1,767 mL
                                                                    319 mL
   PO:
   TF:
                                                                    840 mL
                                                                    207 mL
   IVF:
                                                                    457 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                  1,660 mL
   Urine:
                                                                  1,790 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -23 mL
                                                                 -1,341 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 295 (295 - 583) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/60/101/37/7 (4a)  7.48/48/89/37 (6a)
   Ve: 10.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Overweight / Obese, agitated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows slightly improved
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to painful stimuli.
   Labs / Radiology
   287 K/uL
   8.3 g/dL
   110 mg/dL
   1.7 mg/dL
   37 mEq/L
   3.4 mEq/L
   51 mg/dL
   102 mEq/L
   147 mEq/L
   26.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-1**]  03:56 AM
                            [**2141-11-1**]  10:36 AM
                            [**2141-11-1**]  11:51 AM
                            [**2141-11-1**]  03:36 PM
                            [**2141-11-2**]  12:01 AM
                            [**2141-11-2**]  12:36 AM
                            [**2141-11-2**]  04:00 AM
                            [**2141-11-2**]  03:56 PM
                            [**2141-11-2**]  04:22 PM
                            [**2141-11-3**]  03:33 AM
   WBC
   7.8
   7.7
   6.0
   Hct
   28.0
   27.8
   26.7
   Plt
   [**Telephone/Fax (3) 6592**]
   Cr
   1.5
   1.7
   1.6
   1.7
   TCO2
   36
   35
   37
   38
   37
   Glucose
   133
   149
   139
   110
   Other labs:
   PT / PTT / INR:17.9/26.6/1.6
   Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Lactate: 0.7
   Sputum GS negative
   BCx: [**10-22**], [**10-24**] w/coag negative staph;  [**10-25**], [**10-26**] negative; [**10-28**],
   [**10-29**], [**11-2**] Pending
   Catheter tip culture [**10-26**] negative
   UCx [**11-2**] Pending
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity,
   aspiration pneumonia.  Patient loses volume with weaning trials, drops
   sat when PEEP weaned.  Patient with mild pulmonary hyper tension, but
   no AS, AR, decreased LVEF to contribute to difficulty in weaning vent,
   persistent pleural effusions/pulmonary edema. Pt tolerated sitting
   trial well, with good tidal volumes and O2 saturation.  Failed several
   attempts to ween PEEP, patient now w/tracheostomy and since procedure
   is back on CMV/Assist.  Received diuresis and recruit maneuvers with
   brief post-op episode of desaturation and sats improved.
   - CMV -> PSV at 10/18 as tolerated, re-check ABG in afternoon
   - Wean fentanyl and midazolam as tolerated
   - Diuresis as tolerated
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - PM lytes, follow creatinine.
   #2  Fever: Patient has had multiple infections, low-grade fevers, but
   had been afebrile x 2 days since Zosyn was started.  Now w/low grade
   temp since yesterday afternoon.  BCx and UCx sent but its possible that
   fever is due to stress from procedure yesterday.
   i.  VAP- Started Zosyn empiric coverage of VAP, given increasing
   secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that did not
   appear on sputum.  G+ cocci in sputum should be covered with
   Vancomycin.
   ii.  Coag negative staph bacteremia- IV vancomycin, day 8.  Last vanco
   trough was therapeutic after dose was held [**1-14**] decreased renal function
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco
   - Continue blood, urine, sputum cultures
   - Continue vancomycin IV (Day 9)  for bacteremia, switched dose to 1g q
   24hours,
   - Continue IV Flagyl (Day 15), PO vancomycin (Day 15) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   #3 Acute Renal failure:  Unclear baseline, but likely approximately
   1.2.  Was stable on admission, then worsened to 2.3.  Fluctuating renal
   insufficiency likely [**1-14**] pre-renal causes.  Now back down to 1.6.
   Patient did well with Lasix boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS. Elevated blood sugars.
   - will increase ISS
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - hold on anticoagulation because of severe nose bleed 2 weeks ago.
   - Labetolol for rate control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow.
   PPX: Heparin SQ, H2 blocker, bowel regimen.
   Access: PIVs, A-line replaced [**10-26**], Central line placed on [**10-24**]. For
   PICC attempt today. If unsuccessful, should go to IR tomorrow for PICC.
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-3**] 03:25 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-03 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2141-11-2**] 08:00 PM
   -Trach tolerated with PEEP increased for recruitment
   History obtained from Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-11-1**] 08:30 PM
   Metronidazole - [**2141-11-3**] 05:00 AM
   Piperacillin - [**2141-11-3**] 06:16 AM
   Vancomycin - [**2141-11-3**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-11-3**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-3**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (69 - 95) bpm
   BP: 117/67(81) {99/59(71) - 148/88(105)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 70 Inch
   CVP: 25 (14 - 129)mmHg
   Total In:
                                                                  1,767 mL
                                                                  1,116 mL
   PO:
   TF:
                                                                    840 mL
                                                                    425 mL
   IVF:
                                                                    457 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                  2,720 mL
   Urine:
                                                                  1,790 mL
                                                                  2,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -23 mL
                                                                 -1,604 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (295 - 583) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.48/48/89.[**Numeric Identifier 128**]/37/10
   Ve: 7.5 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 1+, Improving skin turgor exam
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   287 K/uL
   110 mg/dL
   1.7 mg/dL
   37 mEq/L
   3.4 mEq/L
   51 mg/dL
   102 mEq/L
   147 mEq/L
   26.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-1**]  10:36 AM
                            [**2141-11-1**]  11:51 AM
                            [**2141-11-1**]  03:36 PM
                            [**2141-11-2**]  12:01 AM
                            [**2141-11-2**]  12:36 AM
                            [**2141-11-2**]  04:00 AM
                            [**2141-11-2**]  03:56 PM
                            [**2141-11-2**]  04:22 PM
                            [**2141-11-3**]  03:33 AM
                            [**2141-11-3**]  05:57 AM
   WBC
   7.8
   7.7
   6.0
   Hct
   28.0
   27.8
   26.7
   Plt
   [**Telephone/Fax (3) 6592**]
   Cr
   1.5
   1.7
   1.6
   1.7
   TCO2
   35
   37
   38
   37
   37
   Glucose
   133
   149
   139
   110
   Other labs: PT / PTT / INR:17.9/26.6/1.6, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   53 yo patient admitted initially with sepsis and renal failure now with
   tracheostomy completed and ongoing issues of recurrent fevers and
   difficult to wean ventilator support in the setting of mild residual
   volume overload and likely significant contribution of restriction from
   body habitus.
   1)Respiratory Failure-continue with PEEP titration
   -Will move to wean PEEP as we are able to improve patient position
   -Trial decrease to 16 today
   -7.48/48/89
   -He has evidence of improved effective ventilation as seen with
   decreased in CO2 in the setting of stable minute ventilation.
   -Will expect to maintain baseline CO2 at 48-50
   2)Acute Renal Failure-Baseline creatinine has been reasonably stable at
   1.6-1.8 which is a modest elevation over pre-morbid baseline.
   -Keep fluid balance negative
   3)Fever-Patient with recurrent fever noted overnight.  He has had
   extensive evaluation for possible sources and VAP and catheter related
   blood stream infection in addition to sinusitis were all suspected and
   treated.  In the setting
   -Zosyn/Flagyl
   -NaCl nasal spray continuing
   -Will need to re-culture in the setting of new fevers.
   -Will check fungal isolators
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-3**] 03:25 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
will D/C TLC today given PICC
   replacement
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2141-11-04 05:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * held lasix for elevated creatinine
     * picc placed
     * started heparin gtt to anticoagulate until we can decide on
       Coumadin
     * increased free water flushes
     * nose bleed this am.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin - [**2141-11-3**] 06:16 AM
   Vancomycin - [**2141-11-3**] 08:00 AM
   Metronidazole - [**2141-11-3**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-11-3**] 10:31 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-3**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-4**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 92 (70 - 92) bpm
   BP: 126/74(90) {99/59(71) - 148/88(105)} mmHg
   RR: 25 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 30 (25 - 43)mmHg
   Total In:
                                                                  2,793 mL
                                                                    544 mL
   PO:
   TF:
                                                                  1,193 mL
                                                                    186 mL
   IVF:
                                                                  1,240 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  3,605 mL
                                                                    500 mL
   Urine:
                                                                  3,405 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -812 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (335 - 538) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 18 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.40/63/110/32/11
   Ve: 8.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese, agitated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows slightly improved
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to painful stimuli.
   Labs / Radiology
   286 K/uL
   8.6 g/dL
   175 mg/dL
   1.8 mg/dL
   32 mEq/L
   4.6 mEq/L
   47 mg/dL
   107 mEq/L
   150 mEq/L
   28.1 %
   6.2 K/uL
        [image002.jpg]
                            [**2141-11-2**]  12:36 AM
                            [**2141-11-2**]  04:00 AM
                            [**2141-11-2**]  03:56 PM
                            [**2141-11-2**]  04:22 PM
                            [**2141-11-3**]  03:33 AM
                            [**2141-11-3**]  05:57 AM
                            [**2141-11-3**]  05:43 PM
                            [**2141-11-3**]  06:17 PM
                            [**2141-11-4**]  02:37 AM
                            [**2141-11-4**]  02:53 AM
   WBC
   7.8
   7.7
   6.0
   6.2
   Hct
   28.0
   27.8
   26.7
   28.1
   Plt
   [**Telephone/Fax (3) 6601**]86
   Cr
   1.7
   1.6
   1.7
   1.7
   1.8
   TCO2
   37
   37
   37
   40
   Glucose
   149
   139
   110
   124
   175
   Other labs: PT / PTT / INR:17.7/84.5/1.6, Ca++:11.2 mg/dL, Mg++:2.6
   mg/dL, PO4:4.9 mg/dL
   ABG: 7.40 / 63 / 110 / 40, free Ca 1.30
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity,
   aspiration pneumonia.  Patient loses volume with weaning trials, drops
   sat when PEEP weaned.  Patient with mild pulmonary hyper tension, but
   no AS, AR, decreased LVEF to contribute to difficulty in weaning vent,
   persistent pleural effusions/pulmonary edema. Pt tolerated sitting
   trial well, with good tidal volumes and O2 saturation.  Failed several
   attempts to ween PEEP, patient now w/tracheostomy and since procedure
   is back on PSV.  Received diuresis and recruit maneuvers with brief
   post-op episode of desaturation and sats improved.
   - wean PEEP
   - Wean fentanyl and midazolam as tolerated; consider haldol if needed
   for agitation.
   - Hold diuresis today due to elevated creatinine
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Consider cardiology consult to advise regarding CHF contribution.
   .
   #2  Fever: Patient has had multiple infections, low-grade fevers, but
   had been afebrile x 2 days since Zosyn was started.  Now low grade temp
   x2 days, temp to 101.4 overnight..  BCx and UCx sent, due to height of
   fever and persistence, it is unlikely that it is due to stress from the
   procedure yesterday.  Has been afebrile overnight.
   I    VAP- Started Zosyn on [**10-28**] for empiric coverage of VAP, given
   increasing secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that
   did not appear on sputum.  Defervesed with addition of zosyn.  Now day
   8.  Re-assess endpoint when Cx from [**11-2**] are resulted.
   ii.  Coag negative staph bacteremia- IV vancomycin, started [**10-24**], now
   day 11.  Re-assess endpoint when Cx from [**11-2**] are resulted.
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco until 2 weeks after antibiotics d/c.
   - Continue to follow blood, urine, sputum cultures
   - Continue vancomycin IV (started [**10-24**], Day 11)  for bacteremia,
   switched dose to 1g q 24hours,
   - Continue IV Flagyl (started [**10-18**], Day 17), PO vancomycin (started
   [**10-18**] Day 17) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   #3 Acute Renal failure:  Unclear baseline; 1.2 on admission but has
   been in the 1.6
 2.0 range for the past year.  Was stable on
   admission, then worsened to 2.3.  Fluctuating renal insufficiency
   likely [**1-14**] pre-renal causes.  Now 1.8.  Patient did well with Lasix
   boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS with standing glargine
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - Heparin gtt and re-assess for anticoagulation.
   - Labetolol for rate control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin gtt, H2 blocker, bowel regimen.
   Access: PICC placed by IR.
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-3**] 09:54 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-05 05:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lasix 60 mg IV x 1 in evening; 80 mg IV this am.
   - PEEP decreased to 16 ->7.38 / 62 / 84 / 38
   - nose bleeds x 2 & line bleeds; stopped heparin
   - free water boluses increased then decreased
   - standing haldol + EKG while weaning fentanyl
   - To Do: CHF c/s monday
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-11-3**] 10:31 PM
   Vancomycin - [**2141-11-4**] 05:39 PM
   Metronidazole - [**2141-11-4**] 10:13 PM
   Piperacillin - [**2141-11-5**] 02:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-4**] 05:43 AM
   Ranitidine (Prophylaxis) - [**2141-11-4**] 04:39 PM
   Furosemide (Lasix) - [**2141-11-5**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-5**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 77 (68 - 87) bpm
   BP: 109/68(80) {102/65(76) - 145/88(105)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 24 (14 - 40)mmHg
   Total In:
                                                                  4,982 mL
                                                                  1,634 mL
   PO:
   TF:
                                                                    840 mL
                                                                    192 mL
   IVF:
                                                                  2,522 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                    670 mL
   Urine:
                                                                  3,465 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (336 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 92%
   ABG: 7.37/61/64/34/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Overweight / Obese, agitated
   Eyes / Conjunctiva: PERRL, proptosis unchanged.
   Head, Ears, Nose, Throat: Normocephalic.  Mild desquamation of skin
   around medial eyebrows slightly improved
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal: Decreased distention.  Bowel sounds present.  No grimacing
   with palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to painful stimuli.
   Labs / Radiology
   253 K/uL
   8.7 g/dL
   146 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.1 mEq/L
   38 mg/dL
   101 mEq/L
   143 mEq/L
   29.1 %
   6.5 K/uL
        [image002.jpg]
                            [**2141-11-3**]  03:33 AM
                            [**2141-11-3**]  05:57 AM
                            [**2141-11-3**]  05:43 PM
                            [**2141-11-3**]  06:17 PM
                            [**2141-11-4**]  02:37 AM
                            [**2141-11-4**]  02:53 AM
                            [**2141-11-4**]  07:32 PM
                            [**2141-11-4**]  08:12 PM
                            [**2141-11-5**]  01:15 AM
                            [**2141-11-5**]  04:46 AM
   WBC
   6.0
   6.2
   6.5
   Hct
   26.7
   28.1
   29.1
   Plt
   287
   286
   253
   Cr
   1.7
   1.7
   1.8
   1.5
   1.5
   TCO2
   37
   37
   40
   38
   37
   Glucose
   110
   124
   175
   132
   146
   Other labs: PT / PTT / INR:17.2/64.9/1.6, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Respiratory failure:  [**1-14**] CHF, fluid overload, morbid obesity,
   aspiration pneumonia.  Patient loses volume with weaning trials, drops
   sat when PEEP weaned.  Patient with mild pulmonary hyper tension, but
   no AS, AR, decreased LVEF to contribute to difficulty in weaning vent,
   persistent pleural effusions/pulmonary edema. Pt tolerated sitting
   trial well, with good tidal volumes and O2 saturation.  Failed several
   attempts to ween PEEP, patient now w/tracheostomy and since procedure
   is back on PSV.  Received diuresis and recruit maneuvers with brief
   post-op episode of desaturation and sats improved.
   - wean PEEP
   - Wean fentanyl and midazolam as tolerated; consider haldol if needed
   for agitation.
   - Hold diuresis today due to elevated creatinine
   - Continue Ipratroprium/Albuterol for possible bronchospastic component
   - Consider cardiology consult to advise regarding CHF contribution.
   .
   #2  Fever: Patient has had multiple infections, low-grade fevers, but
   had been afebrile x 2 days since Zosyn was started.  Now low grade temp
   x2 days, temp to 101.4 overnight..  BCx and UCx sent, due to height of
   fever and persistence, it is unlikely that it is due to stress from the
   procedure yesterday.  Has been afebrile overnight.
   I    VAP- Started Zosyn on [**10-28**] for empiric coverage of VAP, given
   increasing secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that
   did not appear on sputum.  Defervesed with addition of zosyn.  Now day
   8.  Re-assess endpoint when Cx from [**11-2**] are resulted.
   ii.  Coag negative staph bacteremia- IV vancomycin, started [**10-24**], now
   day 11.  Re-assess endpoint when Cx from [**11-2**] are resulted.
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   14), PO vanco until 2 weeks after antibiotics d/c.
   - Continue to follow blood, urine, sputum cultures
   - Continue vancomycin IV (started [**10-24**], Day 11)  for bacteremia,
   switched dose to 1g q 24hours,
   - Continue IV Flagyl (started [**10-18**], Day 17), PO vancomycin (started
   [**10-18**] Day 17) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   #3 Acute Renal failure:  Unclear baseline; 1.2 on admission but has
   been in the 1.6
 2.0 range for the past year.  Was stable on
   admission, then worsened to 2.3.  Fluctuating renal insufficiency
   likely [**1-14**] pre-renal causes.  Now 1.8.  Patient did well with Lasix
   boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS with standing glargine
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct stable.
   -          Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - Heparin gtt and re-assess for anticoagulation.
   - Labetolol for rate control
   .
   # HTN: Currently normotensive.  Initially hypertensive then
   hypotensive.
   - Continue diuresis as able
   - labetalol as above
   .
   # Gout: Stable, continue Allopurinol
   .
   # Morbid Obesity: Likely contributing to overall hypoventilation
   syndrome.  This is a chronic outpatient issue.
   - Nutrition consult post-extubation
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin gtt, H2 blocker, bowel regimen.
   Access: PICC placed by IR.
   Dispo: begin screening for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-5**] 02:28 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-06 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Got 80mg IV Lasix in AM and 80mg IV again at midnight for
   diuresis.
          Had acute respiratory decompensation yesterday morning with
   O2 sats dropping to 80s, PEEP increased to 20 and ABG looked worse.
   PEEP increased to 22 with FiO2 60%.  CXR with L sided opacity ?alveolar
   hemorrhage vs. aspiration of blood.  Diuresis held until HCT
   stablilized.  Got 5mg IV Vit K and glargine insulin dose increased.
   Turned off Heparin ggt
          Spoke with wife via Portuguese interpreter regarding
   worsening status.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Antibiotics:
   Piperacillin/Tazobactam (Zosyn)
   Vancomycin IV, PO
   Metronidazole
   Piperacillin
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-5**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-6**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 74 (69 - 85) bpm
   BP: 107/62(74) {101/61(72) - 141/83(100)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 18 (16 - 33)mmHg
   Total In:
                                                                  4,204 mL
                                                                    864 mL
   PO:
   TF:
                                                                    840 mL
                                                                    202 mL
   IVF:
                                                                  1,954 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,280 mL
   Urine:
                                                                  2,510 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,694 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (381 - 490) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 22 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 99%
   ABG: 7.39/59/105/35/8 (11 am yesterday)
   Ve: 7.9 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Overweight / Obese, agitated.
   Eyes / Conjunctiva: PERRL, proptosis unchanged.   Eyes open.  Sclera
   injected b/l.
   Head, Ears, Nose, Throat: Normocephalic.  Dried blood in b/l nares
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to verbal stimuli, does not follow
   directions.
   Labs / Radiology
   198 K/uL
   7.9 g/dL
   86 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.2 mEq/L
   43 mg/dL
   97 mEq/L
   141 mEq/L
   25.9 %
   6.2 K/uL
        [image002.jpg]
                            [**2141-11-4**]  08:12 PM
                            [**2141-11-5**]  01:15 AM
                            [**2141-11-5**]  04:46 AM
                            [**2141-11-5**]  05:38 AM
                            [**2141-11-5**]  07:02 AM
                            [**2141-11-5**]  09:50 AM
                            [**2141-11-5**]  10:55 AM
                            [**2141-11-5**]  11:14 AM
                            [**2141-11-5**]  10:14 PM
                            [**2141-11-6**]  03:56 AM
   WBC
   6.5
   6.2
   Hct
   29.1
   26.8
   27.2
   25.9
   Plt
   253
   198
   Cr
   1.5
   1.5
   1.6
   TCO2
   38
   37
   37
   37
   36
   37
   Glucose
   146
   145
   86
   Other labs: PT / PTT / INR:16.0/26.8/1.4
   Ca++:9.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   BCx: [**10-24**] w/coag negative staph. [**10-25**], [**10-26**], [**10-28**] negative.  [**11-2**],
   [**11-4**] pending
   Fungal BCx [**11-3**] pending
   Sputum Cx [**11-2**] negative
   CXR [**11-5**]: L lung consolidation.
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Acute Respiratory Decompensation: Likely from aspiration of blood
   from nose bleeds.  Chronic respiratory failure from CHF, fluid
   overload, obesity also contributing.  PEEP now up to 22, O2 sat
   improved.
   - will wean PEEP as tolerated
   - continue Zosyn (started [**10-28**]) for VAP empiric coverage, today is day
   [**9-26**]
   - continue Vancomycin, (started [**10-24**]) coverage both VAP and staph
   bacteremia, today is day 13
   - continue diuresis as tolerated by electrolytes, creatinine
   - wean fentanyl and versed, on Haldol 5mg PO BID for agitation, monitor
   ECGs while on Haldol
   - add PRN Haldol to help with agitation from fentanyl weaning.
   .
   #2  Fever: Had been febrile for most of stay, was afebrile X 2 after
   Zosyn started.  Was febrile around peg placement.  Now afebrile X 4
   days.
   I    VAP- Started Zosyn on [**10-28**] for empiric coverage of VAP, given
   increasing secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that
   did not appear on sputum.  Defervesed with addition of zosyn.  Now day
   10.  Re-assess endpoint as now has respiratory decompensation with
   likely aspiration of blood.
   ii.  Coag negative staph bacteremia- IV vancomycin, started [**10-24**], now
   day 13.  Covering VAP and bacteremia.
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   15), PO vanco until 2 weeks after antibiotics d/c.
   - Continue to follow blood, urine, sputum cultures
   - Continue vancomycin IV (started [**10-24**], Day 13)  for bacteremia,
   switched dose to 1g q 24hours,
   - Continue IV Flagyl (started [**10-18**], Day 19), PO vancomycin (started
   [**10-18**] Day 19) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   - Continue screening cultures.
   #3 Acute Renal failure:  Unclear baseline; 1.2 on admission but has
   been in the 1.6
 2.0 range for the past year.  Was stable on
   admission, then worsened to 2.3.  Fluctuating renal insufficiency
   likely [**1-14**] pre-renal causes.  Now 1.6 and stable.  Patient did well
   with Lasix boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS with standing glargine. Will increase sliding scale today.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct dropped 1 point yesterday, likely due to acute bleed.
   -heparin ggt off
 not an anticoagulation candidate due to repeat
   bleeds.
   -Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   ..
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin gtt, H2 blocker, bowel regimen.
   Access: PICC placed by IR.
   Dispo:  screen for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-5**] 02:28 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-06 13:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo women with obesity hypoventilation, diastolic CHF, respiratory
   failure, s/p trach.  Had deterioration overnight with nosebleed,
   hypoxemix.  PEEP increased to 22.  CXR with left lung opacification.
   ABG yesterday 7.39/59/105
   24 Hour Events:
 EKG - At [**2141-11-5**] 08:17 AM
   Family meeting yesterday after decompensation:
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-11-3**] 10:31 PM
   Metronidazole - [**2141-11-6**] 06:00 AM
   Vancomycin - [**2141-11-6**] 07:52 AM
   Piperacillin - [**2141-11-6**] 10:14 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-5**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-5**] 10:00 PM
   Other medications:
   fentanyl patch
   chlorhex
   allopurinol
   lipitor nystatin
   metolazone
   labetolol
   vanco PO
   afrin
   haldol 5mg [**Hospital1 **]
   hep s/q
   free H20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-6**] 01:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 79 (69 - 85) bpm
   BP: 114/70(83) {100/59(70) - 141/83(100)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 30 (16 - 33)mmHg
   Total In:
                                                                  4,219 mL
                                                                  1,956 mL
   PO:
   TF:
                                                                    855 mL
                                                                    457 mL
   IVF:
                                                                  1,954 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,715 mL
   Urine:
                                                                  2,510 mL
                                                                  1,715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,709 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (385 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 22 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   198 K/uL
   86 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.2 mEq/L
   43 mg/dL
   97 mEq/L
   141 mEq/L
   25.9 %
   6.2 K/uL
        [image002.jpg]
                            [**2141-11-4**]  08:12 PM
                            [**2141-11-5**]  01:15 AM
                            [**2141-11-5**]  04:46 AM
                            [**2141-11-5**]  05:38 AM
                            [**2141-11-5**]  07:02 AM
                            [**2141-11-5**]  09:50 AM
                            [**2141-11-5**]  10:55 AM
                            [**2141-11-5**]  11:14 AM
                            [**2141-11-5**]  10:14 PM
                            [**2141-11-6**]  03:56 AM
   WBC
   6.5
   6.2
   Hct
   29.1
   26.8
   27.2
   25.9
   Plt
   253
   198
   Cr
   1.5
   1.5
   1.6
   TCO2
   38
   37
   37
   37
   36
   37
   Glucose
   146
   145
   86
   Other labs: PT / PTT / INR:16.0/26.8/1.4, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Acute on chronic respiratory failure: OHS, CHF, VAP.
     - Improved oxygenation today - can wean PEEP
   Acute on chronic diastolic HF with CAD:  Continue diuresis.
   VAP:  Continue on Vanco, Zosyn 14days.
   Wean sedation:  PRN haldol for agitation.
   Afib:  Hold anticoag.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-6**] 06:29 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-11-07 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2141-11-7**] 12:00 AM
     * febrile -> UCx, BCx sent
     * Hct stable
     * PEEP down to 20, O2 sat stable
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-6**] 07:52 AM
   Metronidazole - [**2141-11-6**] 10:00 PM
   Piperacillin - [**2141-11-7**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 180 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-11-6**] 02:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-7**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 84 (72 - 91) bpm
   BP: 113/69(82) {92/59(70) - 142/87(104)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 27 (16 - 33)mmHg
   Total In:
                                                                  3,690 mL
                                                                    529 mL
   PO:
   TF:
                                                                    845 mL
                                                                    206 mL
   IVF:
                                                                  1,576 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                    450 mL
   Urine:
                                                                  3,585 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (426 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 99%
   ABG: 7.39/59/117/34/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Overweight / Obese, agitated.
   Eyes / Conjunctiva: PERRL, proptosis unchanged.   Eyes open.  Sclera
   injected b/l.
   Head, Ears, Nose, Throat: Normocephalic.  Dried blood in b/l nares
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to verbal stimuli, does not follow
   directions.
   Labs / Radiology
   172 K/uL
   7.8 g/dL
   104 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   46 mg/dL
   97 mEq/L
   139 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2141-11-5**]  07:02 AM
                            [**2141-11-5**]  09:50 AM
                            [**2141-11-5**]  10:55 AM
                            [**2141-11-5**]  11:14 AM
                            [**2141-11-5**]  10:14 PM
                            [**2141-11-6**]  03:56 AM
                            [**2141-11-6**]  02:03 PM
                            [**2141-11-6**]  08:12 PM
                            [**2141-11-6**]  08:49 PM
                            [**2141-11-7**]  02:19 AM
   WBC
   6.2
   5.7
   Hct
   26.8
   27.2
   25.9
   25.2
   24.3
   Plt
   198
   172
   Cr
   1.5
   1.6
   1.7
   1.7
   1.8
   TCO2
   37
   36
   37
   37
   Glucose
   145
   86
   99
   93
   104
   Other labs: PT / PTT / INR:16.1/27.7/1.4, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Acute Respiratory Decompensation: Likely from aspiration of blood
   from nose bleeds.  Chronic respiratory failure from CHF, fluid
   overload, obesity also contributing.  PEEP now up to 22, O2 sat
   improved.
   - will wean PEEP as tolerated
   - continue Zosyn (started [**10-28**]) for VAP empiric coverage, today is day
   [**9-26**]
   - continue Vancomycin, (started [**10-24**]) coverage both VAP and staph
   bacteremia, today is day 13
   - continue diuresis as tolerated by electrolytes, creatinine
   - wean fentanyl and versed, on Haldol 5mg PO BID for agitation, monitor
   ECGs while on Haldol
   - add PRN Haldol to help with agitation from fentanyl weaning.
   .
   #2  Fever: Had been febrile for most of stay, was afebrile X 2 after
   Zosyn started.  Was febrile around peg placement.  Now afebrile X 4
   days.
   I    VAP- Started Zosyn on [**10-28**] for empiric coverage of VAP, given
   increasing secretions and fever.  [**Month (only) 60**] have had GNRs deep in lungs that
   did not appear on sputum.  Defervesed with addition of zosyn.  Now day
   10.  Re-assess endpoint as now has respiratory decompensation with
   likely aspiration of blood.
   ii.  Coag negative staph bacteremia- IV vancomycin, started [**10-24**], now
   day 13.  Covering VAP and bacteremia.
   iii.  Sinusitis- d/c
d Unasyn, ammoxicillin.  Most organisms should be
   covered with Vanco and Zosyn
   iv.  C. diff- Positive stool toxin.  Being treated with IV Flagyl (day
   15), PO vanco until 2 weeks after antibiotics d/c.
   - Continue to follow blood, urine, sputum cultures
   - Continue vancomycin IV (started [**10-24**], Day 13)  for bacteremia,
   switched dose to 1g q 24hours,
   - Continue IV Flagyl (started [**10-18**], Day 19), PO vancomycin (started
   [**10-18**] Day 19) for C. diff
   - Tylenol PRN
   - no vegetations seen on TTE but study is poor
 may consider TEE if
   has multiple other blood cultures positive
   - Continue screening cultures.
   #3 Acute Renal failure:  Unclear baseline; 1.2 on admission but has
   been in the 1.6
 2.0 range for the past year.  Was stable on
   admission, then worsened to 2.3.  Fluctuating renal insufficiency
   likely [**1-14**] pre-renal causes.  Now 1.6 and stable.  Patient did well
   with Lasix boluses.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated
   # DM: ISS with standing glargine. Will increase sliding scale today.
   # Normocytic Anemia:  Chronic issue. Per labs, unclear, probably iron
   deficiency+ anemia chronic disease.  Had bleeding episode, cauterized
   by ENT. Hct dropped 1 point yesterday, likely due to acute bleed.
   -heparin ggt off
 not an anticoagulation candidate due to repeat
   bleeds.
   -Continue to monitor HCT and bleeding.
   #Proptosis- Normal-high TSH, not c/w [**Doctor Last Name 598**].  Ddx includes infections
   (bacterial sinusitis, fungal invasion), infiltrative, neoplastic
   (lymphoma, leukemia).  CT imaging reassuring, with excess retro-orbital
   fat rather than lytic lesions or masses suspicious for tumor.  Per
   family is a long-standing issue.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   ..
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin gtt, H2 blocker, bowel regimen.
   Access: PICC placed by IR.
   Dispo:  screen for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-6**] 06:29 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-07 11:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   53 yo man with respiratory failure, severe obesity
   24 Hour Events:
 FEVER - 101.5
F - [**2141-11-7**] 12:00 AM
   Febrile yesterday.  Weaning peep.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-11-7**] 06:00 AM
   Vancomycin - [**2141-11-7**] 08:46 AM
   Piperacillin - [**2141-11-7**] 11:33 AM
   Infusions:
   Fentanyl (Concentrate) - 180 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-11-6**] 02:16 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-7**] 08:46 AM
   Other medications:
   allopurinol
   albuterol
   atrovent
   nystatin
   SSI
   zaroxolyn
   MVI
   labetolol
   zantac
   vanco
   klonopin
   free H20
   haldol 5mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-7**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 75 (75 - 91) bpm
   BP: 114/71(84) {92/65(77) - 142/87(104)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 33 (16 - 33)mmHg
   Total In:
                                                                  3,695 mL
                                                                  1,669 mL
   PO:
   TF:
                                                                    845 mL
                                                                    387 mL
   IVF:
                                                                  1,580 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                    770 mL
   Urine:
                                                                  3,585 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                    899 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 96%
   ABG: 7.39/59/117/34/8
   Ve: 6.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes, does not follow commands
   Labs / Radiology
   7.8 g/dL
   172 K/uL
   104 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   46 mg/dL
   97 mEq/L
   139 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2141-11-5**]  07:02 AM
                            [**2141-11-5**]  09:50 AM
                            [**2141-11-5**]  10:55 AM
                            [**2141-11-5**]  11:14 AM
                            [**2141-11-5**]  10:14 PM
                            [**2141-11-6**]  03:56 AM
                            [**2141-11-6**]  02:03 PM
                            [**2141-11-6**]  08:12 PM
                            [**2141-11-6**]  08:49 PM
                            [**2141-11-7**]  02:19 AM
   WBC
   6.2
   5.7
   Hct
   26.8
   27.2
   25.9
   25.2
   24.3
   Plt
   198
   172
   Cr
   1.5
   1.6
   1.7
   1.7
   1.8
   TCO2
   37
   36
   37
   37
   Glucose
   145
   86
   99
   93
   104
   Other labs: PT / PTT / INR:16.1/27.7/1.4, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC:  Obesity hypoventilation syndrome,
   continue to try and wean PEEP
   Acute on chronic sytolic HF:  Continue to diures and aim for net even.
   Vanco/Zosyn for VAP treatment.  Completed 14 day course of vanco and
   can d/c zosyn
   C.diff:  continue po vanco and IV flagyl.
   DM II:  continue glargine and SSI, well controlled
   AFib:  holding anticoag because of bleeding.
   Continue weanig sedation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2141-11-08 05:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2141-11-7**] 08:00 PM
   - received 80 mg lasix in am, poor output, creatinine increased
   - PEEP decreased to 18
   - vanc & zosyn stopped
   - fentanyl decreased to 160
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-7**] 08:46 AM
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-7**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 120 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-8**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 70 (68 - 86) bpm
   BP: 112/67(79) {105/63(75) - 129/78(93)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 22 (21 - 44)mmHg
   Total In:
                                                                  3,143 mL
                                                                    391 mL
   PO:
   TF:
                                                                    881 mL
                                                                    195 mL
   IVF:
                                                                  1,352 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    200 mL
   Urine:
                                                                  1,705 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (339 - 478) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.38/59/101/35/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese, agitated.
   Eyes / Conjunctiva: PERRL, proptosis unchanged.   Eyes open.  Sclera
   injected b/l.
   Head, Ears, Nose, Throat: Normocephalic.  Dried blood in b/l nares
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, no murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 2+, Left: 2+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, responsive to verbal stimuli, does not follow
   directions.
   Labs / Radiology
   174 K/uL
   7.6 g/dL
   124 mg/dL
   1.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   52 mg/dL
   94 mEq/L
   137 mEq/L
   24.7 %
   5.0 K/uL
        [image002.jpg]
                            [**2141-11-6**]  03:56 AM
                            [**2141-11-6**]  02:03 PM
                            [**2141-11-6**]  08:12 PM
                            [**2141-11-6**]  08:49 PM
                            [**2141-11-7**]  02:19 AM
                            [**2141-11-7**]  12:47 PM
                            [**2141-11-7**]  05:13 PM
                            [**2141-11-7**]  05:24 PM
                            [**2141-11-8**]  03:01 AM
                            [**2141-11-8**]  03:35 AM
   WBC
   6.2
   5.7
   5.0
   Hct
   25.9
   25.2
   24.3
   24.7
   Plt
   198
   172
   174
   Cr
   1.6
   1.7
   1.7
   1.8
   1.9
   1.9
   TCO2
   37
   39
   35
   36
   Glucose
   86
   99
   93
   104
   130
   124
   Other labs: PT / PTT / INR:16.6/28.8/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w acute
   SOB, with resultant respiratory failure who has had persistent
   respiratory failure and chronic fever.
   #1 Acute Respiratory Decompensation: Likely from mucous plugging or
   blood in airways given that patient has markedly improved both
   clinically and radiographically.  Chronic respiratory failure from CHF,
   fluid overload, obesity also contributing.  PEEP has been weaned to 18
   with O2 sats stable.
   - will wean PEEP as tolerated
   - will stop abxs now as today is day [**10-27**] for Zosyn and 14/14 for
   Vancomycin and these may be contributing to drug fevers
   - continue diuresis as tolerated by electrolytes, creatinine to improve
   respiratory status
   - wean fentanyl and versed, on Haldol 5mg PO BID for agitation, monitor
   ECGs while on Haldol
   - add PRN Haldol to help with agitation from fentanyl weaning.
   .
   #2  Fever: newly febrile again today although this is not clearly
   infectious as pt has negative cultures, negative sputum samples.  Also
   may be due to aspiration of blood, pneumonitis and inflammation.
   Patient as completed 11 day course of Zosyn ([**Date range (1) 6666**]) and 14 day
   course of Vancomycin ([**Date range (1) 6667**]) Vanco was for Coag negative Staph
   bacteremia on [**10-24**] and empiric VAP coverage.  Continues to be treated
   with IV Flagyl and PO Vanco for C. Diff.
   - Continue to follow blood, urine, sputum cultures
   - Continue vancomycin IV (started [**10-24**], Day 13)  for bacteremia,
   switched dose to 1g q 24hours,
   - Continue IV Flagyl started [**10-18**] and will end 2 weeks after other abxs
   stopped (stopped on [**11-7**]) which is [**2141-10-21**]
   - Continue PO vancomycin started [**10-18**] and will end 2 weeks after other
   abxs stopped (stopped on [**11-7**]) which is [**2141-10-21**]
   - Tylenol PRN
   #3 Acute Renal failure:  Unclear baseline; 1.2 on admission but has
   been in the 1.6
 2.0 range for the past year.  Was stable on
   admission, then worsened to 2.3.  Fluctuating renal insufficiency
   likely [**1-14**] pre-renal causes.  Slightly up at 1.8 today.  Will continue
   to monitor.
   -          Continue to follow PM lytes.
   -          Lasix bolus as tolerated, got 80mg IV Lasix today
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  ACE allergic, so no ACE.  Pt has diastolic dysfunction with EF
   60-70%, so may not benefit from afterload reduction.  Though he has
   room to increase beta blockade, given infection, will hold off on
   increasing beta blockade.  ECHO showed mild pulmonary hypertension and
   tricuspid regurgitation.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: On Metoprolol and coumadin as an outpatient.
   Not anticoagulated [**1-14**] bleeding and Hct drop in hospital. CHADS score
   is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   ..
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin gtt, H2 blocker, bowel regimen.
   Access: PICC placed by IR.
   Dispo:  screen for rehab facilities.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-7**] 06:57 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-08 12:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with obesity hypoventilation, diastolic CHF, respiratory
   failure.
   24 Hour Events:
 FEVER - 101.6
F - [**2141-11-7**] 08:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-7**] 08:46 AM
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-8**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-8**] 08:30 AM
   Other medications:
   lipitor
   allopurinol
   fentanyl 100
   ranitidine
   fentanyl patch 100
   klonopin
   zaroxolyn
   haldol 5mg [**Hospital1 **]
   lantis/SSI
   vanco po
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-8**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.5
C (101.3
   HR: 74 (68 - 86) bpm
   BP: 108/64(77) {105/62(75) - 129/78(93)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 32 (21 - 44)mmHg
   Total In:
                                                                  3,143 mL
                                                                    946 mL
   PO:
   TF:
                                                                    881 mL
                                                                    403 mL
   IVF:
                                                                  1,352 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    470 mL
   Urine:
                                                                  1,705 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (356 - 478) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.38/59/101/35/7
   Ve: 12 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Obese
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   174 K/uL
   124 mg/dL
   1.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   52 mg/dL
   94 mEq/L
   137 mEq/L
   24.7 %
   5.0 K/uL
        [image002.jpg]
                            [**2141-11-6**]  03:56 AM
                            [**2141-11-6**]  02:03 PM
                            [**2141-11-6**]  08:12 PM
                            [**2141-11-6**]  08:49 PM
                            [**2141-11-7**]  02:19 AM
                            [**2141-11-7**]  12:47 PM
                            [**2141-11-7**]  05:13 PM
                            [**2141-11-7**]  05:24 PM
                            [**2141-11-8**]  03:01 AM
                            [**2141-11-8**]  03:35 AM
   WBC
   6.2
   5.7
   5.0
   Hct
   25.9
   25.2
   24.3
   24.7
   Plt
   198
   172
   174
   Cr
   1.6
   1.7
   1.7
   1.8
   1.9
   1.9
   TCO2
   37
   39
   35
   36
   Glucose
   86
   99
   93
   104
   130
   124
   Other labs: PT / PTT / INR:16.6/28.8/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Respiratory Failure:  Wean Peep to 15 today.
   Fluid overload:  restart lasix drip. 500cc negative goal
   Fevers: Unclear source.  Will remove left subclavian as he has pic.
   C. Diff.  Continue empiric treament for C. diff.  d/c flagyl and
   continue po vanoc
   Continue sedation wean.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-24**] 03:16 PM
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-11-09 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2141-11-8**] 12:45 PM
 BLOOD CULTURED - At [**2141-11-9**] 01:00 AM
 SPUTUM CULTURE - At [**2141-11-9**] 01:42 AM
 URINE CULTURE - At [**2141-11-9**] 01:42 AM
 FEVER - 101.3
F - [**2141-11-8**] 08:00 AM
   Attempted wean from PEEP, but desatted to 88-89% with low tidal volumes
   after being laid flat for CXR
   CVL pulled and tip sent for culture
   Dopoff pulled out and replaced twice
   Switched fentanyl patch  to 5mg TID methadone
   Cr 1.9 but BUN increased to 63
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-7**] 08:46 AM
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-8**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 80 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-8**] 08:09 PM
   Furosemide (Lasix) - [**2141-11-8**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-9**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 80 (70 - 91) bpm
   BP: 122/73(87) {101/62(74) - 138/80(96)} mmHg
   RR: 28 (14 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 26 (22 - 32)mmHg
   Total In:
                                                                  1,469 mL
                                                                    308 mL
   PO:
   TF:
                                                                    635 mL
                                                                    173 mL
   IVF:
                                                                    495 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    425 mL
   Urine:
                                                                  1,700 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -231 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (250 - 470) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 93%
   ABG: 7.36/65/72/34/7
   Ve: 9 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Overweight / Obese, somnolent, does not respond to
   commands but withdraws from pain.
   Eyes / Conjunctiva: PERRL, proptosis.   Forcefully holds eyes closed.
   Head, Ears, Nose, Throat: Normocephalic.  Dried blood in b/l nares
   Large neck.  Tracheostomy in place w/mild serosanguenous draninage.
   Oral Dobhoff tube in place.
   Cardiovascular: limited exam, extremely distant heart sounds, no
   murmurs noted
   Respiratory / Chest:  decreased breath sounds bilaterally, exam limited
   by habitus. No obvious rales or rhonchi.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 1+, Left: 1+ edema
 improved from previous exams
   b/l DP pulses now palpable.
   Skin:  Warm
   Neurologic: Sedated, nonresponsive to verbal stimuli, does not follow
   directions. Withdraws from pain. Moving all 4 limbs spontaneously.
   Labs / Radiology
   156 K/uL
   7.8 g/dL
   129 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   63 mg/dL
   96 mEq/L
   139 mEq/L
   24.7 %
   6.6 K/uL
        [image002.jpg]
                            [**2141-11-7**]  12:47 PM
                            [**2141-11-7**]  05:13 PM
                            [**2141-11-7**]  05:24 PM
                            [**2141-11-8**]  03:01 AM
                            [**2141-11-8**]  03:35 AM
                            [**2141-11-8**]  06:03 PM
                            [**2141-11-8**]  10:33 PM
                            [**2141-11-9**]  12:33 AM
                            [**2141-11-9**]  03:16 AM
                            [**2141-11-9**]  05:48 AM
   WBC
   5.0
   6.6
   Hct
   24.7
   24.7
   Plt
   174
   156
   Cr
   1.9
   1.9
   1.8
   1.9
   TCO2
   39
   35
   36
   35
   39
   38
   Glucose
   130
   124
   129
   129
   Other labs: PT / PTT / INR:16.3/29.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w fluid overload, respiratory
   failure and chronic fever s/p CONS bacteremia not responsive to
   vancomycin/pip/tazo.
   #1 Acute Respiratory Decompensation: Acute likely [**1-14**] mucous plug with
   contribution from large abdomen causing him to take small tidal volumes
   and possibly fatigue his respiratory mucles.   Chronic respiratory
   failure from CHF, fluid overload.  PEEP has been weaned to 16 but then
   he eventually becomes hypoxic taking small tidal volumes. Question as
   to whether his shifting his position and allowing his abdomen to
   compress his lungs or decreased PEEP is causing him to take small tidal
   volumes.
   - Bronch today to eval for mucous plugging
   - Attempt to keep him as upright as possible to keep is abdomen from
   compressing his chest
   - will wean PEEP as tolerated, may increase FiO2 if needed to keep PEEP
   down.
   - continue diuresis as tolerated by electrolytes, creatinine/BUN to
   improve respiratory status
   - Continue current doses of fentanyl and  versed and increase methadone
   as pt. appears uncomfortable.
   .
   #2  Fever: Spiked through vanc/pip/tazo and continues febrile today.
   Central line pulled yesterday but Pt. may have infected clot at site of
   line. [**Month (only) 60**] need to start considering whole body imaging if continues to
   be febrile.
   - U/S of L subclavian
   - Consider TEE if continues febrile and/or repeat Bcx become positive.
   - Continue to follow blood, urine, sputum cultures
   - LFT
s, lipase to eval for intraabdominal source of infection
   - Continue PO vancomycin started [**10-18**] and will end 2 weeks after other
   abxs stopped (stopped on [**11-7**]) which is [**2141-11-20**]
   - Tylenol PRN
   #3 Acute Renal failure:  Unclear baseline.  Appears to fluctuate
   significantly, may need to allow Cr to increase in order to wean from
   vent.  Also will need to decrease PEEP to allow better perfusion of his
   renal arteries.
         - Closely follow UOP to decide if higher dose of Lasix is
   necessary
   -          Continue to follow PM lytes while on Lasix drip.
   -          Lasix drip titrate to 130cc/hr UOP may need to increase
   above 10mg/hr.
   -          Check pm lytes
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  CVP 24 but high PEEP contributing.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding and Hct drop in hospital. CHADS score is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   ..
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   Access: PICC placed by IR.  CVL pulled yesterday.
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   CODE: FULL
   #Contacts:  [**Telephone/Fax (1) 6185**]

2141-11-09 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with obesity hypoventilation, CHF, respiratory failure.
   24 Hour Events:
 MULTI LUMEN - STOP [**2141-11-8**] 12:45 PM
 BLOOD CULTURED - At [**2141-11-9**] 01:00 AM
 SPUTUM CULTURE - At [**2141-11-9**] 01:42 AM
 URINE CULTURE - At [**2141-11-9**] 01:42 AM
 FEVER - 101.3
F - [**2141-11-8**] 08:00 AM
   Desaturation overnight.  Required increased PEEP.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-7**] 08:46 AM
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-8**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 80 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-11-8**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-9**] 08:12 AM
   Midazolam (Versed) - [**2141-11-9**] 09:24 AM
   Other medications:
   lipitor
   allopurinol
   chlorhex
   mvi
   labetolol
   ranitidine
   klonopin
   zaroxolyn
   haldol
   SSI
   vanco PO
   methadone PO.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-9**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.3
C (97.4
   HR: 77 (73 - 91) bpm
   BP: 114/66(79) {101/62(74) - 146/87(105)} mmHg
   RR: 24 (14 - 31) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 26 (22 - 32)mmHg
   Total In:
                                                                  1,469 mL
                                                                    590 mL
   PO:
   TF:
                                                                    635 mL
                                                                    294 mL
   IVF:
                                                                    495 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                  1,375 mL
   Urine:
                                                                  1,700 mL
                                                                    875 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -231 mL
                                                                   -785 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (250 - 470) mL
   PS : 12 cmH2O
   RR (Spontaneous): 35
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 90%
   ABG: 7.40/57/63/34/7
   Ve: 10.6 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, turns head to voice, does not follow
   commands
   Labs / Radiology
   7.8 g/dL
   156 K/uL
   129 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   63 mg/dL
   96 mEq/L
   139 mEq/L
   24.7 %
   6.6 K/uL
        [image002.jpg]
                            [**2141-11-7**]  05:13 PM
                            [**2141-11-7**]  05:24 PM
                            [**2141-11-8**]  03:01 AM
                            [**2141-11-8**]  03:35 AM
                            [**2141-11-8**]  06:03 PM
                            [**2141-11-8**]  10:33 PM
                            [**2141-11-9**]  12:33 AM
                            [**2141-11-9**]  03:16 AM
                            [**2141-11-9**]  05:48 AM
                            [**2141-11-9**]  08:42 AM
   WBC
   5.0
   6.6
   Hct
   24.7
   24.7
   Plt
   174
   156
   Cr
   1.9
   1.9
   1.8
   1.9
   TCO2
   35
   36
   35
   39
   38
   37
   Glucose
   130
   124
   129
   129
   Other labs: PT / PTT / INR:16.3/29.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:30/40, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:34/27, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:3.4 g/dL,
   LDH:178 IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Imaging: CXR:  Right lung with volume loss
   Assessment and Plan
   Respiratory failure:  Obesity hypoventilation.  CXR with volume loss on
   right lung - will bronch to assess for airway patency.
   Acute on chronic diastolic CHF:  Volume overload.  Continues on lasix
   drip.
   Fevers:  Source is still unclear.  Subclavian removed.  Will follow up
   cultures.  Left arm slightly enlarged from right, so will get LUENIS
   Agitation/sedation:  Increase methadone, continue fentanyl and versed
   for now as he seems more agitated this morning.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-9**] 01:30 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-11-10 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2141-11-9**] 12:18 PM
   bilat UE for ? clot
 BRONCHOSCOPY - At [**2141-11-9**] 12:50 PM
   spec sent
 SPUTUM CULTURE - At [**2141-11-9**] 01:15 PM
   bronchial wash
 FEVER - 101.2
F - [**2141-11-9**] 12:00 PM
     * bronchoscopy showed plug of granular tissue/mucous at end of
       tracheostomy and large amount of mucous/blood occluding occluding
       RLL branch of the bronchopulmonary tree.  Bronchial washing gram
       stain w/G+cocci.
     * repeat cxr after the bronchoscopy showed no obvious change,
       although O2 sats improved to 98%
     * put back on CMV Assist at 400/f18/PEEP20/100 -> weaned down to 70%
       -> weaned back onto PSV in the evening -> ABG 7.47/50/96/37 but
       patient very restless. Gave haldol, methadone w/out improvment.
       Increased Fentanyl to 100 from 80. Pt still with intermittent desat
       w/copious mucous/bloody secretions -> Back to CMV/Assist, still
       w/intermittent desaturation and +++ agitation
     * UE u/s prelim negative for dvt
     * pm lytes w/Cr 1.9 still
     * A-line not working in am
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-8**] 06:00 AM
   Vancomycin - [**2141-11-10**] 12:14 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 9 mg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-9**] 01:00 PM
   Ranitidine (Prophylaxis) - [**2141-11-9**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-9**] 09:51 PM
   Fentanyl - [**2141-11-9**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-10**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 76 (70 - 91) bpm
   BP: 134/67(81) {134/67(81) - 134/67(81)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,801 mL
                                                                    328 mL
   PO:
             TF:
                                                                    683 mL
                                                                    198 mL
   IVF:
                                                                    349 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    670 mL
   Urine:
                                                                  2,990 mL
                                                                    670 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,689 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 387 (387 - 414) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: 7.43/59/105/37/11
   Ve: 8.3 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese, awake, agitated but does not
   respond to commands.
   Eyes / Conjunctiva: PERRL, proptosis.
   Head, Ears, Nose, Throat: Normocephalic.  Obviously agitated, mouthing
   words emphatically.
   Large neck.  Tracheostomy in place and Oral Dobhoff tube in place.
   Cardiovascular: limited exam, extremely distant irregular heart sounds,
   no murmurs noted
   Respiratory / Chest:  mild crackles and quiet breath sounds sounds
   bilaterally, exam limited by habitus.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Warm
   Neurologic: Agitated, moves all 4 extremities, PEERL
   Labs / Radiology
   173 K/uL
   7.5 g/dL
   90 mg/dL
   1.9 mg/dL
   37 mEq/L
   3.2 mEq/L
   69 mg/dL
   96 mEq/L
   142 mEq/L
   23.8 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-9**]  12:33 AM
                            [**2141-11-9**]  03:16 AM
                            [**2141-11-9**]  05:48 AM
                            [**2141-11-9**]  08:42 AM
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
   WBC
   6.6
   6.0
   Hct
   24.7
   23.5
   23.8
   Plt
   156
   173
   Cr
   1.9
   1.9
   1.9
   TCO2
   39
   38
   37
   39
   37
   37
   40
   Glucose
   129
   113
   90
   Other labs: Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Urine Cx: negative from [**11-7**], Pending from [**11-9**]
   BCx P from [**11-4**], [**11-7**], [**11-9**]
   Sputum from Bronchial washing gram stain is G+ cocci.
   AST: 27/ ALT:11/AP:131/TBili 0.4/Amylase 53/Lipase 29
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w fluid overload, respiratory
   failure and chronic fever s/p CONS bacteremia not responsive to
   vancomycin/pip/tazo.
   #1 Respiratory Failure: Ongoing, unable to wean from vent b/c of
   intermittent acute decompensation with attempts to wean PEEP, FiO2, and
   to transition to pressure support yesterday.   Acute likely [**1-14**] mucous
   plug (as seen on bronchoscopy on [**11-9**]) with contribution from large
   abdomen causing him to take small tidal volumes and possibly fatigue
   his respiratory mucles.  Also with chronic respiratory failure from
   CHF, fluid overload.  PEEP had been weaned to 14 pre-tracheostomy but
   now he cannot tolerate PEEP lower than approx 20 for any period of time
   b/c he eventually becomes hypoxic taking small tidal volumes.
   Sometimes it seems that when he shifts his position and allows his
   abdomen to compress his lungs he tends to do worse.  Patient with very
   thick mucous/bloody secretions as per respiratory and confirmed on
   bronchoscopy on [**11-9**]).  Also seems to do worse when agitated and has
   been very agitated lately.
   - Aggressive suctioning
   - consider NAC nebulizers (mucomist)
   - Attempt to keep him as upright as possible to keep is abdomen from
   compressing his chest
   - continue to attempt to wean PEEP as tolerated BUT SLOWLY!  [**Month (only) 60**]
   increase FiO2 if needed to keep PEEP down.
   - continue diuresis as tolerated by electrolytes, creatinine/BUN to
   improve respiratory status
   - increase methadone dose today as pt. appears uncomfortable.
   .
   #2  Fever: Was afebrile until tracheostomy, has been spiking fevers
   since then (1 week ago) through vanc/pip/tazo and continues to febrile
   today.   Central line pulled two days ago, UE u/s negative for DVT.
   Source of fever still unclear. [**Name2 (NI) 5795**] negative, BCx pending, central line
   tip Cx pending. TTE performed but not optimal study. LFTs, lipase wnl.
   - Consider TEE if continues febrile and/or repeat Bcx become positive.
   - Continue to follow blood, urine, sputum cultures
   - Continue PO vancomycin started [**10-18**] and will end 2 weeks after other
   abxs stopped (stopped on [**11-7**]) which is [**2141-11-20**]
   - Tylenol PRN
   .
   #3 Agitation: Patient Hx of psychiatric disease (?), agitation at
   baseline. Now with increasing agitation as sedation is weaned (which
   needs to happen for patient to be able to go to rehab).  Was on
   Fentanyl 200 drip and 100 patch 4 days ago and now down to 80 drip with
   no patch.  Have been transitioning from Fentanyl to Methadone
   w/continued agitation, likely due to insufficient replacement with
   methadone.  To some extent agitation is expected as opiates are
   w/drawn, need to balance patient
s agitation with goal to wean off of
   vent.
   - increase standing methadone dose until agitation subsides.
   .
   #4 Acute Renal failure:  Unclear baseline.  Fluctuates significantly
   w/diuresis, may need to allow Cr to increase in order to wean from vent
   due to fluid overload.
   -Closely follow UOP to decide if higher dose of Lasix is necessary
   -Continue to follow PM lytes while on Lasix drip.
   - Lasix drip titrate to 130cc/hr UOP may need to increase above
   10mg/hr.
   - Check pm lytes
   .
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  CVP 24 but high PEEP contributing.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding and Hct drop in hospital. CHADS score is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed by IR.  A-line not working any more, can pull
   today.
   .
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-9**] 09:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-26**] 05:57 PM
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-10 10:06:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with respiratory failure, obesity hypoventilation syndrome,
   prolonged ventilation.
   Bronch yesterday after evidence of RLL collapse, removed mucous plug.
   Also found to have granulation tissue on tip of trach tube which was
   advanced.  Patient overnight was desaturating and very agitated.
   Continues febrile.
   24 Hour Events:
 ULTRASOUND - At [**2141-11-9**] 12:18 PM
   bilat UE for ? clot - was negative for clot.
 BRONCHOSCOPY - At [**2141-11-9**] 12:50 PM
   spec sent
 SPUTUM CULTURE - At [**2141-11-9**] 01:15 PM
   bronchial wash
 FEVER - 101.2
F - [**2141-11-9**] 12:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin - [**2141-11-7**] 11:33 AM
   Metronidazole - [**2141-11-8**] 06:00 AM
   Vancomycin - [**2141-11-10**] 06:07 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-9**] 02:15 PM
   Fentanyl - [**2141-11-9**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-10**] 08:54 AM
   Midazolam (Versed) - [**2141-11-10**] 08:55 AM
   Other medications:
   lipitor
   MVI
   labetolol
   zantac
   klonopin
   zaroxolyn
   haldol
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-10**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.8
   HR: 79 (70 - 91) bpm
   BP: 119/71(82) {119/67(81) - 138/81(93)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,801 mL
                                                                    974 mL
   PO:
             TF:
                                                                    683 mL
                                                                    338 mL
   IVF:
                                                                    349 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                  1,330 mL
   Urine:
                                                                  2,990 mL
                                                                  1,330 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,689 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 387 (387 - 387) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 92%
   ABG: 7.43/59/105/37/11
   Ve: 14.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic, agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, agitated, no following commands, moving all 4 limbs
   Labs / Radiology
   7.5 g/dL
   173 K/uL
   90 mg/dL
   1.9 mg/dL
   37 mEq/L
   3.2 mEq/L
   69 mg/dL
   96 mEq/L
   142 mEq/L
   23.8 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-9**]  12:33 AM
                            [**2141-11-9**]  03:16 AM
                            [**2141-11-9**]  05:48 AM
                            [**2141-11-9**]  08:42 AM
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
   WBC
   6.6
   6.0
   Hct
   24.7
   23.5
   23.8
   Plt
   156
   173
   Cr
   1.9
   1.9
   1.9
   TCO2
   39
   38
   37
   39
   37
   37
   40
   Glucose
   129
   113
   90
   Other labs: PT / PTT / INR:16.3/29.6/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Respiratory Failure:  Morbid obesity, obesity-hypoventilation
   syndrome.  Still with severe hypoxemia.  Agitation playing a role in
   desaturation.  Try and switch to PSV today.
   Right lung well expanded today.
   Agitation:  Increasing klonopin and methadone.   If still agitated,
   consider increasing haldol.
   Fevers:  Still having fevers.  Unclear source.  Possibly drug fever
   especially with nl WBC.
   Acute on chronic renal failure and acute on chronic congestive heart
   failure:  Creatinine stable, continue diuresis in attempts to wean.
   AFib:  HR controlled
   DM II
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-9**] 09:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: will discuss with family today overall poor
   prognosis.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-11-11 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-11-10**] 01:48 PM
   - increased clonazepam, methadone, and haldol doses (needs daily EKGs
   to check QTc)
   - pt. contorted himself in bed frequently, dropping his sats; rec'd
   frequent boluses (1-2 mg versed/hr) during day to calm him.
   - A-line removed (not functioning)
   - lasix gtt cont. with good response, aggressive K+ repletion
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-11-8**] 06:00 AM
   Vancomycin - [**2141-11-10**] 12:27 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-10**] 09:15 PM
   Fentanyl - [**2141-11-10**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-11**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 71 (71 - 97) bpm
   BP: 109/63(74) {105/63(72) - 138/98(102)} mmHg
   RR: 12 (10 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,926 mL
                                                                    372 mL
   PO:
             TF:
                                                                    840 mL
                                                                    209 mL
   IVF:
                                                                    336 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  1,330 mL
   Urine:
                                                                  4,100 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,174 mL
                                                                   -958 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 601 (0 - 889) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 11
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 36 cmH2O
   SpO2: 98%
   ABG: ///40/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese, awake, agitated but does not
   respond to commands.
   Eyes / Conjunctiva: PERRL, proptosis.
   Head, Ears, Nose, Throat: Normocephalic.  Obviously agitated, mouthing
   words emphatically.
   Large neck.  Tracheostomy in place and Oral Dobhoff tube in place.
   Cardiovascular: limited exam, extremely distant irregular heart sounds,
   no murmurs noted
   Respiratory / Chest:  mild crackles and quiet breath sounds sounds
   bilaterally, exam limited by habitus.
   Abdominal:  Distended.  Bowel sounds present.  No grimacing with
   palpation.
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Warm
   Neurologic: Agitated, moves all 4 extremities, PEERL
   Labs / Radiology
   173 K/uL
   7.2 g/dL
   104 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.4 mEq/L
   64 mg/dL
   95 mEq/L
   141 mEq/L
   23.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2141-11-9**]  05:48 AM
                            [**2141-11-9**]  08:42 AM
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
   WBC
   6.0
   6.1
   Hct
   23.5
   23.8
   23.4
   Plt
   173
   173
   Cr
   1.9
   1.9
   1.8
   1.6
   TCO2
   38
   37
   39
   37
   37
   40
   Glucose
   113
   90
   84
   104
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with DMII, hypertension,
   AF, cocaine-induced MI in the past who p/w fluid overload, respiratory
   failure and chronic fever s/p CONS bacteremia not responsive to
   vancomycin/pip/tazo.
   #1 Respiratory Failure: Ongoing, unable to wean from vent b/c of
   intermittent acute decompensation with attempts to wean PEEP, FiO2, and
   to transition to pressure support yesterday.   Acute likely [**1-14**] mucous
   plug (as seen on bronchoscopy on [**11-9**]) with contribution from large
   abdomen causing him to take small tidal volumes and possibly fatigue
   his respiratory mucles.  Also with chronic respiratory failure from
   CHF, fluid overload.  PEEP had been weaned to 14 pre-tracheostomy but
   now he cannot tolerate PEEP lower than approx 20 for any period of time
   b/c he eventually becomes hypoxic taking small tidal volumes.
   Sometimes it seems that when he shifts his position and allows his
   abdomen to compress his lungs he tends to do worse.  Patient with very
   thick mucous/bloody secretions as per respiratory and confirmed on
   bronchoscopy on [**11-9**]).  Also seems to do worse when agitated and has
   been very agitated lately.
   - Aggressive suctioning
   - consider NAC nebulizers (mucomist)
   - Attempt to keep him as upright as possible to keep is abdomen from
   compressing his chest
   - continue to attempt to wean PEEP as tolerated BUT SLOWLY!  [**Month (only) 60**]
   increase FiO2 if needed to keep PEEP down.
   - continue diuresis as tolerated by electrolytes, creatinine/BUN to
   improve respiratory status
   - increase methadone dose today as pt. appears uncomfortable.
   .
   #2  Fever: Was afebrile until tracheostomy, has been spiking fevers
   since then (1 week ago) through vanc/pip/tazo and continues to febrile
   today.   Central line pulled two days ago, UE u/s negative for DVT.
   Source of fever still unclear. [**Name2 (NI) 5795**] negative, BCx pending, central line
   tip Cx pending. TTE performed but not optimal study. LFTs, lipase wnl.
   - Consider TEE if continues febrile and/or repeat Bcx become positive.
   - Continue to follow blood, urine, sputum cultures
   - Continue PO vancomycin started [**10-18**] and will end 2 weeks after other
   abxs stopped (stopped on [**11-7**]) which is [**2141-11-20**]
   - Tylenol PRN
   .
   #3 Agitation: Patient Hx of psychiatric disease (?), agitation at
   baseline. Now with increasing agitation as sedation is weaned (which
   needs to happen for patient to be able to go to rehab).  Was on
   Fentanyl 200 drip and 100 patch 4 days ago and now down to 80 drip with
   no patch.  Have been transitioning from Fentanyl to Methadone
   w/continued agitation, likely due to insufficient replacement with
   methadone.  To some extent agitation is expected as opiates are
   w/drawn, need to balance patient
s agitation with goal to wean off of
   vent.
   -          increase standing methadone dose to 15mg TID (from 10mg TID)
   -          increase Haldol to 5mg TID (from [**Hospital1 **])
   -          increase Klonapin to 1mg QID (from TID)
   -          hold 100 of fentanyl, decrease slowly (20% per day?)
   .
   #4 Acute Renal failure:  Unclear baseline.  Fluctuates significantly
   w/diuresis, may need to allow Cr to increase in order to wean from vent
   due to fluid overload.
   -Closely follow UOP to decide if higher dose of Lasix is necessary
   -Continue to follow PM lytes while on Lasix drip.
   - Lasix drip titrate to 130cc/hr UOP may need to increase above
   10mg/hr.
   - Check pm lytes
   .
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  CVP 24 but high PEEP contributing.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding and Hct drop in hospital. CHADS score is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed by IR.  A-line not working any more, can pull
   today.
   .
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-11**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-11 10:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2141-11-10**] 01:48 PM
   -Paitient with continued agitation
   -Patient moving to Methadone/Klonopin for control of agitation
   -Continued negative fluid balance
   -Intermittent hypoxemia
   -Patient with worsening hypoxemia and tracheostomy with near occlusion
   with granulation tissue
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-10**] 12:27 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-11**] 08:33 AM
   Midazolam (Versed) - [**2141-11-11**] 09:32 AM
   Fentanyl - [**2141-11-11**] 09:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.8
   Flowsheet Data as of  [**2141-11-11**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 79 (71 - 97) bpm
   BP: 102/65(73) {92/63(72) - 133/98(102)} mmHg
   RR: 13 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,926 mL
                                                                    874 mL
   PO:
             TF:
                                                                    840 mL
                                                                    362 mL
   IVF:
                                                                    336 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  2,160 mL
   Urine:
                                                                  4,100 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,174 mL
                                                                 -1,286 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 601 (0 - 889) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   173 K/uL
   104 mg/dL
   1.6 mg/dL
   40 mEq/L
   3.4 mEq/L
   64 mg/dL
   95 mEq/L
   141 mEq/L
   23.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2141-11-9**]  05:48 AM
                            [**2141-11-9**]  08:42 AM
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
   WBC
   6.0
   6.1
   Hct
   23.5
   23.8
   23.4
   Plt
   173
   173
   Cr
   1.9
   1.9
   1.8
   1.6
   TCO2
   38
   37
   39
   37
   37
   40
   Glucose
   113
   90
   84
   104
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:172/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR--left sided opacity consistent with collapse
   Microbiology: Bronch-Done for acute hypoxemia
   GPC's--P+C
   TLC-
   -TIP negative
   Assessment and Plan
   53 yo male with prolonged hospital course for persistent ventilatory
   failure and high PEEP requirements with continued active issues of
   difficulty with wean in sedation limited by agitation in the setting of
   a signficiant history of substance abuse.  In addition to his
   significant hypoxemia patient has had continued issues of recurrent
   fevers although decreased in magnitude at this time.
   1) ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Versed 2mg/hr
   -Fentanyl 100mg/hr
   -Haldol
   -Klonopin
   -Methadone
   -Overall patient has sedation required for maintenance of safety and
   move to rehab with patient OOB
   -Titrate to goal of methadone and Klonpin to aid in sedation wean off
   of IV medications
   -Today D/C versed
   2)Respiratory Failure-_Chronic and acute ventilatory failure and
   persistent hypoxemia and requirement for elevated PEEP dosing.  He has
   background hypercarbic and hypoxemic ventilatory failure.  This
   background requirement for ventilation is currently met with Ve=[**6-20**]
   lpm.  He had severe hypoxemia with PEEP requirements currently
   quantified at 20 following bronchoscopy.  He had tracheal obstruction
   at bronchoscopy Friday which was improved.
   -PEEP wean to 18 today
move to esophageal manometry if unable to
   determine optimal PEEP and/or bladder pressure
   -Will need to re-evaluate response in terms of compliance and
   oxygenation
   -Will need to consider recruitment maneuver if oxygenation lost on ABG
   -Albuterol/Atrovent, Continue with PSV
   -Negative fluid balance is reasonable but we have evidence of
   reasonable skin turgor and suggestion of overall improvement in volume
   status from days prior
   -Will need to re-recruit LLL following trach change
   3)Fever--Patient with CVL changes, low--but concerning--fever overnight
   and with gram stain on bronchoscopy showing GPC's but culture results
   pending still.
   -po vanco
   -Follow up culture results
   -Will Rx thrush
   -Has completed Vanco/Zosyn
   4)Atrial Fibrillation-
   -Reasonable rate
   -Persistent rhythm
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-11**] 12:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-11-12 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-11-11**] 08:50 AM
 BLOOD CULTURED - At [**2141-11-11**] 05:30 PM
   from PICC
 URINE CULTURE - At [**2141-11-11**] 05:30 PM
 BLOOD CULTURED - At [**2141-11-11**] 08:10 PM
   venipuncture
 SPUTUM CULTURE - At [**2141-11-11**] 09:45 PM
 FEVER - 102.3
F - [**2141-11-11**] 04:00 PM
   D/c'd midazolam
   d/c'd clonazepam and switched to valium per pharmacy
   Increased methadone
   Did not replace a-line
   Spiked to 102.3 and was pan cultured
   D/c'd Tylenol
   Became uncomfortable o/n talking over trach and was bolused several
   times with Fentanyl and rate was increased back to 100.
   PEEP weaned from 20 to 19.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-11**] 12:30 PM
   Infusions:
   Fentanyl - 110 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-11**] 12:34 PM
   Ranitidine (Prophylaxis) - [**2141-11-11**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-11**] 10:00 PM
   Diazepam (Valium) - [**2141-11-12**] 01:15 AM
   Fentanyl - [**2141-11-12**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-12**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (101
   HR: 91 (75 - 96) bpm
   BP: 132/72(86) {92/59(70) - 141/83(94)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,157 mL
                                                                    370 mL
   PO:
             TF:
                                                                    840 mL
                                                                    225 mL
   IVF:
                                                                    457 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    660 mL
   Urine:
                                                                  3,690 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,783 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (333 - 655) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 19 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 99%
   ABG: ///40/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   7.0 g/dL
   111 mg/dL
   1.7 mg/dL
   40 mEq/L
   3.9 mEq/L
   60 mg/dL
   98 mEq/L
   143 mEq/L
   22.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
   WBC
   6.0
   6.1
   6.0
   Hct
   23.5
   23.8
   23.4
   22.6
   Plt
   173
   173
   184
   Cr
   1.9
   1.9
   1.8
   1.6
   1.7
   1.7
   TCO2
   39
   37
   37
   40
   Glucose
   113
   90
   84
   104
   88
   111
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, fluid overload,
   respiratory failure and persistent fevers post treatment for CONS
   bacteremia and VAP.
   #1 Respiratory Failure: Multifactorial, pulmonary edema is probably
   primary but also large abdomen is compressing chest, causing
   respiratory muscle fatigue and failure to wean from PEEP.  Will need to
   frequently reposition to avoid compression of chest by abdomen and low
   tidal volumes.
   - Aggressive suctioning
   - Aggressive repositioning
   - Attempt to keep him as upright as possible to keep is abdomen from
   compressing his chest
   - continue to attempt to wean PEEP 1mm Hg/day
   - continue diuresis as tolerated by electrolytes, creatinine/BUN to
   improve respiratory status
   - increase methadone dose today as pt. appears uncomfortable.
   - D/C midazolam, switch clonazepam to diazepam because max dose of
   clonazepam is 6mg/day per pharmacy.
   .
   #2  Fever: Was empirically treated for VAP and CONS bacteremia. Blood
   cultures negative since [**10-24**]. Many possible infectious sources
   including sinusitis, C. diff, possible PNA, possible IE. Currently does
   not appear septic. Would hold off Abx for now.
   -          Scan in a.m.
   -          D/c acetaminophen
   .
   -          #3 Agitation: Weaning from IV drip sedation to PO/IV bolus
   meds, may need to bolus w/ fentanyl to keep comfortable while weaning
   drips
   -          -D/C midaz today
   .
   #4 Acute Renal failure:  Unclear baseline.  Cr improving w/ diuresis
   - Check pm lytes
   .
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  CVP 24 but high PEEP contributing.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding and Hct drop in hospital. CHADS score is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed by IR.  A-line pulled yesterday
   .
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-12**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-12 06:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2141-11-11**] 08:50 AM
 BLOOD CULTURED - At [**2141-11-11**] 05:30 PM
   from PICC
 URINE CULTURE - At [**2141-11-11**] 05:30 PM
 BLOOD CULTURED - At [**2141-11-11**] 08:10 PM
   venipuncture
 SPUTUM CULTURE - At [**2141-11-11**] 09:45 PM
 FEVER - 102.3
F - [**2141-11-11**] 04:00 PM
   D/c'd midazolam
   d/c'd clonazepam and switched to valium per pharmacy
   Increased methadone
   Did not replace a-line
   Spiked to 102.3 and was pan cultured
   D/c'd Tylenol
   Became uncomfortable o/n talking over trach and was bolused several
   times with Fentanyl and rate was increased back to 100.
   PEEP weaned from 20 to 19.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-11**] 12:30 PM
   Infusions:
   Fentanyl - 110 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-11**] 12:34 PM
   Ranitidine (Prophylaxis) - [**2141-11-11**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-11**] 10:00 PM
   Diazepam (Valium) - [**2141-11-12**] 01:15 AM
   Fentanyl - [**2141-11-12**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-12**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (101
   HR: 91 (75 - 96) bpm
   BP: 132/72(86) {92/59(70) - 141/83(94)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,157 mL
                                                                    352 mL
   PO:
             TF:
                                                                    840 mL
                                                                    211 mL
   IVF:
                                                                    457 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    660 mL
   Urine:
                                                                  3,690 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,783 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (333 - 655) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 19 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 99%
   ABG: ///40/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   184 K/uL
   111 mg/dL
   1.7 mg/dL
   40 mEq/L
   3.9 mEq/L
   60 mg/dL
   98 mEq/L
   143 mEq/L
   22.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
   WBC
   6.0
   6.1
   6.0
   Hct
   23.5
   23.8
   23.4
   22.6
   Plt
   173
   173
   184
   Cr
   1.9
   1.9
   1.8
   1.6
   1.7
   1.7
   TCO2
   39
   37
   37
   40
   Glucose
   113
   90
   84
   104
   88
   111
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, fluid overload,
   respiratory failure and persistent fevers post treatment for CONS
   bacteremia and VAP.
   #1 Respiratory Failure: Multifactorial, pulmonary edema is probably
   primary but also large abdomen is compressing chest, causing
   respiratory muscle fatigue and failure to wean from PEEP.  Will need to
   frequently reposition to avoid compression of chest by abdomen and low
   tidal volumes.
   - Aggressive suctioning
   - Aggressive repositioning
   - Attempt to keep him as upright as possible to keep is abdomen from
   compressing his chest
   - continue to attempt to wean PEEP 1mm Hg/day
   - continue diuresis as tolerated by electrolytes, creatinine/BUN to
   improve respiratory status
   - increase methadone dose today as pt. appears uncomfortable.
   - D/C midazolam, switch clonazepam to diazepam because max dose of
   clonazepam is 6mg/day per pharmacy.
   .
   #2  Fever: Was empirically treated for VAP and CONS bacteremia. Blood
   cultures negative since [**10-24**]. Many possible infectious sources
   including sinusitis, C. diff, possible PNA, possible IE. Currently does
   not appear septic. Would hold off Abx for now.
   -          Scan in a.m.
   -          D/c acetaminophen
   .
   -          #3 Agitation: Weaning from IV drip sedation to PO/IV bolus
   meds, may need to bolus w/ fentanyl to keep comfortable while weaning
   drips
   -          -D/C midaz today
   .
   #4 Acute Renal failure:  Unclear baseline.  Cr improving w/ diuresis
   - Check pm lytes
   .
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: With prior MI, now with +cocaine on toxin
   screen.  CVP 24 but high PEEP contributing.
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding and Hct drop in hospital. CHADS score is 2 (CHF, DM).
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed by IR.  A-line pulled yesterday
   .
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-12**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2141-11-12 09:29:00 Physician Attending Progress Note
Chief Complaint: REspiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Versed D/C'd
   -Patient with recurrent fever
   -Klonopin changed to Valium for increased liberal dosing
   -Methadone increased to 20mg TID
   24 Hour Events:
 EKG - At [**2141-11-11**] 08:50 AM
 BLOOD CULTURED - At [**2141-11-11**] 05:30 PM
   from PICC
 URINE CULTURE - At [**2141-11-11**] 05:30 PM
 BLOOD CULTURED - At [**2141-11-11**] 08:10 PM
   venipuncture
 SPUTUM CULTURE - At [**2141-11-11**] 09:45 PM
 FEVER - 102.3
F - [**2141-11-11**] 04:00 PM
   -Resolved without Tylenol, cultures sent
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-11**] 12:30 PM
   Infusions:
   Fentanyl - 110 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-11**] 12:34 PM
   Ranitidine (Prophylaxis) - [**2141-11-11**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-11**] 10:00 PM
   Fentanyl - [**2141-11-12**] 07:32 AM
   Diazepam (Valium) - [**2141-11-12**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2141-11-12**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (100.9
   HR: 89 (77 - 96) bpm
   BP: 130/77(88) {102/59(70) - 141/83(94)} mmHg
   RR: 15 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,207 mL
                                                                    644 mL
   PO:
             TF:
                                                                    840 mL
                                                                    315 mL
   IVF:
                                                                    457 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    800 mL
   Urine:
                                                                  3,690 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,733 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 494 (333 - 780) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 19 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 98%
   ABG: ///40/
   Ve: 13.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, Improved even from [**11-11**]
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
PICC site clean in RUE
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
Patient responding to voice
   but not following commands and with vocalizations noted from trach but
   only angry expressions and not directed comments.
   Labs / Radiology
   7.0 g/dL
   184 K/uL
   111 mg/dL
   1.7 mg/dL
   40 mEq/L
   3.9 mEq/L
   60 mg/dL
   98 mEq/L
   143 mEq/L
   22.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-9**]  12:01 PM
                            [**2141-11-9**]  03:10 PM
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
   WBC
   6.0
   6.1
   6.0
   Hct
   23.5
   23.8
   23.4
   22.6
   Plt
   173
   173
   184
   Cr
   1.9
   1.9
   1.8
   1.6
   1.7
   1.7
   TCO2
   39
   37
   37
   40
   Glucose
   113
   90
   84
   104
   88
   111
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:83.4 %, Lymph:9.3 %,
   Mono:3.6 %, Eos:3.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: None new
   Microbiology: No new positive cultures
   Sputum-from Bronchoscopy--oral flora
   Assessment and Plan
   53 yo male with obesity and polysubstance abuse admit with hypercarbic
   respiratory failure with persistent hypoxemia and chronic ventilatory
   support in the setting of tracheostomy has had prolonged ventilatory
   wean.  He has ongoing active issues of fever, C. Diff and need to wean
   PEEP.  Encouragingly patient has had capacity to wean of of IV
   benzodiazepine continuous infusion.
   1)Respiratory Failure-Patient with PSV mode of support in place and has
   maintained good pulmonary compliance in the setting of high PEEP,
   correction of obstruction and continued diruesis with compliance
   currently 40cc/cmH2O.
   -Alb/Atrovent
   -Encouraging findings in regards to diuresis at this time and has had
   pulmonary toilet
   -Wean PEEP today top goal 14 with patient taking reasonable tidal
   volumes and maintaining volume status
   -[**Month (only) 60**] need recruitment from time to time with loss of PEEP to maintain
   open lung units
   2)Acute Renal Failure-Creatinine at 1.7 and has been with reasonable
   diuresis and increasing HCO3-
   -Goal I/O even today
   -Follow up frequently and will use respiratory status to guide need for
   further diuresis
   3)Altered Mental Status-He has a continued issue of agitation and has
   been amenable to re-direction verbally but maintains a significant
   delirium as we are working to diminish multiple sedating medications.
   We do know that patient as baseline is reluctant to actively
   participate in medical care and by report of family and housestaff who
   cared for patient prior to intubation combativeness may be part of
   patient presentation when at baseline.
   -Fentanyl 120ug/hr
   -Haldol 5mg tid
   -Methadone 20mg tid
30mg TID
   -Valium 5-10mg PRN
   -Will need stable dosing of Methadone and Valium to have goal for
   weaning with Haldol supporting background and likely ICU related
   psychosis
   4)Fever--Source not entirely clear and we have a significant concern
   for hospital acquired infection.  The fevers have persisted through
   antibiotics and has had extensive evaluation for sources prior with
   sinusitis, blood stream infection and ventilatory associated pneumonia
   all considered previous infections.  At this time certainly pulmonary
   infection is of concern--however--bronchoscopy without clearly
   significant findings and patient with overall improvement in
   respiratory status.
   -Vanco po
   -Will recheck LFT
s/[**Doctor First Name 429**]/Lipase for recurrent fever
   -Blood cultures negative to date
   -Hemodynamics favorable
   -Possible drug fever and will add diff to evaluate for possible
   alternative sources of fever
   5)Atrial Fibrillation-
   -Stable HR
   -Continued A-Fib
   Additional issues to be managed as described in the housestaff note of
   this date and are summarized below.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERATION IN NUTRITION
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 EPISTAXIS (NOSEBLEED)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   nose bleed
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-12**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-11-13 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2141-11-12**] 03:20 PM
 BLOOD CULTURED - At [**2141-11-12**] 03:32 PM
   set # 3 within 24hrs, drawn from Red PICC line
 FEVER - 102.6
F - [**2141-11-12**] 03:00 PM
   -Continues to spike for unclear reason, 1 cult of PICC
   -increased methadone, haldol. (needs EKG for QTc this am)
   - Versed had been d/ced and put on IV valium but pt agitated
   progressively throughout day, put back on Versed gtt and d/ed valium
   -PEEP remains elevated attempting decrease 1 per day.
   -HCT stable
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-12**] 06:31 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-12**] 01:36 PM
   Fentanyl - [**2141-11-12**] 05:18 PM
   Diazepam (Valium) - [**2141-11-12**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-13**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.6
C (101.4
   HR: 78 (73 - 98) bpm
   BP: 120/81(89) {100/57(68) - 137/91(98)} mmHg
   RR: 9 (9 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                     33 mL
   PO:
             TF:
                                                                    840 mL
   IVF:
                                                                    309 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    590 mL
   Urine:
                                                                  2,245 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -411 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 662 (336 - 780) mL
   PS : 15 cmH2O
   RR (Spontaneous): 13
   PEEP: 17 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 8 L/min
   Physical Examination
   Gen: awake and mouthing words aggressively, does not respond to
   commands
   HEENT: PEERL, proptosis, white membrane on tongue, doboff in place and
   trach in place
   Lungs: improved air movement since yesterday
   Heart: extremely distant heart sounds
   Abd: massively obese, BS+
   Ext: Hands and feet appear dry
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   7.0 g/dL
   138 mg/dL
   1.7 mg/dL
   38 mEq/L
   4.1 mEq/L
   57 mg/dL
   102 mEq/L
   147 mEq/L
   22.4 %
   5.6 K/uL
        [image002.jpg]
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
   WBC
   6.0
   6.1
   6.0
   5.6
   Hct
   23.8
   23.4
   22.6
   23.3
   22.4
   Plt
   173
   173
   184
   186
   Cr
   1.9
   1.8
   1.6
   1.7
   1.7
   1.7
   TCO2
   37
   37
   40
   Glucose
   90
   84
   104
   88
   111
   138
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:65.0 %, Band:2.0 %,
   Lymph:19.0 %, Mono:11.0 %, Eos:3.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.4 g/dL, LDH:176 IU/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, fluid overload,
   respiratory failure and persistent fevers post treatment for CONS
   bacteremia and VAP.
   #1 Respiratory Failure: improving, weaned PEEP to 19 yesterday and 18
   this am w/ weaning FiO2 from 50->40% Still significant contribution by
   body habitus. Pt. appears much more dry than previously
   -          Continue slow diuresis 500cc/day
   -          Hold lasix drip for now
   -          F/u UOP and if trends toward positive would give lasix bolus
   -          Continue frequent repositioning
   -          Use bolus fentanyl for episodes of agitation
   -          Midazolam weaned yesterday
   .
   #2  Fever: Was empirically treated for VAP and CONS bacteremia. Blood
   cultures negative since [**10-24**]. Many possible infectious sources
   including sinusitis, C. diff, possible PNA, possible IE. Spiking higher
   since stopping Tylenol.  Currently does not appear septic. Would hold
   off Abx for now. Also possibly could be gout.
   -          Consider Scan today
   .
   #3 Agitation: Weaning from IV drip sedation to PO/IV bolus meds, may
   need to bolus w/ fentanyl to keep comfortable while weaning drips
   -          -- Increase methadone today
   .
   #4 Acute Renal failure:  Unclear baseline.  Cr stable w/ diuresis.
   .
   # DM: ISS with standing glargine. Blood sugars in normal range
   yesterday.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine
   - [**Month (only) 60**] need to transfuse because pt. has CAD to keep Hct >25
   - Tolerating labetalol
   - Cont. to hold on [**Last Name (un) 239**] until patient more euvolemic
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding CHADS score is 2
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: Hypervolemic extravascularly, continue diuresis as able; replete
   PRN, DM TF until patient cleared by speech/swallow; consider
   post-pyloric tube placement by IR.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed by IR.  Consider replace A-line
   .
   Dispo:  screen for rehab facilities, but unlikely to be accepted on
   Fentanyl and midazolam drips.
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-13 12:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with respiratory failure, prolonged hospitalization.
   Increased meds in order to attempt wean of continuous sedation.
   24 Hour Events:
 SPUTUM CULTURE - At [**2141-11-12**] 03:20 PM
 BLOOD CULTURED - At [**2141-11-12**] 03:32 PM
   set # 3 within 24hrs, drawn from Red PICC line
 FEVER - 102.6
F - [**2141-11-12**] 03:00 PM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-12**] 06:31 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 180 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-12**] 01:36 PM
   Fentanyl - [**2141-11-12**] 05:18 PM
   Diazepam (Valium) - [**2141-11-12**] 08:21 PM
   Other medications:
   methadone 30mg tid
   insulin fixed and SSI
   albuterol
   atrovent
   hep s/q
   zaroxolyn
   labetolol
   allopurinol
   zantac
   lipitor
   NaCl
   Nystatin
   Free H20
   Haldol 7.5mg tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-13**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.3
C (100.9
   HR: 76 (69 - 98) bpm
   BP: 101/68(75) {100/57(68) - 137/91(98)} mmHg
   RR: 12 (8 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,837 mL
                                                                    891 mL
   PO:
             TF:
                                                                    842 mL
                                                                    432 mL
   IVF:
                                                                    310 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                  1,110 mL
   Urine:
                                                                  2,245 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 702 (314 - 811) mL
   PS : 15 cmH2O
   RR (Spontaneous): 8
   PEEP: 17 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: ///38/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Unresponsive to voice
   Labs / Radiology
   7.0 g/dL
   186 K/uL
   138 mg/dL
   1.7 mg/dL
   38 mEq/L
   4.1 mEq/L
   57 mg/dL
   102 mEq/L
   147 mEq/L
   22.4 %
   5.6 K/uL
        [image002.jpg]
                            [**2141-11-9**]  03:31 PM
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
   WBC
   6.0
   6.1
   6.0
   5.6
   Hct
   23.8
   23.4
   22.6
   23.3
   22.4
   Plt
   173
   173
   184
   186
   Cr
   1.9
   1.8
   1.6
   1.7
   1.7
   1.7
   TCO2
   37
   37
   40
   Glucose
   90
   84
   104
   88
   111
   138
   Other labs: PT / PTT / INR:16.6/26.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:65.0 %, Band:2.0 %,
   Lymph:19.0 %, Mono:11.0 %, Eos:3.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.4 g/dL, LDH:176 IU/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   Respiratory Failure:  Obesity Hypoventilation, volume overload.  Looks
   much improved. FiO2 to 0.4, and PEEP to 17.   Agitation likely playing
   prominent role in difficulty weaning.
   On zaroxolyn only currently and staying slightly negative.
   Agitation:  Will continue narcotics at current dose.  Will add seroquel
   and stop haldol as it has not worked and continue to try and wean
   versed, while supplementing with IV versed
   for agitation (bolus only).
   Fever:  Unclear cause, stoping Haldol in case this is drug fever.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-12**] 11:56 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-11-14 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-11-13**] 10:05 AM
 FEVER - 102.3
F - [**2141-11-14**] 12:00 AM
     * d/c haldol, started seroquel instead
     * PEEP weaned to 16 w/out respiratory decompensation
     * Free H2O deficit approx 7L (Na 150)- increase free H2O
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Antibiotics:
   Vancomycin
   Infusions:
   Off sedation as of this AM
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-14**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39.1
C (102.3
   HR: 83 (68 - 85) bpm
   BP: 109/71(79) {101/57(68) - 120/83(89)} mmHg
   RR: 13 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,944 mL
                                                                    568 mL
   PO:
             TF:
                                                                    842 mL
                                                                    193 mL
   IVF:
                                                                    517 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    100 mL
   Urine:
                                                                  1,860 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 672 (314 - 1,002) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: ///39/
   Ve: 8.3 L/min
   Physical Examination
   Gen: alert but not responding to commands, questions
   HEENT: PEERL, proptosis,  doboff in place and trach in place
   Lungs: good air movement while supine, scant wheezes at mid-lung fields
   anteriorly
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, nontender
   Ext: dry skin on feet and hands, no new rashes, wounds, no tender
   joints
   Peripheral Vascular: strong, symmetric radial and DP pulses
   Labs / Radiology
   231 K/uL
   7.5 g/dL
   72 mg/dL
   1.8 mg/dL
   39 mEq/L
   3.9 mEq/L
   56 mg/dL
   104 mEq/L
   150 mEq/L
   24.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
   WBC
   6.0
   6.1
   6.0
   5.6
   6.9
   Hct
   23.8
   23.4
   22.6
   23.3
   22.4
   24.7
   Plt
   173
   173
   184
   186
   231
   Cr
   1.9
   1.8
   1.6
   1.7
   1.7
   1.7
   1.8
   TCO2
   37
   40
   Glucose
   90
   84
   104
   88
   111
   138
   72
   Other labs: PT / PTT / INR:16.7/29.0/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:68.9 %, Band:.0 %,
   Lymph:18.2 %, Mono:7.0 %, Eos:5.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.4 g/dL, LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   #1 Respiratory Failure: Initially treated for VAP, slowly improving
   with decreasing PEEP. Patient did well today on PS at PEEP 14 and FIO2
   40% for quite some time but became agitated, dropped his tidal volume
   and became somewhat apneic. These episodes only occur during agitation
   at this point, and improved with versed bolus and FIO2 to 50%. We will
   continue to wean his PEEP. Per respiratory very little secretions.  On
   admission the patient was actively diuresed so it is unlikely that
   pulmonary edema is a problem at this point. PNA is also unlikely
   however he is still spiking fevers of unknown etiology (see below).
   Will repeat a CXR today as tube seems to be out 1cm and needs to be
   readjusted. Also he is currently off sedation and we are hoping to
   continue to wean sedative medications
   -          Wean fentanyl, versed as tolerated
   -          Continue to ween off PEEP
   -          Adjust tube to 9cm, repeat CXR to verify and check for new
   consolidations
   -          versed prn for agitation
   -          continue nebulizer treatment
   .
   #2  Fever: Still unclear etiology of fevers- ? medications vs.
   infectious cause. This has been going on since admission and continues
   despite antibiotic treatment. Was empirically treated for VAP and CONS
   bacteremia. Blood cultures negative since [**10-24**]. Currently does not
   appear septic and respiratory status is improving which speaks against
   pulmonary infection, trach sample sputum culture still pending.  Last
   urine culture was negative. Sputum cultures from  Haldol was stopped
   yesterday but fevers continued. Also noted on labs was eosinophilia
   which may be incidental or due to drug fever.
   -f/u blood culture
   -f/u sputum culture
   -continue PO vanco for c.diff to finish off course (last day [**11-21**])
   .
   #3 Agitation: Weaning from sedation is proving difficult. He did well
   for most of today but became agitated when sedation was taken off
   completely. We will increase seroquel to 100 [**Hospital1 **] in hopes this will
   help with agitation and decrease need for versed. Will continue to wean
   sedation, as this is a barried to extubation as well as placement in
   rehab.
   .
   -use versed bolus prn agitation
   -slowly wean sedation again
   #4 Acute Renal failure:  Baseline is ?1.5-1.8 per admission notes.  Cr
   has been stable for several days. Likely Cr increase was secondary to
   aggressive diuresis. He has had good urine output on zaroxylin, which
   will be d/c to given hypernatremia and fluid deficit. Also will
   resuscitate slowly with D5
 NS 1L and monitor for improvement in Cr.
   -d/c zaroxylin
   -1L D5 1/2NS
   -trend Cr
   -monitor UOP
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Currently
   hemodynamically stable on this regimen so will not change.
   - cont labetalol
   - diovan 80mg qd po
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding CHADS score is 2
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: tube feeds with free water boluses, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed (L arm)
   .
   Dispo:  continue to wean off sedation and screen for rehabilitation
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-13**] 11:53 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-14 12:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo man with obesity hypoventilation syndrome, prolonged respiratory
   failure.
   24 Hour Events:
 EKG - At [**2141-11-13**] 10:05 AM
 FEVER - 102.3
F - [**2141-11-14**] 12:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-12**] 06:31 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   methadone
   vanco po
   SSI/fixed dose
   heparin
   zaroxolyn
   labetolol
   zantac
   MVI
   lipitor
   colace
   chlorhex
   seroquel
   valsartan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-14**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39
C (102.2
   HR: 95 (68 - 95) bpm
   BP: 122/62(76) {104/59(68) - 130/74(84)} mmHg
   RR: 23 (7 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,944 mL
                                                                  1,292 mL
   PO:
             TF:
                                                                    842 mL
                                                                    425 mL
   IVF:
                                                                    517 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    640 mL
   Urine:
                                                                  1,860 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 622 (622 - 1,002) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 93%
   ABG: ///39/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 2+
   Skin:  Cool
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   231 K/uL
   72 mg/dL
   1.8 mg/dL
   39 mEq/L
   3.9 mEq/L
   56 mg/dL
   104 mEq/L
   150 mEq/L
   24.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2141-11-9**]  09:48 PM
                            [**2141-11-10**]  03:08 AM
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
   WBC
   6.0
   6.1
   6.0
   5.6
   6.9
   Hct
   23.8
   23.4
   22.6
   23.3
   22.4
   24.7
   Plt
   173
   173
   184
   186
   231
   Cr
   1.9
   1.8
   1.6
   1.7
   1.7
   1.7
   1.8
   TCO2
   37
   40
   Glucose
   90
   84
   104
   88
   111
   138
   72
   Other labs: PT / PTT / INR:16.7/29.0/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:68.9 %, Band:2.0 %,
   Lymph:18.2 %, Mono:7.0 %, Eos:5.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.4 g/dL, LDH:176 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   Respiratory Failure:  Increased wheezing.  This morning.    Continue to
   wean PEEP as tolerated.
   Sedation:  Weaned off sedative drips, will try and use bolus only for
   agitation.
   Chronic renal failure:
   Fevers:  continued fevers, no WBC, no clear source.  Could be due to.
   Agitation:  On methadone and seroquel.  Better controlled.  Got up on
   seroquel.
   Hypernatremia:  Increase free water.  Stop zaroxolyn.  Give D5.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-13**] 11:53 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-11-15 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-11-14**] 04:00 PM
   got out huge blood clot and thick sputum
 FEVER - 103.0
F - [**2141-11-15**] 12:00 AM
   [**Known lastname 6175**]:
   -decreased PEEP to 14, FIO2 to 50 d/t apnea
   -CXR w/mucus plug on LUL, improved w/suction and bronch. repeat CXR
   showed....
   -d/c xaroxylin
   -wife wants him transferred to [**Hospital **] rehab if possible.family will
   be here tomorrow
   2:30-3:30 for family meeting
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-12**] 06:31 PM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 1 mg/hour
 now off.
   Other ICU medications:
   Fentanyl - [**2141-11-14**] 10:32 PM
   Midazolam (Versed) - [**2141-11-14**] 10:32 PM
   Other medications:
   Labatolol
   Quetiapine
   Tylenol
   Methadone
   Albuterol
   Ipratropium
   Vanco PO
   ISS
   Heparin SQ
   Nystatin
   Colace
   Senna
   Ranitidine
   MVI
   Chlorhexidine
   Bisacodyl
   Allopurinol
   atorvastatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-15**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 39.2
C (102.5
   HR: 81 (74 - 95) bpm
   BP: 103/61(70) {84/48(58) - 130/71(80)} mmHg, over last day ave SBP
   decreased from 100-120 to (90 -100)
   RR: 15 (12 - 27) insp/min
   SpO2: 100% (74-100)
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  3,908 mL
                                                                  1,966 mL
   PO:
             TF:
                                                                    840 mL
                                                                    232 mL
   IVF:
                                                                  1,598 mL
                                                                  1,254 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    252 mL
   Urine:
                                                                  1,345 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,563 mL
                                                                  1,714 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 594 (310 - 640) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 8.9 L/min
   Physical Examination
   Gen: opens eyes to voicet but not responding to commands, questions
   HEENT: PEERL, proptosis,  doboff in place and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, nontender
   Ext: dry skin on feet and hands, no new rashes, wounds, no tender
   joints
   Peripheral Vascular: strong, symmetric radial and DP pulses
   Labs / Radiology
   229 K/uL
   7.2 g/dL
   145 mg/dL
   2.1 mg/dL
   34 mEq/L
   4.3 mEq/L
   60 mg/dL
   99 mEq/L
   142 mEq/L
   23.7 %
   13.4 K/uL
        [image002.jpg]
   Cr 1.8 to 1.9 to 2.1
   Na 152 to 148 to 142.
   HCO3 38to 34
   CXR: new retrocardial opacity
   Mirco: last Postitive cult [**10-24**] Blood, coag neg staph
   [**10-10**] R nar coag + staph
   [**11-12**] Sputum sparse OP
   [**11-12**], [**11-11**], [**11-9**] Blood pending
   [**11-11**] Urine NG
   [**11-9**] Bronch > 100K OP flora
   [**11-3**] fungal prelim neg
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
   WBC
   6.1
   6.0
   5.6
   6.9
   13.4
   Hct
   23.4
   22.6
   23.3
   22.4
   24.7
   23.7
   Plt
   173
   184
   186
   231
   229
   Cr
   1.8
   1.6
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   TCO2
   40
   Glucose
   84
   104
   88
   111
   138
   72
   130
   145
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:68.9 %, Band:2.0 %,
   Lymph:18.2 %, Mono:7.0 %, Eos:5.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.4 g/dL, LDH:176 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   #1 Respiratory Failure: Initially treated for VAP, slowly improving
   with decreasing PEEP. Patient did well today on PS at PEEP 14 and FIO2
   40% for quite some time but became agitated, dropped his tidal volume
   and became somewhat apneic. These episodes only occur during agitation
   at this point, and improved with versed bolus and FIO2 to 50%. We will
   continue to wean his PEEP. Per respiratory very little secretions.  On
   admission the patient was actively diuresed so it is unlikely that
   pulmonary edema is a problem at this point. PNA is also unlikely
   however he is still spiking fevers of unknown etiology (see below).
   Will repeat a CXR today as tube seems to be out 1cm and needs to be
   readjusted. Also he is currently off sedation and we are hoping to
   continue to wean sedative medications
   -          Wean fentanyl, versed as tolerated
   -          Continue to ween off PEEP
   -          Adjust tube to 9cm, repeat CXR to verify and check for new
   consolidations
   -          versed prn for agitation
   -          continue nebulizer treatment
   .
   #2  Fever: Still unclear etiology of fevers- ? medications vs.
   infectious cause. This has been going on since admission and continues
   despite antibiotic treatment. Was empirically treated for VAP and CONS
   bacteremia. Blood cultures negative since [**10-24**]. Currently does not
   appear septic and respiratory status is improving which speaks against
   pulmonary infection, trach sample sputum culture still pending.  Last
   urine culture was negative. Sputum cultures from  Haldol was stopped
   yesterday but fevers continued. Also noted on labs was eosinophilia
   which may be incidental or due to drug fever.
   -f/u blood culture
   -f/u sputum culture
   -continue PO vanco for c.diff to finish off course (last day [**11-21**])
   .
   #3 Agitation: Weaning from sedation is proving difficult. He did well
   for most of today but became agitated when sedation was taken off
   completely. We will increase seroquel to 100 [**Hospital1 **] in hopes this will
   help with agitation and decrease need for versed. Will continue to wean
   sedation, as this is a barried to extubation as well as placement in
   rehab.
   .
   -use versed bolus prn agitation
   -slowly wean sedation again
   #4 Acute Renal failure:  Baseline is ?1.5-1.8 per admission notes.  Cr
   has been stable for several days. Likely Cr increase was secondary to
   aggressive diuresis. He has had good urine output on zaroxylin, which
   will be d/c to given hypernatremia and fluid deficit. Also will
   resuscitate slowly with D5
 NS 1L and monitor for improvement in Cr.
   -d/c zaroxylin
   -1L D5 1/2NS
   -trend Cr
   -monitor UOP
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Currently
   hemodynamically stable on this regimen so will not change.
   - cont labetalol
   - diovan 80mg qd po
   .
   # Atrial fibrillation: Rate well controlled.  Not anticoagulated [**1-14**]
   bleeding CHADS score is 2
   - not an anticoagulation candidate due to repeat bleeds.
   - Labetolol for rate control
   .
   # Gout: Stable, continue Allopurinol
   .
   FEN: tube feeds with free water boluses, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed (L arm)
   .
   Dispo:  continue to wean off sedation and screen for rehabilitation
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-14**] 11:50 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-15 12:51:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo with obesity hypoventilation, respiratory failure.
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-11-14**] 04:00 PM
   got out huge blood clot and thick sputum
 FEVER - 103.0
F - [**2141-11-15**] 12:00 AM
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-12**] 06:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-14**] 10:32 PM
   Fentanyl - [**2141-11-14**] 10:32 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-15**] 08:00 AM
   Other medications:
   methadone
   nebs
   labetolol
   allupurinol
   lipitor
   chlorhex.
   valasartan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-15**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 39.3
C (102.7
   HR: 88 (74 - 95) bpm
   BP: 104/53(65) {84/48(58) - 116/71(101)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  3,908 mL
                                                                  3,306 mL
   PO:
             TF:
                                                                    840 mL
                                                                    435 mL
   IVF:
                                                                  1,598 mL
                                                                  1,996 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    472 mL
   Urine:
                                                                  1,345 mL
                                                                    472 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,563 mL
                                                                  2,834 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 575 (383 - 612) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   229 K/uL
   145 mg/dL
   2.1 mg/dL
   34 mEq/L
   4.3 mEq/L
   60 mg/dL
   99 mEq/L
   142 mEq/L
   23.7 %
   13.4 K/uL
        [image002.jpg]
                            [**2141-11-10**]  03:30 AM
                            [**2141-11-10**]  02:08 PM
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
   WBC
   6.1
   6.0
   5.6
   6.9
   13.4
   Hct
   23.4
   22.6
   23.3
   22.4
   24.7
   23.7
   Plt
   173
   184
   186
   231
   229
   Cr
   1.8
   1.6
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   TCO2
   40
   Glucose
   84
   104
   88
   111
   138
   72
   130
   145
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:81.9 %, Band:2.0 %,
   Lymph:9.5 %, Mono:5.5 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:176 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Fevers:  High fevers since yesterday with increasing WBC.  CXR with new
   LLL PNA and ? of collapse.  Will rebronch and start broad spectrum
   antibiotics with vanco and meropenem.
   Respiratory failure:  Continue current vent settings.
   Sedation:  currently well sedated, holding sedation.
   Acute on chronic renal failure:  Could be related to sepsis.   Giving
   IVF.
   AFIB: HR controlled
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-14**] 11:50 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-11-16 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-11-15**] 02:15 PM
 BLOOD CULTURED - At [**2141-11-15**] 04:45 PM
   off PICC
 BLOOD CULTURED - At [**2141-11-16**] 12:01 AM
 URINE CULTURE - At [**2141-11-16**] 06:00 AM
 FEVER - 102.7
F - [**2141-11-15**] 12:00 PM
   -bronch without further mucous plugging, suggestive PNA, BAL cult sent
   -WBC increase, SBP trending down, UO decreased, fever curve increasing
   suggestive septic, likely [**1-14**] PNA
   -constant fever since [**11-13**] pm
   -started on vanco and doripenem for PNA
   - Urine with odd sediment this am, foley changed, U cult sent
   -given total of 2 L NS bolus
   -family meeting, pt still full code
   -nursing reports grimacing, pain with R leg movement.
   -aggitated early am after converted to fentanyl and versed bolus (did
   not get fentanyl for hours). Now back on versed gtt.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-16**] 12:05 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-15**] 04:00 PM
   Midazolam (Versed) - [**2141-11-16**] 05:30 AM
   Fentanyl - [**2141-11-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-16**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.9
C (102.1
   HR: 87 (78 - 89) bpm
   BP: 96/62(69) {84/50(54) - 115/69(101)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    Telemetry : PVCs, atrial fib
   Total In:
                                                                  5,574 mL
                                                                  2,655 mL
   PO:
   TF:
                                                                    840 mL
                                                                    219 mL
   IVF:
                                                                  3,399 mL
                                                                  2,001 mL
   Blood products:
   Total out:
                                                                    782 mL
                                                                    225 mL
   Urine:
                                                                    782 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,792 mL
                                                                  2,430 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (473 - 767) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 12.4 L/min
   Physical Examination
   Gen: opens eyes to voicet but not responding to commands, questions.
   Appears uncomfortable, is trying to turn to left as though he is having
   R hip or back pain
   HEENT: PEERL, proptosis,  doboff in place and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, nontender
   Ext: dry skin on feet and hands, no new rashes, wounds; tender to
   palpation over R knee, nontender over R hip or ankle, no R sided CVA
   tenderness. Pain with external rotation of R hip.
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Labs / Radiology
   197 K/uL
   6.9 g/dL
   95 mg/dL
   2.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   71 mg/dL
   99 mEq/L
   139 mEq/L
   21.9 %
   13.9 K/uL
        [image002.jpg]
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
   WBC
   6.1
   6.0
   5.6
   6.9
   13.4
   13.9
   Hct
   23.4
   22.6
   23.3
   22.4
   24.7
   23.7
   21.9
   Plt
   173
   184
   186
   [**Telephone/Fax (3) 6850**]
   Cr
   1.6
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   Glucose
   104
   88
   111
   138
   72
   130
   145
   107
   95
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:81.9 %, Band:2.0 %,
   Lymph:9.5 %, Mono:5.5 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:176 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   UA positive for mod bacteria, WBC, RBC
   UCx, sputum pending
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   #1 Respiratory Failure: Treated in the earlier on this admission for
   VAP now new concern for PNA given post-bronch CXR still looks like he
   has consolidations(?retrocardiac opacity), also with continuous fevers
   and leukocytosis. In the setting of slowly dropping mean BPs he could
   very well be in sepsis, however it is not certain that the source is
   pulmonary. Saturations have been good today and but is difficult to
   wean off vent. No further issues at this time with mucus plugging.
   -          Continue to ween off PEEP as tolerated
   -          Versed drip, bolus prn agitation
   -          continue nebulizer treatment
   -          f/u BAL, cultures
   -          on IV vanco and doripenem for ?sepsis
   .
   #2  Fever: As above fevers with no clear source. Today
s UA is
   indicative of bacterial infection which is covered by doripenem.  Will
   follow up on blood and urine cultures, as well as pending sputum
   culture and BAL. Other thoughts include gout (patient has been
   receiving allopurinol but has been fluid down since admission and
   losing hydration via long-term vent and fevers) and given his tender
   knee on exam this could be the source of fever. Also to consider is
   meningitis however no reason to suspect this, he does not show signs of
   meningismus and mental status has been stable for some time. Continue
   antibiotics for now but once source is identify would narrow down
   coverage to decrease likelihood of causing resistance.
   -f/u blood culture
   -continue PO vanco for c.diff to finish off course (last day [**11-21**])
   - added IV vanco 1g q24h and Doripenem 250mg q8h
   -tap knee and consult rheum if necessary
   -new blood and sputum cultures 12/3
   .
   #3 Agitation: Having difficulty weaning from sedation. Per pharmacy
   recs will change methadone to 20mg tid dosing in hopes of keeping a
   steady opioid level during the day will help with weaning of sedation
   drip.
   -use versed bolus prn agitation, attempt to wean off drip
   -methadone 20mg tid po
   -seroquel
   #4 Acute Renal failure:  Creatinine has been slowly increasing over
   several days which is also likely pre-renal dehydration. Will renally
   dose his medications, including allopurinol today. Otherwise there is
   no reason to suspect intrinsic renal disease. Zaroxylin and lasix have
   been stopped, and fluid boluses were initiated both for rising Cr and
   hypotensive episodes. This is again concerning for sepsis.
   -renally dose medications
   -1L NS bolus prn
   -trend Cr
   -monitor UOP
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Several episodes
   of hypotension so labetalol and diovan will be held for now.
   - hold labetalol for hypotension
   - d/c diovan given hypotension
   .
   # Atrial fibrillation: Rate well controlled.  Meds held as above. Will
   monitor telemetry closely
   - not an anticoagulation candidate due to repeat bleeds.
   .
   # Gout: Could potentially be the cause of his knee pain especially in
   the setting of dehydration and infection. Will tap knee today and send
   off cell count/cytology and cultures. ? Rheum consult.
   -f/u tap sample labs
   .
   FEN: tube feeds with free water boluses, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed (L arm)- ? need to pull this if fevers [**Male First Name (un) **]
   improve
   .
   Dispo:  continue to wean off sedation, monitor for worsening sepsis
   .
   CODE: FULL , family meeting [**11-15**]
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-15**] 11:48 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-16 11:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo man with obesity hypoventilation syndrome, chronic respiratory
   failure, prolonged ICU stay, recently with increased fevers, HOTN,
   leukocytosis.
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-11-15**] 02:15 PM
 BLOOD CULTURED - At [**2141-11-15**] 04:45 PM
   off PICC
 BLOOD CULTURED - At [**2141-11-16**] 12:01 AM
 URINE CULTURE - At [**2141-11-16**] 06:00 AM
 FEVER - 102.7
F - [**2141-11-15**] 12:00 PM
   agitated so placed back on fentanyl and versed
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-16**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-16**] 05:30 AM
   Fentanyl - [**2141-11-16**] 05:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-11-16**] 08:00 AM
   Other medications:
   methadone
   vanco
   SSI
   albuterol/atrovent
   labetolol (held)
   allopurinol
   zantac
   lipitor
   nystatin
   seroquel 100 tid
   doripenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-16**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.3
C (101
   HR: 74 (74 - 91) bpm
   BP: 72/42(49) {72/42(49) - 113/69(80)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  5,574 mL
                                                                  3,915 mL
   PO:
             TF:
                                                                    840 mL
                                                                    371 mL
   IVF:
                                                                  3,399 mL
                                                                  3,059 mL
   Blood products:
   Total out:
                                                                    782 mL
                                                                    475 mL
   Urine:
                                                                    782 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,792 mL
                                                                  3,440 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (520 - 767) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: right knee is tender with pain on movement
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   197 K/uL
   95 mg/dL
   2.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   71 mg/dL
   99 mEq/L
   139 mEq/L
   21.9 %
   13.9 K/uL
        [image002.jpg]
                            [**2141-11-11**]  03:33 AM
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
   WBC
   6.1
   6.0
   5.6
   6.9
   13.4
   13.9
   Hct
   23.4
   22.6
   23.3
   22.4
   24.7
   23.7
   21.9
   Plt
   173
   184
   186
   [**Telephone/Fax (3) 6850**]
   Cr
   1.6
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   Glucose
   104
   88
   111
   138
   72
   130
   145
   107
   95
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:215/6/0.03, ALT / AST:[**11-9**], Alk Phos / T Bili:131/0.4,
   Amylase / Lipase:53/29, Differential-Neuts:81.9 %, Band:2.0 %,
   Lymph:9.5 %, Mono:5.5 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:176 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: U/A 21-50 WBCs, moderate bacteria
   Microbiology: urine and BAL Pending.
   Assessment and Plan
   Respiratory failure:  ween Peep by 1 today.
   Fevers/HOTN:  evidence of sepsis/active infection with increased WBC,
   although fever curve slightly down since starting antibiotics.  Likely
   sources either lungs with VAP or urine source.
   Septic knee seems less likely, but will tap it.  Check LFTs, amylase,
   and lipase as part of fever workup.
   Right knee pain:  will tap right knee to w/u gout vs. septic knee.
   Acute on chronic renal failure:  replete fluids, as may be dry in
   setting of sepsis from infection.
   Pain:  will dose methadone at lower dose more frequently.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-15**] 11:48 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: famliy meeting yesterday - see prior note.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-11-17 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 WOUND CULTURE - At [**2141-11-16**] 03:15 PM
   right knee abcess fluid sent
     * knee tapped: needle shaped neg birefringent crystals  C/W
       Monosodium Urate - 4000 wbc, 125 RBC
     * went down 1 on peep, tolerated well
     * LFTs done, AP stable but sl elevated
     * allopurinol dose decreased due to compromised renal function
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-17**] 05:40 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-16**] 05:25 PM
   Fentanyl - [**2141-11-16**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-16**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-17**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.2
   HR: 71 (68 - 91) bpm
   BP: 91/58(66) {72/42(49) - 104/71(79)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  6,418 mL
                                                                    659 mL
   PO:
             TF:
                                                                    840 mL
                                                                    228 mL
   IVF:
                                                                  4,363 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    680 mL
   Urine:
                                                                  1,055 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,363 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (339 - 589) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9 L/min
   Physical Examination
   Gen: opens eyes to voicet but not responding to commands, questions.
   Appears uncomfortable, is trying to turn to left as though he is having
   R hip or back pain
   HEENT: PEERL, proptosis,  doboff in place and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, nontender
   Ext: dry skin on feet and hands, no new rashes, wounds; tender to
   palpation over R knee, nontender over R hip or ankle, no R sided CVA
   tenderness. Pain with external rotation of R hip.
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Labs / Radiology
   220 K/uL
   6.8 g/dL
   95 mg/dL
   2.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   71 mg/dL
   99 mEq/L
   139 mEq/L
   21.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
   WBC
   6.0
   5.6
   6.9
   13.4
   13.9
   8.7
   Hct
   22.6
   23.3
   22.4
   24.7
   23.7
   21.9
   21.8
   Plt
   184
   186
   231
   [**Telephone/Fax (3) 6883**]
   Cr
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   Glucose
   88
   111
   138
   72
   130
   145
   107
   95
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:465/6/0.03, ALT / AST:27/50, Alk Phos / T Bili:136/0.4,
   Amylase / Lipase:39/26, Differential-Neuts:83.3 %, Band:2.0 %,
   Lymph:9.0 %, Mono:3.3 %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:205 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   #1 Respiratory Failure: Treated in the earlier on this admission for
   VAP now new concern for PNA given post-bronch CXR still looks like he
   has consolidations(?retrocardiac opacity), also with continuous fevers
   and leukocytosis. In the setting of slowly dropping mean BPs he could
   very well be in sepsis, however it is not certain that the source is
   pulmonary. Saturations have been good today and but is difficult to
   wean off vent. No further issues at this time with mucus plugging.
   -          Continue to ween off PEEP as tolerated
   -          Versed drip, bolus prn agitation
   -          continue nebulizer treatment
   -          f/u BAL, cultures
   -          on IV vanco and doripenem for ?sepsis
   .
   #2  Fever: As above fevers with no clear source. Today
s UA is
   indicative of bacterial infection which is covered by doripenem.  Will
   follow up on blood and urine cultures, as well as pending sputum
   culture and BAL. Other thoughts include gout (patient has been
   receiving allopurinol but has been fluid down since admission and
   losing hydration via long-term vent and fevers) and given his tender
   knee on exam this could be the source of fever. Also to consider is
   meningitis however no reason to suspect this, he does not show signs of
   meningismus and mental status has been stable for some time. Continue
   antibiotics for now but once source is identify would narrow down
   coverage to decrease likelihood of causing resistance.
   -f/u blood culture
   -continue PO vanco for c.diff to finish off course (last day [**11-21**])
   - added IV vanco 1g q24h and Doripenem 250mg q8h
   -tap knee and consult rheum if necessary
   -new blood and sputum cultures 12/3
   .
   #3 Agitation: Having difficulty weaning from sedation. Per pharmacy
   recs will change methadone to 20mg tid dosing in hopes of keeping a
   steady opioid level during the day will help with weaning of sedation
   drip.
   -use versed bolus prn agitation, attempt to wean off drip
   -methadone 20mg tid po
   -seroquel
   #4 Acute Renal failure:  Creatinine has been slowly increasing over
   several days which is also likely pre-renal dehydration. Will renally
   dose his medications, including allopurinol today. Otherwise there is
   no reason to suspect intrinsic renal disease. Zaroxylin and lasix have
   been stopped, and fluid boluses were initiated both for rising Cr and
   hypotensive episodes. This is again concerning for sepsis.
   -renally dose medications
   -1L NS bolus prn
   -trend Cr
   -monitor UOP
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Several episodes
   of hypotension so labetalol and diovan will be held for now.
   - hold labetalol for hypotension
   - d/c diovan given hypotension
   .
   # Atrial fibrillation: Rate well controlled.  Meds held as above. Will
   monitor telemetry closely
   - not an anticoagulation candidate due to repeat bleeds.
   .
   # Gout: Could potentially be the cause of his knee pain especially in
   the setting of dehydration and infection. Will tap knee today and send
   off cell count/cytology and cultures. ? Rheum consult.
   -f/u tap sample labs
   .
   FEN: tube feeds with free water boluses, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed (L arm)- ? need to pull this if fevers [**Male First Name (un) **]
   improve
   .
   Dispo:  continue to wean off sedation, monitor for worsening sepsis
   .
   CODE: FULL , family meeting [**11-15**]
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-16**] 10:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-18 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2141-11-17**] 12:00 PM
   -dobhoff moved overnight, still needed to be advanced 10 cm this am.
   given 2 versed overnight
   -7 am pt
s trach fell out, replaced without incident, dobhoff pulled.
   -abd distention significantly worse, KUB with 12 cm colon.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2141-11-17**] 11:54 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-18**] 01:47 AM
   Heparin Sodium (Prophylaxis) - [**2141-11-18**] 04:00 AM
   Fentanyl - [**2141-11-18**] 06:00 AM
   Other medications:
   flagyl
   Prednisone 20mg daily x 3 days
   Colchicine
   Ipratriopium
   Vanco
   Allopurinol
   Methadone
   Fentanyl
   Versed prn
   Seroquel
   Tylenol
   Albuterol
   ISS
   Nystatin
   Colace
   Senna
   Ranitidine
   MVI
   Artifical tears
   Chlorhexidine
   Bisacodyl
   Atorvastatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-18**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.4
   HR: 85 (72 - 108) bpm
   BP: 121/71(84) {93/57(33) - 137/93(103)} mmHg
   RR: 20 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,845 mL
                                                                    721 mL
   PO:
             TF:
                                                                    779 mL
                                                                    186 mL
   IVF:
                                                                    646 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    900 mL
   Urine:
                                                                  2,440 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -595 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (340 - 436) mL
   PS : 15 cmH2O
   RR (Spontaneous): 34
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 11.2 L/min
   Physical Examination
   Gen: opens eyes to voice but not responding to commands, questions.
   Appears uncomfortable. But no longer withdrawing to touch on right knee
   HEENT: PEERL, proptosis,  doboff removed and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, distended and firm (a new finding)
   non-tender, tympanic to percusion
   Ext: dry skin on feet and hands, no new rashes, wounds; no longer
   tender to palpation over R knee,
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   6.8 g/dL
   141 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   74 mg/dL
   101 mEq/L
   140 mEq/L
   21.8 %
   8.7 K/uL
        [image002.jpg]
   Cr. 2.8 to 2.3 to 1.8
   Micro: [**11-12**] blood NG, [**11-15**] to [**11-17**] pending
   [**11-16**] Urine NG
   Knee tap: 2+ polys, NG
   KUB:  distended bowel Large > small intestine. Splenic flexure 8.4cm,
   RLL colon 12 cm.
                            [**2141-11-11**]  03:20 PM
                            [**2141-11-12**]  03:26 AM
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
   WBC
   6.0
   5.6
   6.9
   13.4
   13.9
   8.7
   Hct
   22.6
   23.3
   22.4
   24.7
   23.7
   21.9
   21.8
   Plt
   184
   186
   231
   [**Telephone/Fax (3) 6883**]
   Cr
   1.7
   1.7
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   2.3
   Glucose
   88
   111
   138
   72
   130
   145
   107
   95
   141
   Other labs: PT / PTT / INR:16.8/30.8/1.5, CK / CKMB /
   Troponin-T:465/6/0.03, ALT / AST:27/50, Alk Phos / T Bili:136/0.4,
   Amylase / Lipase:39/26, Differential-Neuts:83.3 %, Band:2.0 %,
   Lymph:9.0 %, Mono:3.3 %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:205 IU/L, Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   # Cdiff colitis: last positive cdiff [**10-16**], on PO vanco. Today new
   increase in abd distention. KUB concerning, 12 cm RLL colon. Read
   suggests ileus but concerning for toxic megacolon given history.
   -          NG tube for decompression
   -          Start IV flagyl on top of PO vanco
   -          Surgery consult pending
   -          PO contrast CT abd
   # Respiratory Failure: It is still unclear why vent wean is going so
   slowly.  It is unlikely that he has a VAP at this point given negative
   cultures (some still pending).  We are continuing to attempt to
   decrease PEEP each day, currently on 14-16 and FIO2 of 50%. He is
   resistant to decreasing PEEP further, when attempted he desats,
   especially  during periods of agitation (?[**1-14**] pain, insufficient
   sedation.
   -          Continue to ween off PEEP as tolerated
   -          Versed and fentanyl bolus for agitation prn
   -          continue nebulizer treatment
   -          f/u BAL, cultures
   -          d/c doripenem and IV vanco  for fever and ?sepsis since BAL
   and cultures remain negative
   .
   #  Fever: Given positive tap for gout, this was likely the underlying
   etiology. However cannot rule out infectious source completely given
   repeated fever spikes, hypotension. Will treat gout and follow up on
   outstanding cultures. At this point it is unlikely due to a drug
   fever.  It is possible he is seeding from somewhere like heart valve,
   intra-abdominal process, but given we have a positive knee tap for gout
   we will treat this and not look for another nidus of infection. If he
   continues to spike despite gout treatment and resolution would continue
   to keep looking for the source of his fevers.
   -f/u blood culture, BAL, sputum cx
   -continue PO vanco for c.diff (longer course now that he
s back on IV
   antibiotics)
   - added IV vanco 1g q24h and Doripenem 250mg q8h
   -treat gout w/colchicine and prednisone
   -continue to trend fever curve, do not need to culture every day
   .
   # Gout: Positive knee tap. Renally dosed allopurinol, and added on
   colchicine (also renally dosed) and prednisone. Continue to bolus IV
   fluids.
   -allopurinol, colchicine and prednisone
   .
   # Agitation: Brief periods of agitation causing increased respiratory
   work. [**Month (only) 60**] be secondary to pain since he is also tachycardic and goes up
   in BP during these episodes. Methadone to 20mg tid and seroquel daily
   for pain and sedation, and continuing to wean off IV sedation slowly.
   -use versed bolus prn agitation, attempt to wean off drip
   -methadone 20mg tid po
   -seroquel qd
   # Acute Renal failure:  Creatinine has been slowly increasing over
   several days which is also likely pre-renal dehydration. He has been
   responsive to IV boluses with improved urine output and a decrease in
   Cr. He has multiple reasons for dehydration including long-term MV and
   fever. Will continue to hydrate prn and monitor UOP
   -renally dose medications
   -1L NS bolus prn
   -trend Cr
   -monitor UOP
   -no need for HD at this time
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Restarted
   labetalol and diovan. Monitor closely as pt has periods of hypotension.
   .
   # Atrial fibrillation: Rate well controlled on labetalol.
   - not an anticoagulation candidate due to repeat bleeds.
   .
   FEN: tube feeds with free water boluses, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC placed (L arm)
   .
   Dispo:  continue to wean off sedation
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-19 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tracheostomy fell out [**11-18**] am, replaced but dobhoff removed
   - Bronchoscopy showed collapsible airways -> tracheostomy advanced
   - New NG tube placed
   - Increased abd distension. CT abd with PO contrast showed air fluid
   levels, distended cecum, air in rectum, but no evidence of colitis.
   Surgery consulted, no surgical intervention at this time.
   - Flagyl added to PO vanco for cdiff
   - Back on fentanyl and versed gtt [**1-14**] agitation after not getting po
   meds yesterday b/c of self-d/c dobhoff
   - Pt self d/c flexiseal this am, per nursing blood in foley [**1-14**] trauma
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Antibiotics:
   Vancomycin
   Metronidazole
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2141-11-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-11-19**] 04:00 AM
   Midazolam (Versed) - [**2141-11-19**] 05:00 AM
   Fentanyl - [**2141-11-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-19**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.8
C (100.1
   HR: 105 (80 - 105) bpm
   BP: 134/97(105) {105/66(76) - 159/105(114)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,380 mL
                                                                    354 mL
   PO:
                                                                    800 mL
             TF:
                                                                    186 mL
   IVF:
                                                                    644 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  3,785 mL
                                                                  1,480 mL
   Urine:
                                                                  3,785 mL
                                                                  1,455 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,406 mL
                                                                 -1,126 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 562 (384 - 562) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 98%
   ABG:
   Ve: 13.8 L/min
   Physical Examination
   Gen: opens eyes to voice, generally not responding to commands but did
   move toes on command. Appears more comfortable today. No longer
   withdrawing to touch on right knee
   HEENT: PEERL, proptosis,  NG and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, distended but soft, NTTP
   Ext: dry skin on feet and hands, no new rashes, wounds; no longer
   tender to palpation over R knee,
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Neuro: Moves all 4 extremities spontaneously. Opens eyes to voice and
   moved toes to command.
   Labs / Radiology
   278 K/uL
   6.9 g/dL
   117 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   63 mg/dL
   105 mEq/L
   143 mEq/L
   21.8 %
   7.0 K/uL
        [image002.jpg]
                            [**2141-11-12**]  09:40 AM
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
                             [**2141-11-18**]  06:00 AM
                             [**2141-11-19**]  04:01 AM
   WBC
   5.6
   6.9
   13.4
   13.9
   8.7
   6.7
   7.0
   Hct
   23.3
   22.4
   24.7
   23.7
   21.9
   21.8
   21.5
   21.8
   Plt
   186
   231
   229
   197
   220
   249
   278
   Cr
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   2.3
   1.8
   1.6
   Glucose
   138
   72
   130
   145
   107
   95
   141
   54
   117
   Other labs:
   PT / PTT / INR:17.2/26.0/1.6
   Ca++:9.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Micro:
   Right knee aspirate: no growth
   BCx, UCx [**11-18**]
   UCx [**11-16**] negative
   BCx [**11-15**]
 [**11-18**] pending
   Radiologic:
   Abdominal CT: 1. mildly distended cecum to 9mm 2. scattered colonic
   air-fluid levels; no pneomotosis or bowel wall thickening 3. B/L
   pleural effusions with associated atelectasis v consolidation
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   .
   # Fever: Unclear source. Patient has had fever for >1 week continuously
   after short period of being afebrile.  Patient has otherwise been
   febrile through entire stay. Positive cultures are limited to: MSSA
   positive nasal swab on [**10-10**] (from purulent exudate), 1x positive Cdiff
   ([**10-16**]), and 2x positive BCx with Coag negative staph resistant to
   Oxacillin ([**10-22**] and [**10-24**]). All other cultures have since been
   negative, including mycolitic and AFB blood cultures on [**11-3**].  Had
   arthrocentesis that showed gout, which may have contributed to fever,
   although patient has been treated and seems clinically improved (is no
   longer withdrawing from palpation to R knee) but is still spiking
   fevers.  Patient has had 2x abdominal CT that did not show source of
   infection. Most recent abdominal/pelvis CT w/PO contrast showed
   distention but no other evidence of colitis or other nidus of
   infection.  Patient has had normal RUQ u/s and normal LFTs as well.
   Patient had TTE with decent visualization of the mitral and aortic
   valves that showed no endocarditis, and patient has had no positive
   blood cultures throughout the last 3 weeks of spiking temperatures.
   Haldol was d/c approximately one week ago for concern of NMS w/out
   resolution of fever.  Patient with no focal neurologic findings
   (although exam is admittedly limited due to patients mental status and
   body habitus) to suggest epidural abscess, but patient likely not a
   candidate for MRI regardless.  Dorepenem and IV vancomycin d/c after
   several days of empiric treatment without source and continued fever.
   -check stool for Cdiff (last was [**10-16**])
   -continue empiric cdiff management with po vanco and IV flagyl
   -f/u blood culture, BAL, sputum cx
   -continue to treat gout w/colchicine and prednisone
   -continue to trend fever curve, do not need to culture every day
   .
   # Respiratory Failure: Initially a result of decompensated CHF in
   setting of cocaine abuse.  Unable to wean PEEP below 14 during any
   portion of MICU stay (last time was immediately pre-tracheostomy).  It
   is still unclear why vent wean is going so slowly.  Likely a
   combination of body habitus, underlying intrinsic lung disease, fluid
   overload, and intermittent mucous plugging (as has been visualized
   directly on bronchoscopy).  Most recent bronchoscopy after self removal
   of trachestomy showed trachea is relatively collapsible and this may
   also contribute to intermittent desaturation and high PEEP
   requirement.   It is unlikely that he has a VAP contributing at this
   point given serial negative sputum cultures, unresponsiveness to
   antibiotics, and chronic nature of his respiratory failure.  We are
   continuing to attempt to decrease PEEP each day, currently on 14-16 and
   FIO2 of 50%. He is resistant to decreasing PEEP further, when attempted
   he desaturates, especially during periods of agitation.
   -          Continue to attempt to ween PEEP as tolerated
   -          Standing seroquel for agitation
   -          Versed and fentanyl bolus for agitation prn
   -          continue nebulizer treatments
   -          f/u BAL and sputum cultures
   .
   # Cdiff colitis: last positive cdiff [**10-16**], on PO vanco and now on
   Flagyl IV since yesterday. Yesterday team noted new(?) increase in
   abdominal distention with KUB showing distended colon. Concern for
   toxic megacolon, patient to CT abdomen and surgery consulted.  CT
   abdomen c/w illeus w/out evidence of colitis.
   - NG tube initially for decompression
   - limit fentanyl to prn, control agitation with seroquel
   - narcan po for illeus related to opiate use
   - continue po vancomycin
   - d/c flagyl
   - re-check stool c-diff
   .
   # Gout: Positive arthrocentesis. Renally dosed allopurinol, and added
   on colchicine (also renally dosed) and prednisone. Continue to bolus IV
   fluids.
   - renally dosed allopurinol
   - renally dosed colchicine and 20mg PO prednisone until fever gone
   and/or clinically improved
   .
   # Agitation: Brief periods of agitation causing increased respiratory
   work. [**Month (only) 60**] be secondary to pain since he is also tachycardic and goes up
   in BP during these episodes. Methadone 20mg tid for pain and weaning of
   fentanyl and seroquel standing for agitation.
   - use versed and fentanyl bolus prn agitation, off drip
   - methadone 20mg q6h po
 to consider increasing dose tomorrow if
   continues to require fentanyl boluses
   - keep seroquel standing dose the same and add PRN seroquel as first
   choice in PRN medication for agitation
 to consider increasing dose if
   agitation persists
   .
   # Acute Renal failure:  Creatinine has been slowly increasing over
   several days which is also likely pre-renal dehydration. He has been
   responsive to IV boluses with improved urine output and a decrease in
   Cr. He has multiple reasons for dehydration including long-term MV and
   fever. Will continue to hydrate prn and monitor UOP
   -renally dose medications
   -1L NS bolus prn
   -trend Cr
   -monitor UOP
   -no need for HD at this time
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Restarted
   labetalol and diovan. Monitor closely as pt has periods of hypotension.
   .
   # Atrial fibrillation: Rate well controlled on labetalol.
   - not an anticoagulation candidate due to repeat bleeds.
   .
   FEN small TF given ileus, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC (L arm)
   .
   Dispo: continue to wean off sedation and peep
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   20 Gauge - [**2141-11-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-20 05:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2141-11-19**] 08:00 PM -> on cooling blanket, given
   Tylenol and motrin 1x
     * Continued to be agitated, wrote for prn seroquel and increased
       standing dose. Asked nursing to try prn seroquel before midaz or
       fentanyl boluses, but agitation continued despite giving all
       standing meds and boluses of fentanyl (up to 100mic) and
       midazolam.  After patient almost pulled tracheostomy out again,
       re-started midazolam drip.
     * Patient had brief period of desaturation which resolved w/position
       change and then was taking very small volumes on the vent and was
       difficult to bag until patient was suctioned and a large clot of
       mucous was removed.
     * For some time while patient was agitated, he was communicative and
       answering questions yes or no (although mostly trying to yell
       incoherently and get out of bed)
     * CDiff sent
     * Decreased stool output, may be second to illeus from narcotics,
       given PO narcan
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-11-19**] 08:00 AM
   Vancomycin - [**2141-11-19**] 05:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-19**] 08:00 PM
   Fentanyl - [**2141-11-20**] 12:00 AM
   Midazolam (Versed) - [**2141-11-20**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-20**] 05:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36.9
C (98.4
   HR: 78 (78 - 146) bpm
   BP: 123/91(99) {110/69(80) - 170/107(116)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    935 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                    525 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  5,060 mL
                                                                    940 mL
   Urine:
                                                                  4,835 mL
                                                                    940 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,125 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 524 (518 - 1,447) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 28
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 7.3 L/min
   Physical Examination
   Gen: opens eyes to voice, generally not responding to commands but did
   move toes on command. Appears more comfortable today. No longer
   withdrawing to touch on right knee
   HEENT: PEERL, proptosis,  NG and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, distended but soft, NTTP
   Ext: dry skin on feet and hands, no new rashes, wounds; no longer
   tender to palpation over R knee,
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Neuro: Moves all 4 extremities spontaneously. Opens eyes to voice and
   moved toes to command.
   Labs / Radiology
   318 K/uL
   6.3 g/dL
   102 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   51 mg/dL
   109 mEq/L
   147 mEq/L
   20.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2141-11-13**]  03:19 AM
                             [**2141-11-14**]  03:30 AM
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
                             [**2141-11-18**]  06:00 AM
                             [**2141-11-19**]  04:01 AM
                             [**2141-11-20**]  03:47 AM
   WBC
   5.6
   6.9
   13.4
   13.9
   8.7
   6.7
   7.0
   7.3
   Hct
   22.4
   24.7
   23.7
   21.9
   21.8
   21.5
   21.8
   20.3
   Plt
   186
   231
   229
   197
   220
   249
   278
   318
   Cr
   1.7
   1.8
   1.9
   2.1
   2.6
   2.8
   2.3
   1.8
   1.6
   1.4
   Glucose
   138
   72
   130
   145
   107
   95
   141
   54
   117
   102
   Other labs: PT / PTT / INR:17.2/26.0/1.6, CK / CKMB /
   Troponin-T:465/6/0.03, ALT / AST:27/50, Alk Phos / T Bili:136/0.4,
   Amylase / Lipase:39/26, Differential-Neuts:83.3 %, Band:2.0 %,
   Lymph:9.0 %, Mono:3.3 %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:205 IU/L, Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   .
   # Fever: Unclear source. Patient has had fever for >1 week continuously
   after short period of being afebrile.  Patient has otherwise been
   febrile through entire stay. Positive cultures are limited to: MSSA
   positive nasal swab on [**10-10**] (from purulent exudate), 1x positive Cdiff
   ([**10-16**]), and 2x positive BCx with Coag negative staph resistant to
   Oxacillin ([**10-22**] and [**10-24**]). All other cultures have since been
   negative, including mycolitic and AFB blood cultures on [**11-3**].  Had
   arthrocentesis that showed gout, which may have contributed to fever,
   although patient has been treated and seems clinically improved (is no
   longer withdrawing from palpation to R knee) but is still spiking
   fevers.  Patient has had 2x abdominal CT that did not show source of
   infection. Most recent abdominal/pelvis CT w/PO contrast showed
   distention but no other evidence of colitis or other nidus of
   infection.  Patient has had normal RUQ u/s and normal LFTs as well.
   Patient had TTE with decent visualization of the mitral and aortic
   valves that showed no endocarditis, and patient has had no positive
   blood cultures throughout the last 3 weeks of spiking temperatures.
   Haldol was d/c approximately one week ago for concern of NMS w/out
   resolution of fever.  Patient with no focal neurologic findings
   (although exam is admittedly limited due to patients mental status and
   body habitus) to suggest epidural abscess, but patient likely not a
   candidate for MRI regardless.  Dorepenem and IV vancomycin d/c after
   several days of empiric treatment without source and continued fever.
   -check stool for Cdiff (last was [**10-16**])
   -continue empiric cdiff management with po vanco and IV flagyl
   -f/u blood culture, BAL, sputum cx
   -continue to treat gout w/colchicine and prednisone
   -continue to trend fever curve, do not need to culture every day
   .
   # Respiratory Failure: Initially a result of decompensated CHF in
   setting of cocaine abuse.  Unable to wean PEEP below 14 during any
   portion of MICU stay (last time was immediately pre-tracheostomy).  It
   is still unclear why vent wean is going so slowly.  Likely a
   combination of body habitus, underlying intrinsic lung disease, fluid
   overload, and intermittent mucous plugging (as has been visualized
   directly on bronchoscopy).  Most recent bronchoscopy after self removal
   of trachestomy showed trachea is relatively collapsible and this may
   also contribute to intermittent desaturation and high PEEP
   requirement.   It is unlikely that he has a VAP contributing at this
   point given serial negative sputum cultures, unresponsiveness to
   antibiotics, and chronic nature of his respiratory failure.  We are
   continuing to attempt to decrease PEEP each day, currently on 14-16 and
   FIO2 of 50%. He is resistant to decreasing PEEP further, when attempted
   he desaturates, especially during periods of agitation.
   -          Continue to attempt to ween PEEP as tolerated
   -          Standing seroquel for agitation
   -          Versed and fentanyl bolus for agitation prn
   -          continue nebulizer treatments
   -          f/u BAL and sputum cultures
   .
   # Cdiff colitis: last positive cdiff [**10-16**], on PO vanco and now on
   Flagyl IV since yesterday. Yesterday team noted new(?) increase in
   abdominal distention with KUB showing distended colon. Concern for
   toxic megacolon, patient to CT abdomen and surgery consulted.  CT
   abdomen c/w illeus w/out evidence of colitis.
   - NG tube initially for decompression
   - limit fentanyl to prn, control agitation with seroquel
   - narcan po for illeus related to opiate use
   - continue po vancomycin
   - d/c flagyl
   - re-check stool c-diff
   .
   # Gout: Positive arthrocentesis. Renally dosed allopurinol, and added
   on colchicine (also renally dosed) and prednisone. Continue to bolus IV
   fluids.
   - renally dosed allopurinol
   - renally dosed colchicine and 20mg PO prednisone until fever gone
   and/or clinically improved
   .
   # Agitation: Brief periods of agitation causing increased respiratory
   work. [**Month (only) 60**] be secondary to pain since he is also tachycardic and goes up
   in BP during these episodes. Methadone 20mg tid for pain and weaning of
   fentanyl and seroquel standing for agitation.
   - use versed and fentanyl bolus prn agitation, off drip
   - methadone 20mg q6h po
 to consider increasing dose tomorrow if
   continues to require fentanyl boluses
   - keep seroquel standing dose the same and add PRN seroquel as first
   choice in PRN medication for agitation
 to consider increasing dose if
   agitation persists
   .
   # Acute Renal failure:  Creatinine has been slowly increasing over
   several days which is also likely pre-renal dehydration. He has been
   responsive to IV boluses with improved urine output and a decrease in
   Cr. He has multiple reasons for dehydration including long-term MV and
   fever. Will continue to hydrate prn and monitor UOP
   -renally dose medications
   -1L NS bolus prn
   -trend Cr
   -monitor UOP
   -no need for HD at this time
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: prior MI [**1-14**] cocaine use. Restarted
   labetalol and diovan. Monitor closely as pt has periods of hypotension.
   .
   # Atrial fibrillation: Rate well controlled on labetalol.
   - not an anticoagulation candidate due to repeat bleeds.
   .
   FEN small TF given ileus, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC (L arm)
   .
   Dispo: continue to wean off sedation and peep
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   20 Gauge - [**2141-11-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-21 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-11-20**] 11:30 AM
   off drip, pt w/o agitation, very alert and oriented
   -increased seroquel, EKG w/ QTc 468
   -LFTs slightly elevated, trend w/am labs
   -agitated overnight (although alert and oriented) pulled out trach to
   balloon, respiratory replaced
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-11-19**] 08:00 AM
   Vancomycin - [**2141-11-20**] 12:15 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2141-11-20**] 10:16 PM
   Fentanyl - [**2141-11-20**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-21**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 84 (60 - 92) bpm
   BP: 147/97(109) {126/61(87) - 161/107(113)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                    952 mL
                                                                    720 mL
   PO:
                  TF:
                                                                    246 mL
                                                                    225 mL
   IVF:
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  1,110 mL
   Urine:
                                                                  3,575 mL
                                                                  1,110 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,643 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 548 (548 - 548) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   7.7 g/dL
   70 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.3 mEq/L
   42 mg/dL
   109 mEq/L
   148 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2141-11-14**]  06:52 PM
                             [**2141-11-15**]  04:26 AM
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
                             [**2141-11-18**]  06:00 AM
                             [**2141-11-19**]  04:01 AM
                             [**2141-11-20**]  03:47 AM
                             [**2141-11-20**]  04:49 PM
                             [**2141-11-21**]  03:05 AM
   WBC
   13.4
   13.9
   8.7
   6.7
   7.0
   7.3
   8.5
   Hct
   23.7
   21.9
   21.8
   21.5
   21.8
   20.3
   23.5
   24.8
   Plt
   [**Telephone/Fax (3) 6950**]49
   278
   318
   353
   Cr
   1.9
   2.1
   2.6
   2.8
   2.3
   1.8
   1.6
   1.4
   1.3
   1.2
   Glucose
   130
   145
   107
   95
   141
   54
   117
   102
   114
   70
   Other labs: PT / PTT / INR:17.2/26.0/1.6, CK / CKMB /
   Troponin-T:465/6/0.03, ALT / AST:61/74, Alk Phos / T Bili:219/0.4,
   Amylase / Lipase:39/26, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:266 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   [**11-19**] Stool
 C-diff neg
   [**11-18**] Blood cx
 no growth
   [**11-18**] urine
 final neg
   [**11-20**] CXR
 no change from [**11-19**] previous study
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   .
   # Fever: Unclear source. The patient has been febrile on/off since his
   admission.  At this point, we have ruled out all main souces of
   infection including pulmonary (no growth on sputum or BAL culture to
   date), bacteremia (no growth on blood cultures), intra-abdominal
   (negative CT A/P), stool (negative C.diff), skin (no new wounds,
   rashes), endocardial (old TTE shows normal valves and no positive
   cultures), instrumentation (blood cultures negative despite PICC still
   being in, foley changes with suspicion of dirty UA). Since his
   admission his infectious history includes: MSSA positive nasal swab on
   [**10-10**] (from purulent exudate), 1x positive Cdiff ([**10-16**]), and 2x
   positive BCx with Coag negative staph resistant to Oxacillin ([**10-22**] and
   [**10-24**]). His gout flare-up was treated with colchicine and prednisone
   and he appears clinically improved, however he is still spiking fevers.
   Antibiotics (IV vanco and doripenem) were stopped after a short 3 day
   course after he became hemodynamically stable and sepsis was no longer
   on the differential. Additionally, drug fever was taken into account
   and the only medication identified that could cause such reaction
   (haldol) was d/c
d, with continued fever spikes.  At this point the
   only other option to consider is non-infectious, autoimmune etiologies
   which, in this setting would likely yield nonspecific results.
   -monitor for increasing stool output and abd distension (now improved);
   cdiff negative
   -last day of po vanco [**11-21**]
   -f/u blood culture, BAL, sputum cx
 negative as [**11-21**]
   -continue to treat gout w/colchicine for 2 week course
   .
   # Respiratory Failure: Initially a result of decompensated CHF in
   setting of cocaine abuse.  Has been on PS and AC for most of his stay,
   allowing for wean of PEEP to approximately 14. He frequently becomes
   agitated and desaturates when his PEEP is decreased further than this.
   Most recent bronchoscopy after self removal of trachestomy showed
   trachea is relatively collapsible and this may also contribute to
   intermittent desaturation and high PEEP requirement.   At this point it
   is highly unlikely that he has an underlying PNA complicating his
   wean.  We are continuing to attempt to decrease PEEP each day,
   currently on 14-16 and FIO2 of 50%. Continue to attempt to ween PEEP as
   tolerated
   -          Seroquel changed to 200 TID standing dose
   -          Fentanyl bolus for agitation prn
 d/c
d versed
   -          continue nebulizer treatments
   -          f/u BAL and sputum cultures
 negative as of [**11-21**]
   .
   # Cdiff colitis: Concern for toxic megacolon, patient to CT abdomen and
   surgery consulted.  CT abdomen c/w illeus w/out evidence of colitis.
   His last day of po vanco tomorrow.
   - NG tube in place
   - limit fentanyl to prn, control agitation with seroquel
   - narcan po for illeus
   - d/c PO Vanc [**11-21**]
   .
   # Gout: Positive arthrocentesis. Renally dosed allopurinol and
   colchicine. Prednisone was d/c yesterday for 3 day course. Will
   continue colchicine for 2 weeks. Continue to bolus IV fluids.
   - renally dosed allopurinol
   - renally dosed colchicine for two weeks total until [**11-30**]
   .
   # Agitation: Brief periods of agitation causing increased respiratory
   work. [**Month (only) 60**] be secondary to pain since he is also tachycardic and goes up
   in BP during these episodes. Methadone 20mg tid for pain and weaning of
   fentanyl and seroquel standing for agitation.   Pt more clear and
   interactive today, though still pulling at trach overnight.
   - weaned off drip, d/c
d versed
   - methadone 20mg q6h po
   - seroquel 200mg tid, will check EKG today to check for ORS changes
   with new seroquel dosing
   .
   # Acute Renal failure:  Cr slowly improving with hydration and renally
   dosed medications. Continue to monitor.
   -renally dose medications
   -trend Cr
   -monitor UOP
   # Elevated Transaminases
 slight bump in LFTs
   -possibly due to seroquel
 will continue to monitor
 goal is to
   eventually wean seroquel and stop when pt
s mental status clears more
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: MI in [**2129**] [**1-14**] cocaine abuse. Restarted
   labetalol and diovan. Monitor closely as pt has periods of hypotension.
   -labetalol, diovan hold for now given periods of hypotension
   #Hypernatremia
 up to 148 -> now trending downward to 146
   - cont free water boluses with tube feeds
   .
   # Atrial fibrillation: currently off labetalol for episodes of
   hypotension. Has been 60-90s overall.
   - not an anticoagulation candidate due to repeat bleeds.
   .
   FEN:  start TF with free water bolus for hypernatremia, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC (L arm)
   .
   Dispo: continue to wean off sedation and peep
 to rehab when bed
   available
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
   improved with increase in free water bolus
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 ANXIETY
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-21**] 04:18 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-11-22 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2141-11-21**] 10:54 AM
 EKG - At [**2141-11-22**] 02:39 AM
   - Mental satus greatly improved.  Agitation resolved
   -started coreg for BP in 140s HR in 90s, overngiht SBP in 90s, HR in
   60s.
   -EKG with QTc 493, therefore Seroquel decreased to 150 TID
   - tolerated PEEP of 5 from noon to 1900, increased back to 10 PEEP for
   RR increase.
   -Na corrected to 146
   - unable to be screened yesterday, plan for d/c to rehab today.
   Allergies:
   Capoten (Oral) (Captopril)
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2141-11-19**] 08:00 AM
   Vancomycin - [**2141-11-20**] 12:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-11-22**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-22**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 78 (64 - 137) bpm
   BP: 124/88(97) {94/62(69) - 155/105(117)} mmHg
   RR: 14 (11 - 99) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  1,860 mL
                                                                    578 mL
   PO:
                  TF:
                                                                    840 mL
                                                                    188 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    390 mL
   Urine:
                                                                  3,150 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,290 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 563 (521 - 640) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 7.4 L/min
   Physical Examination
   Gen: opens eyes to voice, generally not responding to commands but did
   move toes on command. Appears more comfortable today. No longer
   withdrawing to touch on right knee
   HEENT: PEERL, proptosis,  NG and trach in place
   Lungs: course bs anteriorly bilaterally
   Heart: distant heart sounds, no new murmurs noted
   Abd: massively obese, BS+, distended but soft, NTTP
   Ext: dry skin on feet and hands, no new rashes, wounds; no longer
   tender to palpation over R knee,
   Peripheral Vascular: 2+ dp pulses bilaterally, no cyanosis
   Neuro: Moves all 4 extremities spontaneously. Opens eyes to voice and
   moved toes to command.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   7.9 g/dL
   111 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   36 mg/dL
   108 mEq/L
   146 mEq/L
   24.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2141-11-15**]  04:06 PM
                             [**2141-11-16**]  03:14 AM
                             [**2141-11-17**]  05:37 AM
                             [**2141-11-18**]  06:00 AM
                             [**2141-11-19**]  04:01 AM
                             [**2141-11-20**]  03:47 AM
                             [**2141-11-20**]  04:49 PM
                             [**2141-11-21**]  03:05 AM
                             [**2141-11-21**]  11:22 AM
                            [**2141-11-22**]  03:39 AM
   WBC
   13.9
   8.7
   6.7
   7.0
   7.3
   8.5
   7.7
   Hct
   21.9
   21.8
   21.5
   21.8
   20.3
   23.5
   24.8
   24.6
   Plt
   197
   220
   249
   [**Telephone/Fax (3) 6962**]
   382
   Cr
   2.6
   2.8
   2.3
   1.8
   1.6
   1.4
   1.3
   1.2
   1.2
   1.3
   Glucose
   107
   95
   141
   54
   117
   102
   114
   70
   84
   111
   Other labs: PT / PTT / INR:17.2/26.0/1.6, CK / CKMB /
   Troponin-T:465/6/0.03, ALT / AST:56/59, Alk Phos / T Bili:218/0.4,
   Amylase / Lipase:39/26, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:247 IU/L, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   A/P: This is a morbidly obese 53-year-old man with CHF, DM II, fluid
   overload, respiratory failure and persistent fevers post treatment for
   CONS bacteremia and VAP.
   .
   # Fever: Unclear source. The patient has been febrile on/off since his
   admission.  At this point, we have ruled out all main souces of
   infection including pulmonary (no growth on sputum or BAL culture to
   date), bacteremia (no growth on blood cultures), intra-abdominal
   (negative CT A/P), stool (negative C.diff), skin (no new wounds,
   rashes), endocardial (old TTE shows normal valves and no positive
   cultures), instrumentation (blood cultures negative despite PICC still
   being in, foley changes with suspicion of dirty UA). Since his
   admission his infectious history includes: MSSA positive nasal swab on
   [**10-10**] (from purulent exudate), 1x positive Cdiff ([**10-16**]), and 2x
   positive BCx with Coag negative staph resistant to Oxacillin ([**10-22**] and
   [**10-24**]). His gout flare-up was treated with colchicine and prednisone
   and he appears clinically improved, however he is still spiking fevers.
   Antibiotics (IV vanco and doripenem) were stopped after a short 3 day
   course after he became hemodynamically stable and sepsis was no longer
   on the differential. Additionally, drug fever was taken into account
   and the only medication identified that could cause such reaction
   (haldol) was d/c
d, with continued fever spikes.  At this point the
   only other option to consider is non-infectious, autoimmune etiologies
   which, in this setting would likely yield nonspecific results.
   -monitor for increasing stool output and abd distension (now improved);
   cdiff negative
   -last day of po vanco [**11-21**]
   -f/u blood culture, BAL, sputum cx
 negative as [**11-21**]
   -continue to treat gout w/colchicine for 2 week course
   .
   # Respiratory Failure: Initially a result of decompensated CHF in
   setting of cocaine abuse.  Has been on PS and AC for most of his stay,
   allowing for wean of PEEP to approximately 14. He frequently becomes
   agitated and desaturates when his PEEP is decreased further than this.
   Most recent bronchoscopy after self removal of trachestomy showed
   trachea is relatively collapsible and this may also contribute to
   intermittent desaturation and high PEEP requirement.   At this point it
   is highly unlikely that he has an underlying PNA complicating his
   wean.  We are continuing to attempt to decrease PEEP each day,
   currently on 14-16 and FIO2 of 50%. Continue to attempt to ween PEEP as
   tolerated
   -          Seroquel changed to 200 TID standing dose
   -          Fentanyl bolus for agitation prn
 d/c
d versed
   -          continue nebulizer treatments
   -          f/u BAL and sputum cultures
 negative as of [**11-21**]
   .
   # Cdiff colitis: Concern for toxic megacolon, patient to CT abdomen and
   surgery consulted.  CT abdomen c/w illeus w/out evidence of colitis.
   His last day of po vanco tomorrow.
   - NG tube in place
   - limit fentanyl to prn, control agitation with seroquel
   - narcan po for illeus
   - d/c PO Vanc [**11-21**]
   .
   # Gout: Positive arthrocentesis. Renally dosed allopurinol and
   colchicine. Prednisone was d/c yesterday for 3 day course. Will
   continue colchicine for 2 weeks. Continue to bolus IV fluids.
   - renally dosed allopurinol
   - renally dosed colchicine for two weeks total until [**11-30**]
   .
   # Agitation: Brief periods of agitation causing increased respiratory
   work. [**Month (only) 60**] be secondary to pain since he is also tachycardic and goes up
   in BP during these episodes. Methadone 20mg tid for pain and weaning of
   fentanyl and seroquel standing for agitation.   Pt more clear and
   interactive today, though still pulling at trach overnight.
   - weaned off drip, d/c
d versed
   - methadone 20mg q6h po
   - seroquel 200mg tid, will check EKG today to check for ORS changes
   with new seroquel dosing
   .
   # Acute Renal failure:  Cr slowly improving with hydration and renally
   dosed medications. Continue to monitor.
   -renally dose medications
   -trend Cr
   -monitor UOP
   # Elevated Transaminases
 slight bump in LFTs
   -possibly due to seroquel
 will continue to monitor
 goal is to
   eventually wean seroquel and stop when pt
s mental status clears more
   .
   # DM: ISS with standing glargine.
   - Continue current insulin regimen.
   .
   # Ischemic Cardiomyopathy: MI in [**2129**] [**1-14**] cocaine abuse. Restarted
   labetalol and diovan. Monitor closely as pt has periods of hypotension.
   -labetalol, diovan hold for now given periods of hypotension
   #Hypernatremia
 up to 148 -> now trending downward to 146
   - cont free water boluses with tube feeds
   .
   # Atrial fibrillation: currently off labetalol for episodes of
   hypotension. Has been 60-90s overall.
   - not an anticoagulation candidate due to repeat bleeds.
   .
   FEN:  start TF with free water bolus for hypernatremia, multivitamin.
   .
   PPX: Heparin subQ, H2 blocker, bowel regimen.
   .
   Access: PICC (L arm)
   .
   Dispo: continue to wean off sedation and peep
 to rehab when bed
   available
   .
   CODE: FULL
   .
   #Contacts:  [**Telephone/Fax (1) 6185**]
 [**Name2 (NI) 6963**]ETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
   improved with increase in free water bolus
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 ANXIETY
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-11-22**] 04:30 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-11-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: